2114-11-10 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-11-9**] 06:23 PM
 MULTI LUMEN - START [**2114-11-9**] 11:00 PM
 ARTERIAL LINE - START [**2114-11-10**] 02:00 AM
   - Sedation increased b/c not synchronous w vent
   - AC Vt 300 FiO2 100% RR 32 PEEP 15
 ABG: 7.14/51/138
   - AC Vt 300 FiO2 80% RR 32 PEEP 15
 ABG:  7.16/48/109
   - AC Vt 320 FiO2 80% RR 32 PEEP 15
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-9**] 09:15 PM
   Vancomycin - [**2114-11-9**] 10:00 PM
   Aztreonam - [**2114-11-10**] 12:15 AM
   Bactrim (SMX/TMP) - [**2114-11-10**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-10**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 95 (90 - 112) bpm
   BP: 117/68(88) {93/39(59) - 117/68(88)} mmHg
   RR: 32 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 18 (18 - 19)mmHg
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  8,716 mL
                                                                  1,001 mL
   PO:
   TF:
   IVF:
                                                                  4,716 mL
                                                                    959 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    680 mL
   Urine:
                                                                    290 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,626 mL
                                                                    321 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (300 - 320) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.16/48/109/17/-11
   Ve: 10.2 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GENERAL: Intubated, initially responsive to verbal stimuli, but
   sedation increased for agitation.
   HEENT: Pupils are equal and minimally reactive to light. ETT in place.
   LUNGS: R lung fields with diffuse crackles, improved since yesterday. L
   side milder crackles.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: There is no edema. 2+ peripheral pulses. Moves all ext
   spontaneously.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   323 K/uL
   8.9 g/dL
   293 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.2 mEq/L
   13 mg/dL
   113 mEq/L
   139 mEq/L
   26.9 %
   26.4 K/uL
        [image002.jpg]
                            [**2114-11-10**]  01:14 AM
                            [**2114-11-10**]  02:30 AM
                            [**2114-11-10**]  04:02 AM
                            [**2114-11-10**]  05:36 AM
   WBC
   26.4
   Hct
   26.9
   Plt
   323
   Cr
   0.7
   TCO2
   19
   18
   18
   Glucose
   293
   Other labs: PT / PTT / INR:11.4/31.5/0.9, ALT / AST:21/32, Alk Phos / T
   Bili:125/1.0, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, LDH:380 IU/L, Ca++:6.4
   mg/dL, Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure: Likely ARDS in setting on severe PNA. Very large
   A-a gradient 100% FiO2. On AC vent 320/34 with PEEP 15. Will cont with
   low Vt given ARDS and attempt to wean FiO2 as tolerated.
   - Bronchoscopy today and BAL to test for PCP, [**Name10 (NameIs) **]
   [**Name Initial (NameIs) **] Cont mech vent and wean oxygen requirement as tolerated
   - Position on left side to ventilate healthier lung
 didn
t work
   yesterday, may try again
   .
   # Septic shock: Due to multifocal PNA, as seen on CT chest. Wide
   differential given immunosuppression includes usual pathogens (Strep,
   etc), viral (flu, CMV), PCP (esp with elev LDH), atypicals. CVP ~12
   suggests adequate volume resuscitation.
   - add vasopressin
   - Cont norepinephrine to sustain MAP > 65 and good urine output.
   - Keep CVP 10-12
   - Empiric broad antibacterial coverage with vanc/aztreonam/azithromycin
   - Empiric TMP-SMX and steroids for PCP coverage
   [**Name Initial (PRE) **] Empiric oseltamivir for flu coverage
   - Sputum cx and flu swab
   - UA, Ucx, Bcx, urine legionella, CMV VL, b-glucan, galactomannin
   .
   # Non-Gap Acidosis
   Likely secondary to normal saline
   - cont to monitor
   .
   # ALL: On chronic immunosuppression s/p single cord blood
   transplantation. No neutropenia.
   - Cont acyclovir ppx
   - Cont tacrolimus and check level in am
   - Stress dose steroids with hydrocort 100mg q8h (also to cover PCP)
   - Appreciate BMT attending recs
   .
   # Hep B:
   - Cont lamivudine
   .
   # Anemia: At baseline.
   - Trend hct
   ICU Care
   Nutrition:
   Tube feeds
   Glycemic Control:   humalog sliding scale
   Lines:   Central line, A-line
   18 Gauge - [**2114-11-9**] 07:00 PM
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:  ppi
   VAP: Bundle
   Comments:
   Communication:  Comments: ICU consent signed
   -Husband [**Name (NI) **] [**Name (NI) **] (cell - [**Telephone/Fax (1) 10788**]). Mainly Cantonese speaking,
   although his son is available at this number to translate.
   -Sister [**Name (NI) 10789**] [**Name (NI) **] ([**Telephone/Fax (1) 10790**]) listed as next of [**Doctor First Name 372**] in OMR.
   Code status:  full code
   Disposition:

2114-11-10 09:02:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52yo F with h/o ALL s/p chemo and cord blood transplant about 200 days
   ago c/b multiple infections including CMV viremia and VRE who now
   presents with fever and productive cough accompanied by mild shortness
   of breath.  Treated as outpatient with azithromycin without
   improvement.  Rapidly progressive hypoxemic respiratory failure in the
   ED requiring intubation, CT scan with bilateral R>L pneumonia.
   24 Hour Events:
   Overnight with persistent hypoxemia and hypotension requiring
   pressors.  Central line and arterial line placed
   Patient unable to provide history: Sedated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2114-11-10**] 04:30 AM
   Vancomycin - [**2114-11-10**] 07:49 AM
   Acyclovir - [**2114-11-10**] 07:49 AM
   Aztreonam - [**2114-11-10**] 07:49 AM
   Infusions:
   Norepinephrine - 0.35 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-10**] 08:15 AM
   Other medications:
   Changes to medical and family history:  No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Patient intubated and deeply sedated.
   Flowsheet Data as of  [**2114-11-10**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.5
   HR: 88 (88 - 112) bpm
   BP: 109/60(80) {93/39(59) - 117/68(88)} mmHg
   RR: 32 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 14 (14 - 19)mmHg
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  8,716 mL
                                                                  1,579 mL
   PO:
   TF:
   IVF:
                                                                  4,716 mL
                                                                  1,467 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    740 mL
   Urine:
                                                                    290 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,626 mL
                                                                    839 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (300 - 320) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.19/45/133/17/-10
   Ve: 10.2 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: sedated, intubated, comfortable appearing
   HEENT: pupils constricted and minimally reactive
   Cardiovascular: hyperdynamic, II/VI systolic murmur, regular, no rub or
   gallop appreciated
   Pulm: bronchial breath sounds R>L, scattered rhonchi, no wheezing
   appreciated
   Abdomen: slightly distended but still soft, no grimace with palpation,
   (+) bowel sounds
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, mild upper extremity edema
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement
   Labs / Radiology
   8.9 g/dL
   323 K/uL
   293 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.2 mEq/L
   13 mg/dL
   113 mEq/L
   139 mEq/L
   26.9 %
   26.4 K/uL
        [image002.jpg]
                            [**2114-11-10**]  01:14 AM
                            [**2114-11-10**]  02:30 AM
                            [**2114-11-10**]  04:02 AM
                            [**2114-11-10**]  05:36 AM
                            [**2114-11-10**]  08:18 AM
   WBC
   26.4
   Hct
   26.9
   Plt
   323
   Cr
   0.7
   TCO2
   19
   18
   18
   18
   Glucose
   293
   Other labs: PT / PTT / INR:11.4/31.5/0.9, ALT / AST:21/32, Alk Phos / T
   Bili:125/1.0, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, LDH:380 IU/L, Ca++:6.4
   mg/dL, Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   52 yo F with ALL s/p cord blood transplant on chronic immunosupressants
   who presents with pneumonia and ARDS
 ARDS: likely infectious in nature with evidence of multifocal
   consolidation on CT and
   - will wean Fi02 as tolerated and if down to 50% will attempt to wean
   PEEP
   - goal Pa02 >60, on about 6cc/kg TV currently. mild hypercarbia
   acceptable
   - plan bronchoscopy today with BAL for TB, bacterial studies, PCP, [**Name10 (NameIs) **]
   [**Name Initial (NameIs) **] plateau pressures at goal (<30)
   - on empiric broad spectrum bacterial coverage with aztreonam,
   azithromycin and vancomycin, bactrim for PCP and [**Name9 (PRE) 10801**] for possible
   H1N1
   - awaiting influenza A and B swab
   - h/o LTBI, which seems less likely cause of acute issue but can r/o
   for active TB via bronch with BAL
 Shock: likely secondary to pneumonia
   - appears volume resuscitated, but will keep goal CVP 10-12 and follow
   urine output
   - will add vasopressin today, wean levophed as tolerated
   - on broad spectrum antimicrobials, as above
   - awaiting fungal markers, cultures, plan for BAL
   - on stress dose steroids given chronic prednisone use
Acidemia: combined non-gap metabolic acidosis and slight respiratory
   acidosis
   - hyperchloremic non-gap metabolic acidosis likely secondary to normal
   saline resuscitation
   - if more IVF given will use LR or bicarb fluids
   - lactate reassuringly normal
ALL s/p transplant
   - on prophylactic acyclovir
   - on tacrolimus, higher dose steroids
 will check EKG given possible
   interaction of azithro and tacrolimus
 Anemia:
   - close to baseline, no clinical evidence of bleeding, will follow
   ICU Care
   Nutrition:
   Comments: Will start TF today, replete lytes as needed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-11-9**] 07:00 PM
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-11 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - bronch done by [**Doctor First Name 2303**]: frothy secretion R>L; open airways; BAL: a
   little pink; nothing to concerning
   - Trying to wean levophed 0.07 -> 0.04 now. Low BP during turning of
   patient
   - EKG: no prolonged QT; DDI with tacrolimus and azithromycin
   - UOP has been dwindling in the AM: gave 1
 liters of LR with minimal
   effect
   - flu swab sent again
   - decreasing fiO2 with success....once at 40% will decrease PEEP.
   - tacrolimus level drawn early...will hold off on giving medicine until
   level comes back.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2114-11-10**] 08:00 PM
   Acyclovir - [**2114-11-10**] 08:00 PM
   Aztreonam - [**2114-11-10**] 11:30 PM
   Azithromycin - [**2114-11-11**] 02:00 AM
   Bactrim (SMX/TMP) - [**2114-11-11**] 03:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-11-10**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2114-11-10**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-11**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 61 (61 - 91) bpm
   BP: 103/61(79) {91/57(72) - 118/74(92)} mmHg
   RR: 32 (30 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 19 (12 - 19)mmHg
   Total In:
                                                                  5,411 mL
                                                                  1,607 mL
   PO:
   TF:
                                                                     99 mL
   IVF:
                                                                  5,299 mL
                                                                  1,408 mL
   Blood products:
   Total out:
                                                                  1,784 mL
                                                                    209 mL
   Urine:
                                                                  1,784 mL
                                                                    199 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  3,627 mL
                                                                  1,398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.31/29/78.[**Numeric Identifier 181**]/15/-10
   Ve: 9.1 L/min
   PaO2 / FiO2: 197
   Physical Examination
   GENERAL: Intubated, initially responsive to verbal stimuli, but
   sedation increased for agitation.
   HEENT: Pupils are equal and minimally reactive to light. ETT in place.
   LUNGS: R lung fields with diffuse crackles, improved since yesterday. L
   side milder crackles.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: There is no edema. 2+ peripheral pulses. Moves all ext
   spontaneously.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   233 K/uL
   7.0 g/dL
   204 mg/dL
   1.0 mg/dL
   15 mEq/L
   3.5 mEq/L
   21 mg/dL
   106 mEq/L
   131 mEq/L
   21.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2114-11-10**]  01:14 AM
                            [**2114-11-10**]  02:30 AM
                            [**2114-11-10**]  04:02 AM
                            [**2114-11-10**]  05:36 AM
                            [**2114-11-10**]  08:18 AM
                            [**2114-11-10**]  10:32 AM
                            [**2114-11-10**]  05:00 PM
                            [**2114-11-10**]  08:30 PM
                            [**2114-11-11**]  05:10 AM
   WBC
   26.4
   12.5
   Hct
   26.9
   21.2
   Plt
   323
   233
   Cr
   0.7
   1.0
   TCO2
   19
   18
   18
   18
   16
   16
   15
   Glucose
   293
   204
   Other labs: PT / PTT / INR:11.4/31.5/0.9, ALT / AST:15/22, Alk Phos / T
   Bili:93/0.4, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, LDH:257 IU/L, Ca++:7.0
   mg/dL, Mg++:2.9 mg/dL, PO4:3.9 mg/dL
   Tacrolimus: 2.4
   Micro: NGTD: many cultures pending
   Radiology: CXR:
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure: Likely ARDS in setting on severe PNA. Very large
   A-a gradient 100% FiO2. Respiratory status improving as FiO2 is 40% and
   PEEP attempted to wean down, but PaO2 was too low, so went back up to
   PEEP of 15.
   - status post bronchoscopy and BAL to test for PCP, [**Name10 (NameIs) **]
   [**Name Initial (NameIs) **] Cont mech vent and wean oxygen requirement as tolerated
   .
   # Septic shock: Due to multifocal PNA, as seen on CT chest. Wide
   differential given immunosuppression includes usual pathogens (Strep,
   etc), viral (flu, CMV), PCP (esp with elev LDH), atypicals. CVP ~12
   suggests adequate volume resuscitation.
   - add vasopressin
   - Cont norepinephrine to sustain MAP > 65 and good urine output.
   - Keep CVP 10-12
   - Empiric broad antibacterial coverage with vanc/aztreonam/azithromycin
   - Empiric TMP-SMX and steroids for PCP coverage
   [**Name Initial (PRE) **] Empiric oseltamivir for flu coverage
   - Sputum cx and flu swab
   - UA, Ucx, Bcx, urine legionella, CMV VL, b-glucan, galactomannin
   .
   # Non-Gap Acidosis
   Likely secondary to normal saline
   - cont to monitor
   - Give LR or D5 with bicarb if needed for fluids
   .
   # ALL: On chronic immunosuppression s/p single cord blood
   transplantation. No neutropenia.
   - Cont acyclovir ppx
   - Cont tacrolimus and check level in am
   - Stress dose steroids with hydrocort 100mg q8h (also to cover PCP)
   - Appreciate BMT attending recs
   .
   # Hep B:
   - Cont lamivudine
   .
   # Anemia: Decreased from yesterday. Patient did get 1.5 liters of
   fluids overnight, but should not have decreased Hct to that extent.
   - Active T/S
   - Repeat Hct
   - Transfuse for Hct < 21
   - Guaiac stools
   - PPI
   # Platelet drop: nearly 100 point decrease in 24 hours. Ddx: fluids,
   sepsis, DIC
   - DIC labs
   - Continue to monitor with daily labs
   ICU Care
   Nutrition: Boost Glucose Control Tube feeds: d/w nutrition whether
   patient should be on a low bacteria diet as well.
   Glycemic Control:   humalog sliding scale
   Lines:   Central line, A-line
   18 Gauge - [**2114-11-9**] 07:00 PM
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM (may need to be replaced as cannot
   draw ABG
s off of.)
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:  ppi
   VAP: Bundle
   Comments:
   Communication:  Comments: ICU consent signed
   -Husband [**Name (NI) **] [**Name (NI) **] (cell - [**Telephone/Fax (1) 10788**]). Mainly Cantonese speaking,
   although his son is available at this number to translate.
   -Sister [**Name (NI) 10789**] [**Name (NI) **] ([**Telephone/Fax (1) 10790**]) listed as next of [**Doctor First Name 372**] in OMR.
   Code status:  full code
   Disposition: ICU for now

2114-11-11 08:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52yo F with ALL s/p cord blood transplant on immunosupression and
   intermittent PCP prophylaxis who is now intubated for ARDS and
   multifocal pneumonia
   24 Hour Events:
   Bronchoscopy performed yesterday, vent weaned overnight.
   Patient unable to provide history: Sedated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-10**] 08:00 PM
   Azithromycin - [**2114-11-11**] 02:00 AM
   Bactrim (SMX/TMP) - [**2114-11-11**] 03:30 AM
   Vancomycin - [**2114-11-11**] 08:06 AM
   Aztreonam - [**2114-11-11**] 08:06 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-11-10**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2114-11-10**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-11**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 61 (61 - 85) bpm
   BP: 103/61(79) {91/57(72) - 118/74(92)} mmHg
   RR: 32 (30 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 19 (12 - 19)mmHg
   Total In:
                                                                  5,411 mL
                                                                  2,015 mL
   PO:
   TF:
                                                                    124 mL
   IVF:
                                                                  5,299 mL
                                                                  1,781 mL
   Blood products:
   Total out:
                                                                  1,784 mL
                                                                    275 mL
   Urine:
                                                                  1,784 mL
                                                                    265 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  3,627 mL
                                                                  1,740 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.31/29/78.[**Numeric Identifier 181**]/15/-10
   Ve: 9.1 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: intubated, sedated
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   233 K/uL
   204 mg/dL
   1.0 mg/dL
   15 mEq/L
   3.5 mEq/L
   21 mg/dL
   106 mEq/L
   131 mEq/L
   21.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2114-11-10**]  01:14 AM
                            [**2114-11-10**]  02:30 AM
                            [**2114-11-10**]  04:02 AM
                            [**2114-11-10**]  05:36 AM
                            [**2114-11-10**]  08:18 AM
                            [**2114-11-10**]  10:32 AM
                            [**2114-11-10**]  05:00 PM
                            [**2114-11-10**]  08:30 PM
                            [**2114-11-11**]  05:10 AM
   WBC
   26.4
   12.5
   Hct
   26.9
   21.2
   Plt
   323
   233
   Cr
   0.7
   1.0
   TCO2
   19
   18
   18
   18
   16
   16
   15
   Glucose
   293
   204
   Other labs: PT / PTT / INR:11.4/31.5/0.9, ALT / AST:15/22, Alk Phos / T
   Bili:93/0.4, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, LDH:257 IU/L, Ca++:7.0
   mg/dL, Mg++:2.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ARDS
   - likely infectious etiology, awaiting BAL results
   - being broadly covered for bacterial infections, influenza/H1N1, PCP
   [**Name Initial (PRE) **] awaiting fungal markers
   - TB less likely but afb pending on BAL fluid given h/o untreated LTBI
   - may take time to wean PEEP given volume overload, but CXR improved
   today and Fi02 requirement much improved
   - plateaus at goal (<30) and will maintain goal Pa02 >60
   - check vanc level today
 Shock
   - overall improved, bolusing fluid for decreased urine output
   (<30cc/hr)
   - some element of hypotension may be due to sedation
   - on stress dose steroids given chronic prednisone use
   - infectious workup pending as above
 S/p Cord blood transplant, GVHD
   - on tacrolimus with level pending this morning
   - monitoring QT interval on tacrolimus and azithromycin
 Metabolic acidosis
   - if gets further fluid would give D5W with bicarb or LR
   - likely secondary to aggressive normal saline resuscitation
 Anemia
   - significant drop since admission, no clear source of bleeding
   - will re-check and if still 21 will transfuse 1u PRBC
   - guaiac stool, on PPI
   - check DIC labs
 Thrombocytopenia
   - ? diliutional v. sepsis v. DIC
   - checking labs as above
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-11**] 12:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-12 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - off levo at about 7pm
   - PEEP increased back to 15 due to desats: PO2 in the 50's on gases
   - vanc, aztreonam, levaquin, hydrocortisone, tamiflu
   - BAL negative for PCP: d/c'd bactrim
   - d/c'd azithromycin, added levaquin for better strep pneumo and
   atypical coverage
   - s/p 1unit prbc's
   - UOP decreased then initially picked up with blood then decreased to
   about 10cc/hr, gave albumin, CVP was 10.  Gave 25g albumin, UOP
   increased to 70 cc/hr, holding off on IVF for now since she is total
   body overloaded
   - respiratory panel negative for adeno, influenza and parainfluenza,
   CMV still pending
   - trying to decrease sedation to help with BP, was down to fentanyl 200
   and midaz 5, increased o/n to fentanyl 200 and midaz 10 due to an
   episode of desaturation to the 80's, she was overbreathing the [** 494**]
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2114-11-11**] 02:00 AM
   Bactrim (SMX/TMP) - [**2114-11-11**] 10:30 AM
   Levofloxacin - [**2114-11-11**] 03:00 PM
   Vancomycin - [**2114-11-11**] 08:00 PM
   Acyclovir - [**2114-11-11**] 08:00 PM
   Aztreonam - [**2114-11-12**] 12:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-12**] 12:00 AM
   Midazolam (Versed) - [**2114-11-12**] 04:58 AM
   Fentanyl - [**2114-11-12**] 04:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-12**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
   24 hours
   Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 81 (61 - 84) bpm
   BP: 116/67(86) {90/55(71) - 118/70(90)} mmHg
   RR: 31 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 13 (11 - 19)mmHg
   Bladder pressure: 6 (6 - 6) mmHg
   Total In:
   4,079 mL
   302 mL
   PO:
   TF:
   218 mL
   IVF:
   3,332 mL
   302 mL
   Blood products:
   394 mL
   Total out:
   768 mL
   232 mL
   Urine:
   638 mL
   167 mL
   NG:
   130 mL
   65 mL
   Stool:
   Drains:
   Balance:
   3,311 mL
   70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 32
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 22.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/25/91.[**Numeric Identifier 143**]/14/-10
   Ve: 9.5 L/min
   PaO2 / FiO2: 184
   Physical Examination
   GENERAL: Intubated, sedated, not responsive, does not follow commands
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: crackles and coarse breath sounds bilaterally
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: Patient appears overall volume overloaded but with trace
   to minimal peripheral edema . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   181 K/uL
   7.7 g/dL
   121 mg/dL
   1.3 mg/dL
   14 mEq/L
   3.7 mEq/L
   31 mg/dL
   104 mEq/L
   129 mEq/L
   22.5 %
   9.5 K/uL
        [image002.jpg]
   [**2114-11-10**]  05:00 PM
   [**2114-11-10**]  08:30 PM
   [**2114-11-11**]  05:10 AM
   [**2114-11-11**]  08:28 AM
   [**2114-11-11**]  08:45 AM
   [**2114-11-11**]  11:04 AM
   [**2114-11-11**]  01:49 PM
   [**2114-11-11**]  05:33 PM
   [**2114-11-11**]  08:40 PM
   [**2114-11-12**]  04:45 AM
   WBC
   12.5
   9.5
   Hct
   21.2
   21.8
   24.6
   22.5
   Plt
   233
   181
   Cr
   1.0
   1.3
   TCO2
   16
   15
   14
   15
   14
   14
   Glucose
   204
   121
   Other labs:
   Ca: 7.1  Mg: 2.8,  Phos: 3.8
   PT: 11.1,  INR: 0.9,   PTT: 30.7
   Fibrinogen: 570
   Lactate: 1.9
   Microbiology:
BAL: ACID FAST SMEAR (Preliminary):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
   NEGATIVE for Pneumocystis jirovecii (carinii)..
GRAM STAIN (Final [**2114-11-10**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Influenza Swab: negative for influenza A&B
Respiratory Viral Culture (Final [**2114-11-11**]):
      No respiratory viruses isolated.
      Culture screened for Adenovirus, Influenza A & B, Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus..
      Respiratory Viral Antigen Screen (Final [**2114-11-9**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
         and RSV by immunofluorescence.
   Imaging:
   Chest X-Ray ([**11-12**]-my read): stable bilateral patchy opacities R>L
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure: Likely ARDS in setting on severe PNA. Initially
   with very large A-a gradient requiring 100% FiO2, oxygen requirement
   has been weaned and she is now on 50% FiO2, still unable to wean the
   PEEP as she will derecruit and her oxygen saturation drops.
   - Change [**Month/Year (2) 494**] to pressure control to try and make her more synchronous
   with the [**Last Name (LF) 494**], [**First Name3 (LF) **] also try to wean her sedation, especially with the
   high doses of fentanyl and versed she is currently on
   - BAL negative for PCP so bactrim and steroids were discontinued
   - Influenza swab negative for A&B, will continue empiric 5 day course
   of tamiflu, since the swab is only about 70% sensitive for H1N1 and her
   history was suggestive of a viral infection
   - repsiratoy virus panel negative (adeno, influenza and parainfluenza),
   will f/u CMV
   - AFB smear on BAL was negative, urine legionella negative
   - Culture from BAL with less than 1,000 colonies, Gram stain negative
   for PMN
s or organisms
   - Changed antibiotic coverage for better strep pneumo coverage: added
   levofloxacin and discontinued azithromycin
will likely continue a 14+
   day course of antibiotics
   - Try to wean sedation as tolerated to help with BP, patient has been
   weaned from levophed only on vasopressin
   - Less likely to be cardiogenic in nature with BNP=424, but will f/u
   echo
   -  ? adding vigileo if she stops overbreathing the [**First Name3 (LF) 494**] to determine
   variations in stroke volume to better assess volume status
   - once off pressors will likely benefit from diuresis to help decrease
   total body volume overload
   .
   # Septic shock: Due to multifocal PNA, as seen on CT chest. Wide
   differential given immunosuppression.
   - levophed weaned off, still on vasopressin
try to wean today if
   possible
   - Keep CVP 10-12
   - Urine output goal of 20-25cc/hr at a minimum, UOP dropped overnight
   with CVP
s in the 10 to 12 range, after 25g of albumin her UOP picked
   up and remained at about 25 cc/hr, patient has responded well to
   colloid for resuscitation after her initial resuscitation with over 12L
   IVF.  Would try further colloid to help with decreased urine output to
   decrease her total body volume.
   - Empiric broad antibacterial coverage with vanc/aztreonam/levofloxacin
   will continue for a likely 14 day course
   - Empiric oseltamivir for flu coverage today is day [**4-29**]
   - F/U remainder of BAL studies
   - F/U CMV VL, b-glucan, galactomannin
   .
   # ARF: patient
s creatinine increased from baseline of 0.7 to 1.3,
   likely from ATN in the setting of hypotension causing hypoperfusion
   also with a likely component of prerenal
   - renally dose all meds
   - continue to monitor UOP: goal=20-25cc/hr
   - spin her urine
   .
   # Non-Gap Acidosis: initially thought to be due to aggressive IVF
   resuscitation, patient still does not have an anion gap, now also
   confounded by her renal failure.
   - IVF with D5 with bicarb is she needs further IVF
   - change all carrier medications to NS if possible
   .
   # Hyponatremia: sodium has decreased from 139 to 131 to 129 over the
   past 3 days.  Difficult to determine volume status on exam, she is
   total body volume overloaded, CVP has been in the 10-13 range overnight
   arguing against hypovolemic hyponatremia, however she continues with a
   pressor requirement which argues against hypervolemia.  Likely
   multifactorial related to antibiotics in D5 and the amount of
   vasopressin in her system, both exogenous and endogenous.
   - calculated serum osm=276, which is hypo-osmolar
   - F/U urine lytes, and serum osm
   .
   # ALL: On chronic immunosuppression s/p single cord blood
   transplantation. No neutropenia.
   - Cont acyclovir ppx
   - Discuss tacrolimus dosing with BMT, especially in the setting of
   worsening renal function, it will be extremely difficult to get a good
   dosing schedule with her changing renal function, also with difficulty
   in getting the lab results back in time for appropriate dosing
   - Stress dose steroids with hydrocort 100mg q8h while intubated since
   she is on daily prednisone
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   # Anemia: Pt. s/p 1unit PRBC
s yesterday, with initial appropriate bump
   in HCT, down decreased again to 22.5.  Recheck hemolysis labs and pm
   HCT
   - Active T/S
   - Transfuse for Hct < 21
   # Platelet drop: nearly 100 point decrease in 24 hours. Ddx: fluids,
   sepsis, DIC, vancomycin
platelets currently stable
   - Continue to monitor
   ICU Care
   Nutrition: OG tube feeds on hold due to high residuals.  With large
   volume residuals, no bowel movements and large doses of narcotics very
   concerning for a narcotic induced ileus.  Will try stool softeners and
   suppository/enema to help with a bowel movement and then start po
   narcan.
   Glycemic Control:  regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Heparin SQ, pneumo boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2114-11-14 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pressors off
   -- treating for PCP [**Name Initial (PRE) **] bactrim ; f/u w beta-glucan
   - no bronch done b/c ID still won't be convinced that no PCP exists
   without [**Name Initial (PRE) **] biopsy
   - if she is making >100cc/hr: making good urine
   - gets a lot of nephrotoxins w acyclovir, bactrim, etc...
   - BMT: can hold off on tacrolimus. continue steroids...unsure of dosage
   as talked to [**Doctor Last Name 902**]...touch base with him in AM.
   - vanc trough tonight: 18.1 gave evening dose of vanc
   - Hyponatremia: switched as many meds as possible to be in NS, rather
   than D5
   - still needs to have a stool: PO narcan started. also lacutlose
   started as well...
   - Sedation was attempted to be weaned if patient can tolerate.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2114-11-12**] 04:00 PM
   Levofloxacin - [**2114-11-13**] 02:37 PM
   Acyclovir - [**2114-11-13**] 07:30 PM
   Meropenem - [**2114-11-13**] 08:50 PM
   Vancomycin - [**2114-11-13**] 09:32 PM
   Erythromycin - [**2114-11-14**] 05:59 AM
   Bactrim (SMX/TMP) - [**2114-11-14**] 06:06 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-13**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-14**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-14**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 92 (69 - 101) bpm
   BP: 145/79(106) {108/61(79) - 146/82(107)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.7 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 10 (6 - 20)mmHg
   Total In:
                                                                  2,370 mL
                                                                  1,145 mL
   PO:
   TF:
                                                                     71 mL
                                                                     44 mL
   IVF:
                                                                  1,793 mL
                                                                  1,101 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,970 mL
                                                                    600 mL
   Urine:
                                                                  1,870 mL
                                                                    600 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                    545 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 611 (611 - 611) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/29/129/17/-6
   Ve: 12.7 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GENERAL: Intubated, sedated, not responsive, does not follow commands
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: crackles and coarse breath sounds bilaterally
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: Patient appears overall volume overloaded but with trace
   to minimal peripheral edema . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   247 K/uL
   9.5 g/dL
   105 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.0 mEq/L
   33 mg/dL
   111 mEq/L
   136 mEq/L
   28.3 %
   11.4 K/uL
        [image002.jpg]
                            [**2114-11-11**]  08:40 PM
                            [**2114-11-12**]  04:45 AM
                            [**2114-11-12**]  11:31 AM
                            [**2114-11-12**]  02:49 PM
                            [**2114-11-12**]  05:49 PM
                            [**2114-11-13**]  04:03 AM
                            [**2114-11-13**]  04:13 AM
                            [**2114-11-13**]  12:47 PM
                            [**2114-11-14**]  04:00 AM
                            [**2114-11-14**]  04:28 AM
   WBC
   9.5
   7.1
   11.4
   Hct
   22.5
   21.4
   20.5
   24.2
   28.3
   Plt
   181
   203
   247
   Cr
   1.3
   1.2
   1.2
   TCO2
   14
   14
   15
   16
   18
   Glucose
   121
   129
   105
   Other labs:
   Ca: 7.7,  Mg: 2.9,  Phos: 2.9
   LDH: 408, T-bili: 0.5
   PT/INR/PTT: 11.2/0.9/32.6
   Microbiology:
   Blood Cx ([**11-9**] and [**11-11**]): NGTD
   EBV: pending
   Galactomannan and Beta Glucan: pending
   Radiology:
   Chest X-Ray [**11-14**] (my read):
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure: Likely ARDS in setting of severe PNA. Initially
   with very large A-a gradient requiring 100% FiO2, oxygen requirement
   has been weaned and she is now on 50% FiO2, still unable to wean the
   PEEP as she will de-recruit and her oxygen saturation drops.
   - Pt. appears to tolerate PS some and does not tolerate AC with minimal
   sedation as she gets quite agitated and desaturates. Will do trial of
   PS, if she does not tolerate will change back to AC with higher
   sedation.
   - Consider changing fent/versed to propofol/fentanyl or Dexmedetomidine
   which may not lower BP as much
   - BAL negative for PCP but per ID, can have a false negative b/c
   patient on petamidine in outpatient: restarted bactrim and steroids;
   would need tissue Biopsy from VATS to look at the interstitial
   pneumocysts.
   - Will do bronchoscopy today for further evaluation of PCP; if 2
   negative BAL
s and negative B-glucan; likely does not have PCP
   [**Name Initial (PRE) **] Influenza swab negative for A&B and viral culture from [**11-9**] in
   outpatient finalized and negative. Unlikely to be flu/H1N1; continue to
   d/c tamiflu;
   - respiratory virus panel negative (adeno, influenza and
   parainfluenza), will f/u CMV
   - AFB smear on BAL was negative, urine legionella negative
   - Culture from BAL with less than 1,000 colonies, Gram stain negative
   for PMN
s or organisms
   - Changed antibiotic coverage for better strep pneumo coverage: added
   levofloxacin and discontinued azithromycin
will likely continue a 14+
   day course of antibiotics; Change aztreonam to Meropenem since give
   broader GN and anaerobic coverage.
   - Not likely to be cardiogenic in nature with BNP=424, and normal echo
   -  ? adding vigileo if she stops overbreathing the vent to determine
   variations in stroke volume to better assess volume status; appears to
   be improving some, so will hold off on this for now.
   - If BP can tolerate consider gentle diuresis tomorrow. Goal of
 500
   cc.
   .
   # Septic shock: Due to multifocal PNA, as seen on CT chest. Wide
   differential given immunosuppression.
   - Levophed and vasopressin off; monitor MAPs for goal of > 65
   - Keep CVP 10-12
   - Urine output goal of 20-25cc/hr at a minimum. Diuresed very well
   overnight. Will continue to monitor
   - Empiric broad antibacterial coverage with
   vanc/meropenum/levofloxacin/bactrim will continue for a likely 14 day
   course
   - d/c Empiric oseltamivir for flu coverage as not likely to be cause
   - F/U remainder of BAL studies
   - F/U CMV VL, b-glucan, galactomannin
   - Vanc trough 20.9 and given vanc last night. Will repeat vanc level
   this PM prior to giving scheduled dose.
   .
   # ARF: patient
s creatinine increased from baseline of 0.7 to peak of
   1.3, likely from ATN in the setting of hypotension causing
   hypoperfusion also with a likely component of prerenal  Improving to
   1.2 today, with likely the start of post-ATN diuresis.
   - renally dose all meds
   - continue to monitor UOP: goal=20-25cc/hr
   .
   # Non-Gap Acidosis: initially thought to be due to aggressive IVF
   resuscitation, patient still does not have an anion gap, now also
   confounded by her renal failure.  Stable.
   - IVF with D5 with bicarb is she needs further IVF
   .
   # Hyponatremia: sodium has decreased from 139 to 131 to 129 to 128 over
   the past 4 days.  Difficult to determine volume status on exam, she is
   total body volume overloaded, CVP has been in the 10-13 range overnight
   arguing against hypovolemic hyponatremia, however she continues with a
   pressor requirement which argues against hypervolemia.  Likely
   multifactorial related to antibiotics in D5 and the amount of
   vasopressin in her system, both exogenous and endogenous.  Vasopressin
   stopped;
   - Change all carrier meds to NS if possible;
   - serum osm=276, which is hypo-osmolar; Urine osms: 381
   - F/U urine lytes, urine Na 17
   .
   # ALL: On chronic immunosuppression s/p single cord blood
   transplantation. No neutropenia.
   - Cont acyclovir ppx
   - D/C tacrolimus per BMT, especially in the setting of worsening renal
   function
   - Stress dose steroids with hydrocort 100mg q8h while intubated since
   she is on daily prednisone
   - Appreciate BMT recs: will d/w them decreasing hydrocort to 50 mg q 8
   hours and re-starting tacrolimus.
   .
   # Hep B:
   - Cont lamivudine
   .
   # Normocytic Anemia: Pt. s/p 1unit PRBC
s Sunday, with initial
   appropriate bump in HCT. Decreased again to 22.5.  Received another
   unit this AM. Hemolysis labs negative to date. Etiology: likely
   decreased production with a culmination of CA and anemia of
   inflammation along with frequent blood draws. Increased destruction
   less likely at this point as no schistocytes and normal DIC labs
   haptoglobin.
   - Check post-transfusion Hct.
   - Active T/S
   - Transfuse for Hct < 21
   - Consider B12 and Folate labs
   # Platelet drop: nearly 100 point decrease in first 24 hours. Ddx:
   fluids, sepsis, DIC, vancomycin
platelets currently improved.
   - Continue to monitor
   #Constipation: No BM after administering aggressive bowel regimen
   - Soap suds enema now
   - if no bowel movement consider PO narcan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin, Pneumoboots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: patient
s husband, who is [**Name (NI) 1554**] speaking,
   son is [**Name (NI) 2681**] speaking
   Code status: Full code
   Disposition: ICU

2114-11-15 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - unable to start Dexmedetomidine bolus + drip due to cost
   - Stopped bactrim b/c beta glucan was negative ; peeled off
   levofloxacin as well
   - tried switching her to Pressure Support -->desated to 83% after a few
   hours, switched back to AC
   - started lasix gtt at 11pm b/c  -450 cc Net , but has but out lots of
   urine after lasix gtt this AM
   - had big bowel movement
   - overnight had mild desat episode b/c desynchronous on vent, FiO2
   increased to 60% and sedation increased mildly, and patient was coaxed
   to relax; FiO2 decreased back to 50%
   - has had some hypertension overnight w desynchronous events and
   apparent discomfort on vent
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2114-11-12**] 04:00 PM
   Levofloxacin - [**2114-11-13**] 02:37 PM
   Erythromycin - [**2114-11-14**] 05:59 AM
   Bactrim (SMX/TMP) - [**2114-11-14**] 06:06 AM
   Acyclovir - [**2114-11-14**] 07:25 PM
   Meropenem - [**2114-11-14**] 08:35 PM
   Vancomycin - [**2114-11-14**] 09:11 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 1 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-11-14**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-15**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 100 (75 - 132) bpm
   BP: 158/83(113) {109/56(74) - 174/96(126)} mmHg
   RR: 19 (9 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  2,412 mL
                                                                    288 mL
   PO:
   TF:
                                                                     44 mL
                                                                     64 mL
   IVF:
                                                                  2,188 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                  1,240 mL
   Urine:
                                                                  3,300 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -888 mL
                                                                   -951 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 525 (525 - 525) mL
   PS : 5 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   SpO2: 97%
   ABG: 7.38/32/127/17/-4
   Ve: 10.8 L/min
   PaO2 / FiO2: 254
   Physical Examination
   GENERAL: Intubated, agitated, overbreathing the vent
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: crackles and coarse breath sounds R; clear on left
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, less distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   256 K/uL
   9.6 g/dL
   122 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.6 mEq/L
   28 mg/dL
   117 mEq/L
   144 mEq/L
   27.6 %
   11.7 K/uL
        [image002.jpg]
                            [**2114-11-12**]  02:49 PM
                            [**2114-11-12**]  05:49 PM
                            [**2114-11-13**]  04:03 AM
                            [**2114-11-13**]  04:13 AM
                            [**2114-11-13**]  12:47 PM
                            [**2114-11-14**]  04:00 AM
                            [**2114-11-14**]  04:28 AM
                            [**2114-11-15**]  12:06 AM
                            [**2114-11-15**]  03:59 AM
                            [**2114-11-15**]  04:31 AM
   WBC
   7.1
   11.4
   11.7
   Hct
   21.4
   20.5
   24.2
   28.3
   27.6
   Plt
   [**Telephone/Fax (3) 10913**]
   Cr
   1.2
   1.2
   1.0
   TCO2
   15
   16
   18
   17
   20
   Glucose
   129
   105
   122
   Other labs: PT / PTT / INR:11.2/32.6/0.9, ALT / AST:118/121, Alk Phos /
   T Bili:262/0.4, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:570 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:589 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure: Likely ARDS in setting of severe PNA. Initially
   with very large A-a gradient requiring 100% FiO2, oxygen requirement
   has been weaned and she is now on 50% FiO2, still unable to wean the
   PEEP as she will de-recruit and her oxygen saturation drops. Volume
   overload appears to be playing a large role in her current respiratory
   status, the low BNP points to a non-cardiogenic cause of pulmonary
   edema but she will benefit from diuresis now that she is off pressors,
   - lasix gtt started overnight ; continues
   - Possible follow up non-contrast chest CT post diuresis to evaluate
   how much the x-ray findings on CXR are parenchymal.  Will also
   ultrasound to evaluate pleural effusions to see if she needs to be
   tapped
   - Will do trial of PS, if she does not tolerate will change back to AC
   with higher sedation.
   - Trying to balance sedation with ability to ventilate, as patient has
   required large amounts of sedation but when kept lighter is fighting
   the ETT and desaturates,  ? starting presadex
   - Influenza swab negative for A&B and viral culture from [**11-9**] in
   outpatient finalized and negative
   - respiratory virus panel negative (adeno, influenza and
   parainfluenza),
   - BAL: prelim negative for CMV
   - AFB smear on BAL was negative, urine legionella negative
   - Culture from BAL with less than 1,000 colonies, Gram stain negative
   for PMN
s or organisms
   .
   # Septic shock: Due to multifocal PNA, as seen on CT chest. Wide
   differential given immunosuppression.
   - Levophed and vasopressin off; BP
s have been stable
   - Urine output goal of 20-25cc/hr at a minimum. Diuresed very well
   overnight, if UOP drops below 100cc/hr will start a lasix gtt to keep
   UOP close to 200cc/hr
   - Empiric broad antibacterial coverage with vanc/meropenum/bactrim will
   continue for a likely 14 day course, will d/c levo b/c it is likely not
   adding much to the broad spectrum coverage
   - F/U remainder of BAL studies
   - F/U CMV VL, b-glucan, galactomannin, will b/c bactrim if b-glucan is
   negative
   .
   # ARF: patient
s creatinine increased from baseline of 0.7 to peak of
   1.3, likely from ATN in the setting of hypotension causing
   hypoperfusion also with a likely component of pre-renal on admission.
   Currently stable Cr of 1.2
   - will continue to adjust medication dosages based on improving CrCl
   .
   # Non-Gap Acidosis: due to aggressive IVF resuscitation, patient still
   does not have an anion gap, now also confounded by her renal failure.
   Bicarb is increasing as kidney function improves.
   - IVF with LR or bicarb
   .
   # Hyponatremia: sodium has increased with transitioning her carriers to
   normal saline, will continue to monitor and advance tube feeds as her
   gut motility allows
   .
   # ALL: On chronic immunosuppression s/p single cord blood
   transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Stress dose steroids with hydrocort 50mg q8h while intubated since
   she is on daily prednisone, will convert to prednisone when her
   intestinal motility improves
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   # Normocytic Anemia: Pt. s/p 2 units PRBC
s during her ICU stay, with
   an increase in her HCT without transfusion, likely related to patient
   increased autodiuresis
   - Active T/S
   - Transfuse for Hct < 21
   # Platelet drop: nearly 100 point decrease in first 24 hours. Ddx:
   fluids, sepsis, DIC, vancomycin
platelets currently improved.
   - Continue to monitor
   #Constipation: No BM after administering aggressive bowel regimen, po
   narcan added yesterday
   - added standing lactulose
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-15**] 12:53 AM 10 mL/hour
   Glycemic Control:
   Lines:  R radial art line (placed early AM [**11-10**]) ; R IJ central
   multi-lumen (placed late night [**11-9**]) ; peripheral 20guage L wrist
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: patient
s husband, who is [**Name (NI) 1554**] speaking,
   son is [**Name (NI) 2681**] speaking
   Code status: Full code
   Disposition: ICU
   Disposition:

2114-11-16 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BMT: changed hydrocort dose to 12.5mg TID
   - started Bactrim Single Strength for PPX (gave one dose), per ID recs,
   but D/Ced it b/c BMT worried about LFTs
   At 2130hrs ,  during repositioning , pt dropped her sats to low 70
   Put on 100% , gave a bolus of fentanyl 25mg and versed 2mg. BP up to
   230 systolic, HR in mid 130.  Fentanyl gtt  titrated up to a `max dose
   of 300mcg/hr. Versed stepped up to 15mg/hr. FiO2: decreased soon to 60%
   and tolerated this for remainder of night
   - written for 2.5mg IV haldol ("may repeat once") but didnt need-- may
   try it before she is moved around next time
   Lasix gtt continued overnight with good UOP (150-200 cc/hr) that
   exceeded goal of [**1-25**].5 liters negative
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-11-13**] 02:37 PM
   Erythromycin - [**2114-11-14**] 05:59 AM
   Bactrim (SMX/TMP) - [**2114-11-15**] 03:38 PM
   Vancomycin - [**2114-11-15**] 08:00 PM
   Acyclovir - [**2114-11-15**] 08:00 PM
   Meropenem - [**2114-11-15**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-15**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-16**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 97 (83 - 126) bpm
   BP: 139/75(98) {106/57(75) - 176/91(122)} mmHg
   RR: 32 (0 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.1 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  2,247 mL
                                                                    653 mL
   PO:
             TF:
                                                                    687 mL
                                                                    310 mL
   IVF:
                                                                  1,440 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  4,760 mL
                                                                  1,415 mL
   Urine:
                                                                  4,060 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,513 mL
                                                                   -762 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 451 (451 - 451) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   SpO2: 92%
   ABG: 7.42/34/68/22/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 113
   Physical Examination
   GENERAL: Intubated, agitated, overbreathing the vent
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: crackles and coarse breath sounds R; clear on left
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, less distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   241 K/uL
   8.5 g/dL
   136 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.4 mEq/L
   27 mg/dL
   119 mEq/L
   146 mEq/L
   24.6 %
   9.9 K/uL
        [image002.jpg]
   Na: 148, Cl: 118 HCO3: 20
                            [**2114-11-14**]  04:28 AM
                            [**2114-11-15**]  12:06 AM
                            [**2114-11-15**]  03:59 AM
                            [**2114-11-15**]  04:31 AM
                            [**2114-11-15**]  08:15 AM
                            [**2114-11-15**]  11:07 AM
                            [**2114-11-15**]  03:18 PM
                            [**2114-11-15**]  11:03 PM
                            [**2114-11-15**]  11:17 PM
                            [**2114-11-16**]  04:09 AM
   WBC
   11.7
   9.9
   Hct
   27.6
   24.6
   Plt
   256
   241
   Cr
   1.0
   1.0
   0.9
   0.9
   TCO2
   18
   17
   20
   18
   20
   23
   Glucose
   122
   148
   127
   136
   Other labs: PT / PTT / INR:11.2/32.6/0.9, ALT / AST:118/121, Alk Phos /
   T Bili:262/0.4, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:570 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:589 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Micro: Hep B viral load pending
   Blood culture: [**11-11**]: NGTD
   EBV: IgG positive [**2114-2-23**] IgM: test canceled due to past infection
   B-glucan: Negative
   CMV Viral load: negative
   EBV PCR: pending
   Radiology: CXR:
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure:
   P:F 113; ARDS, in setting of severe PNA.
    - lasix gtt continued which helped w urine output ; continue lasix
   drip and watch electrolytes
   - follow AM chest Xrays w diuresis to watch for improvement
   - Will continue trial of PS w current fentanyl and midazolam, weaning
   as much as tolerated
   - consider starting methadone to help w sedation ; may try haldol today
   for agitation on vent
   - keep in mind that w diuresis, her bicarb will start to increase
   which might eventually decrease her respiratory drive and make it
   harder for her to wean; may need to use acetazolamide later
   .
   # Septic shock:
   Due to multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but Influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Levophed and vasopressin off; BP
s have been stable. Culture from BAL
   with less than 1,000 colonies, Gram stain negative for PMN
s or
   organisms. BAL: prelim negative for CMV
   - Urine output has been 100-200cc/hr ; continues w lasix gtt
 goal
   -1-1.5L net
   - Empiric broad antibacterial coverage with vanc/meropenum, day 7 of 14
   ; levoflox was DCed Wednesday
   - F/U remainder of BAL studies
   - F/U CMV VL, galactomannin
   .
   # ARF: patient
s creatinine increased from baseline of 0.7 to peak of
   1.3 but now trending down, at 0.9 this AM.  Likely secondary to ATN in
   the setting of hypotension causing hypoperfusion also with a likely
   component of pre-renal on admission.
   - will continue to adjust medication dosages based on improving CrCl,
   particularly the vanc and meropenem
   - continue lasix drip to decrease LOS fluid balance
   .
   # Elevated LFTs: Appears to be a hemolyzed specimen for the past two
   draws.
   - Repeat LFTs as this may just be lab error and re-address from there
   - Hold bactrim for now as concern for LFTs per BMT
   - F/U Hep B viral load
   .
   # Non-Gap Acidosis:
   patient still has non-gap, secondary to normal saline administration on
   presentation and renal failure.   Bicarb is increasing as kidney
   function improves.  Be cautious of a metabolic contraction alkalosis
   with lasix gtt and increasing diuresis
   - will improve w improving kidney function
   - Consider Acetazolamide if patient becomes too alkalotic with diuresis
   as this may hinder her weaning from vent
   .
   # ALL: On chronic immunosuppression s/p single cord blood
   transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Stress dose steroids with hydrocortisone IV, Continue at 12.5 mg q 8
   hours per BMT
   - will convert to prednisone when her intestinal motility improves
   (home dose is 5 mg daily)
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   # Normocytic Anemia:
   Pt. s/p 2 units PRBC
s during her ICU stay; Hct stable
   - Active T/S
   - Transfuse for Hct < 21
   #Constipation: Resolved.  Has had large BMs over past 24 hours and now
   has flexiseal.
   - continue po narcan and docusate b/c still on fentanyl
   - will make lactulose, bisacodyl, senna, erythromycin PRN only
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-15**] 12:53 AM 10 mL/hour
   Glycemic Control:
   Lines: Will evaluate and place PICC today. Once in, will pull IJ as
   this is low in atrium anyway.
   20 Gauge - [**2114-11-9**] 07:00 PM
   Multi Lumen Right IJ - [**2114-11-9**] 11:00 PM
   Right Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: patient
s husband, who is [**Name (NI) 1554**] speaking,
   son is [**Name (NI) 2681**] speaking
   Code status: Full code
   Disposition: ICU

2114-11-17 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2114-11-17**] 04:00 AM
   - Sedation decreasing down to 100 and 2 patient became quite
   hypertensive. increased midaz to 4 and bp decreased to 120s/60s.
   Patient did not appear agitated. concern that midaz dropped too quickly
   from 10 to 2 in 12 hours.
   - diuresing well lasix gtt decreased from 4 to 2.
   - gas was alkalotic so added acetazolamide...even though HCO3 is
   22...b/c on lasix
   - PICC held b/c patient spiked a temp. still has IJ that is in Right
   atrium with no ectopy.
   - trending LFTS (last 2 hemolyzed)
   - third set with increasing enzymes as well...still hemolyzed will see
   AM labs.
   - ID recs: if LFTs continue to rise or clinically getting worse
   consider micafungin 100 mg IV daily
   - only at -900 cc at midnight. increased lasix gtt to 3.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2114-11-15**] 03:38 PM
   Acyclovir - [**2114-11-16**] 09:15 AM
   Meropenem - [**2114-11-16**] 08:00 PM
   Vancomycin - [**2114-11-16**] 08:30 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-11-16**] 01:10 PM
   Fentanyl - [**2114-11-16**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2114-11-16**] 06:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-17**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 108 (95 - 119) bpm
   BP: 110/58(77) {110/58(77) - 193/103(134)} mmHg
   RR: 20 (11 - 31) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  3,309 mL
                                                                    547 mL
   PO:
             TF:
                                                                  1,155 mL
                                                                    341 mL
   IVF:
                                                                  1,734 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  4,165 mL
                                                                    740 mL
   Urine:
                                                                  3,865 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -856 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 425 (354 - 450) mL
   PS : 15 cmH2O
   RR (Set): 32
   RR (Spontaneous): 30
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 89%
   ABG: 7.39/41/67/28/0
   Ve: 16.3 L/min
   PaO2 / FiO2: 112
   Physical Examination
   GENERAL: Intubated, agitated, overbreathing the vent
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: crackles and coarse breath sounds R; clear on left
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, less distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   243 K/uL
   9.4 g/dL
   121 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   26 mg/dL
   113 mEq/L
   148 mEq/L
   27.0 %
   12.0 K/uL
        [image002.jpg]
                            [**2114-11-15**]  11:07 AM
                            [**2114-11-15**]  03:18 PM
                            [**2114-11-15**]  11:03 PM
                            [**2114-11-15**]  11:17 PM
                            [**2114-11-16**]  04:09 AM
                            [**2114-11-16**]  11:57 AM
                            [**2114-11-16**]  03:05 PM
                            [**2114-11-16**]  03:23 PM
                            [**2114-11-17**]  03:50 AM
                            [**2114-11-17**]  05:41 AM
   WBC
   9.9
   12.0
   Hct
   24.6
   27.0
   Plt
   241
   243
   Cr
   1.0
   0.9
   0.9
   0.7
   0.6
   TCO2
   20
   23
   24
   27
   26
   Glucose
   148
   127
   136
   153
   121
   Other labs: PT / PTT / INR:11.2/32.6/0.9, ALT / AST:180/129, Alk Phos /
   T Bili:382/0.4, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:570 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.6 g/dL, LDH:660 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.3
   mg/dL
   Micro: Hep B viral load pending
   Blood culture: [**11-11**]: NGTD
   EBV: IgG positive [**2114-2-23**] IgM: test canceled due to past infection
   B-glucan: Negative
   CMV Viral load: negative
   EBV PCR: pending
   Radiology:
   Chest X-Ray [**11-17**] (my read): stable to worsening b/l effusions
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure: Patient had been improving and was on PSV 15/15
   in the last 24 hours, however patient with desaturation this morning
   and now with increased oxygen requirement, now on AC, but if patient
   remains difficult to oxygenate then will trial pressure control
   ventilation
   - will try to increase sedation to see if that helps with her
   oxygenation, then will give albumin and turn down lasix gtt to help
   with urine output, she may also need increased time to mobilize more
   fluid to help with decreasing her pulmonary edema
   - will decrease lasix gtt with concurrent albumin administration
   - follow up repeat chest x-ray
   - Will repeat trial of PS w current fentanyl and midazolam if
   tolerated, may benefit from valium and methadone to help decrease her
   overall levels of sedation
   - continue lasix with acetazolamide
   .
   # Septic shock: resolving, patient has been off pressors for an
   extended period of time, currently trending toward hypertension when
   sedation is weaned.  Initially due to multifocal PNA, as seen on CT
   chest. Wide differential given immunosuppression but Influenza and
   other respiratory virus panel negative; AFB smear on BAL was negative,
   urine legionella negative. Levophed and vasopressin off; BP
s have been
   stable. Culture from BAL with less than 1,000 colonies, Gram stain
   negative for PMN
s or organisms. BAL: prelim negative for CMV.  Patient
   with new fever overnight, concern for either a worsening pulmonary
   process or a new source of infection.
   - Will check a C.diff
   - Concern for possible fungal infection since she has been on broad
   spectrum antibiotics for such a long period of time, however initial
   BAL negative for fungus and patient has been improving with antibiotic
   therapy, if she continues to worsens will add anidulafungin for empiric
   fungal coverage
   - Empiric broad antibacterial coverage with vanc/meropenum, day 8 of 14
   - F/U CMV VL, galactomannin
   .
   # ARF: patient
s creatinine increased from baseline of 0.7 to peak of
   1.3 but now trending down, at 0.6 this AM.  Initial hit secondary to
   ATN, but creatinine back to baseline.
   - will continue to adjust medication dosages based on improving CrCl,
   particularly the vanc and meropenem
   - continue lasix drip to decrease LOS fluid balance, goal of UOP
   greater than 100cc per hour
   .
   # Elevated LFTs: Currently stable
   - If they continue to rise will get a RUQ ultrasound
   - Hold bactrim for now as concern for LFTs per BMT
   .
   # Non-Gap Acidosis: resolved, bicarb climbing with diuresis,
   acetazolamide started yesterday to help keep bicarb from rising and
   blunting respiratory drive
   .
   # ALL: On chronic immunosuppression s/p single cord blood
   transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Stress dose steroids with hydrocortisone IV, Continue at 12.5 mg q 8
   hours per BMT
   - will convert to prednisone when her intestinal motility improves
   (home dose is 5 mg daily)
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   # Normocytic Anemia:
   Pt. s/p 2 units PRBC
s during her ICU stay; Hct stable
   - Active T/S
   - Transfuse for Hct < 21
   #Constipation: Resolved.  Has had large BMs over past 24 hours and now
   has flexiseal.
   - continue po narcan and docusate b/c still on fentanyl
   - will make lactulose, bisacodyl, senna, erythromycin PRN only
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-17**] 03:00 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Husband (cantonese speaking) and son (speaks
   english)
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   52yo F with PMH ALL s/p cord blood transplant (>200 days ago) on
   chronic immunosupression with tacrolimus and low dose prednisone on
   intermittent pentamidine PCP prophylaxis now with hypoxemic respiratory
   failure and ARDS, intubated and hypotensive. LOS positive approx + 12
   L.
   Overnight - Tm 101.5, PS trial this morning c/b desaturation, back on
   A/C. Yesterday started on acetazolamide. On lasix drip, currently 4
   mg/hr
   Exam - T 98.9, Tm 101.5, BP 145/76, HR 95-119, off pressors. Intubated,
   sedated, occasionally opens eyes, A/C 320 x 32, FiO2 80%. Scleral
   edema, pupils small/equal, coarse breath sounds bilat, abd mildly
   disteded, LE edema [**1-26**]+
   Meds reviewed - versed 4, fent 150/hr, acyclovir, lamivudine, SCH, ISS,
   vanco, PPI, meropenem 500 q12, erythro q6h po and narcan q6h for
   bowels, lasix 4 mg, acetazolamide 2nd/4 doses.
   Labs notable for wbc 12 (9.9), Hct 27, HCO3 28 (22), creat 0.6 (0.7).
   LFTs reviewed, ALT slightly improved. No new culture data. ABG
   7.45/39/60 on PS 15/15, 60% FiO2. CXR checked - essentially unchanged,
   ETT/OG in place. Overall effusions are improved. I/o neg 850 ml/24 hrs.
   Impression/plan - c/w broad spectrum abx with vanc/meropenem. Not
   tolerating PSV and still requiring high PEEP and FiO2. Agree that most
   of her improvement has resulted from aggressive fluid removal now that
   her ARF and shock have resolved but likely mobilizing the 3rd spaced
   fluid to her lungs though CXR stable. Another possibility is that the
   lowering of sedation has caused her to bite on the ETT intermittently
   (witnessed earlier). Will try to increase sedation +/- increase PEEP
   today. Will also try to diurese with albumin, which apparently was
   successful several days ago. Hypernatremia likely due to diuresis -
   lower lasix drip for now. Abnormal LFTs are likely GVHD, BMT following
   closely, weaning steroids. Keep diuresing slow improvement in her CXR
   and vent.
   Patient is critically ill. Time spent 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2114-11-17**] 15:39 ------

2114-11-18 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2114-11-17**] 08:40 AM
   - patient desatted yesterday morning on PSV 15/15, increased sedation
   which initially helped, desatted later in the day tried on APRV with
   PO2's in the 50's, put back on AC initially improved sats then remained
   desychronous with the vent and would desat to the 80's on 100% FiO2.
   Increased sedation, added propofol-> made patient synchronous with vent
   but very hypotensive to 70's/30's, stopped propofol.  Was given
   albumin, on AC at FiO2 100%, O2sat stayed at 89-91%
   - patient febrile yesterday and today with increased vent requirements,
   unclear cause checking C.diff, added fungal coverage w micafungin, RUQ
   ultrasound ordered, increased stress dose steroids to 25mg Q8h
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2114-11-15**] 03:38 PM
   Meropenem - [**2114-11-17**] 08:31 PM
   Vancomycin - [**2114-11-17**] 08:32 PM
   Acyclovir - [**2114-11-17**] 10:52 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-18**] 12:14 AM
   Midazolam (Versed) - [**2114-11-18**] 01:00 AM
   Fentanyl - [**2114-11-18**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-18**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.4
C (97.6
   HR: 95 (92 - 110) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 32 (15 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 47 kg
   Height: 60 Inch
           Total In:
                                                                  3,213 mL
                                                                    847 mL
   PO:
           TF:
                                                                  1,166 mL
                                                                    324 mL
   IVF:
                                                                  1,658 mL
                                                                    373 mL
   Blood products:
                                                                     50 mL
                                                                     50 mL
   Total out:
                                                                  2,130 mL
                                                                    685 mL
   Urine:
                                                                  2,130 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,083 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (270 - 320) mL
   Vt (Spontaneous): 480 (480 - 480) mL
   PS : 15 cmH2O
   RR (Set): 32
   RR (Spontaneous): 15
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   SpO2: 92%
   ABG: 7.35/52/69/32/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 69
   Physical Examination
   GENERAL: Intubated, agitated, overbreathing the vent
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: R basilar and mid lung crackles; clear on left
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   212 K/uL
   7.3 g/dL
   120 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.6 mEq/L
   30 mg/dL
   117 mEq/L
   150 mEq/L
   21.5 %
   10.4 K/uL
        [image002.jpg]
                            [**2114-11-17**]  03:50 AM
                            [**2114-11-17**]  05:41 AM
                            [**2114-11-17**]  07:52 AM
                            [**2114-11-17**]  04:03 PM
                            [**2114-11-17**]  07:12 PM
                            [**2114-11-17**]  09:44 PM
                            [**2114-11-18**]  12:05 AM
                            [**2114-11-18**]  01:18 AM
                            [**2114-11-18**]  04:17 AM
                            [**2114-11-18**]  05:07 AM
   WBC
   12.0
   10.4
   Hct
   27.0
   21.5
   Plt
   243
   212
   Cr
   0.6
   0.7
   0.9
   TCO2
   26
   28
   29
   28
   30
   31
   30
   Glucose
   121
   130
   120
   Other labs: PT / PTT / INR:13.3/122.0/1.1, ALT / AST:127/56, Alk Phos /
   T Bili:285/0.5, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:570 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.6 g/dL, LDH:440 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure:
   Respiratory status tenous overnight, on 100% FiO2 with sedation very
   high on fentanyl and midazolam; nursing able to cut both in half later
   in morning.  Pt seems to be saturating better on slightly increased
   tidal volumes.  Seemed to do worse overnight with PEEP increased.  On
   volume control w PEEP 15 currently w Vt 320cc.  Still mildly
   descynchronous w vent.  Has had a couple of trials of pressure control
   in past few days which she did not tolerate.  Was placed briefly on
   APRV last night as well, during which time she desatted.  BP did not
   tolerate propofol.
   - continue lasix gtt to get more fluid off w acetazolamide
   - follow up repeat chest x-ray from this AM
   - continue on Volume Control ventilation w current fentanyl and
   midazolam if tolerated, may benefit from valium and methadone to help
   decrease her overall levels of sedation
   - consider tapping pleural effusions though would be high risk
   procedure, not indicated at this time
   - consider getting fluid off faster with HD, though she is not in renal
   failure and has no other indication for HD
   - will tolerate paO2s in low 60s to be able to titrate down FiO2
   further
   .
   # Sepsis / Fever:
   Pt has had new fevers in last 36 hours.  Has been off pressors for an
   extended period of time, currently trending toward hypertension when
   sedation is weaned.  Sepsis initially due to multifocal PNA, as seen on
   CT chest. Wide differential given immunosuppression but Influenza and
   other respiratory virus panel negative; AFB smear on BAL was negative,
   urine legionella negative.  Culture from BAL with less than 1,000
   colonies, Gram stain negative for PMN
s or organisms. BAL: prelim
   negative for CMV.  New fever concerning for either a worsening
   pulmonary process or a new source of infection.   C diff [**11-17**]
   negative.  First glucan and galactomannan negative.
   - Micafungin added [**11-17**]
   - Empiric broad antibacterial coverage with vanc/meropenum, day 9 of 14
   (day 1 = [**11-10**])
   - F/U CMV VL, EBV PCR, repeat glucan, repeat galactomannan
   .
   # Anemia:
   Large Hct drop, didn
t get any fluids.  Did have elevated PTT 122 this
   AM, possibly from subq heparin; may have been bleeding somewhere
   lungs vs abdomen/GI. BUN not significantly elevated from yesterday.
   Subq heparin held for now
   - consider restarting subq heparin as [**Hospital1 7**] or half dose (2500 units)
   - repeat Hct
   - guaiac stools
   - Active T/S
   - Transfuse for Hct < 21
   .
   # Hypernatremia:
   Called pharmacy to switch antibiotics back to D5 fluid rather than NS.
   - Give free water flushes w tube feeds.
   - cont to monitor
   .
   # ARF: patient
s Cr stable at 0.9.  Initial hit secondary to ATN, but
   creatinine back to baseline.
   - will continue to adjust medication dosages based on improving CrCl,
   particularly the vanc and meropenem
   - continue lasix drip to decrease LOS fluid balance, goal of UOP
   greater than 150cc per hour (b/c getting at least 100cc/hr IN)
   .
   # Elevated LFTs: Currently stable
   - If they continue to rise will get a RUQ ultrasound Monday
   - Hold bactrim for now as concern for LFTs per BMT
   .
   # Non-Gap Acidosis:
   Acidosis Resolved.
   Bicarb climbing with diuresis, acetazolamide started yesterday to help
   keep bicarb from rising and blunting respiratory drive
   .
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - [**Month (only) 51**] need to increase Stress dose steroids, per BMT
 will increase
   back up to 100mg hydrocort IV or switch to solumedrol
   - will convert to prednisone when her intestinal motility improves and
   her acute process resolves (home dose is 5 mg daily)
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl w
   sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-18**] 05:47 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
 will hold, then cut down dose due to elevated PTT
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Husband (cantonese speaking) and son (speaks
   english)
   Code status: Full code
   Disposition: ICU

2114-11-19 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hct drop to 21.5 --> recheck is 22 --> will recheck at 6pm and
   transfuse if Hct <21
   - Nursing noted upon turning pt that she had BRBPR (leaking, soaking
   the bed padding around the flexiseal) in early afternoon with a few
   clots
   - RUQ U/S
   - changed from PO ppx bactrim dose to treatment dose
   - switched from hydrocort to IV solumedrol for stress dose steroids
   (effective dose increased... but also taking away mineralocorticoid
   properties from hydrocortisone) (increased stress dose steroids, per
   BMT recs)
   - Repeat glucan and galactomannan drawn, per ID recs
   - restarting erythromycin for motility (w the incr fentanyl and higher
   residuals, etc...)
   - has had to be on increased sedation back up to 400 fentanyl and 8 of
   midaz --> concern of increasing fentanyl effect on motility... next
   time she gets agitated, we might try haldol 5mg to sedate without
   increasing fentanyl (last EKG QTc was not prolonged)
   - hypernatremia improving - decreased water flushes w tube feeds to
   Q6hrs (from Q4hrs) to decrease overall input
   - tried ventilating w larger tidal volumes briefly but plateau
   pressures were very high >40, so returned to previous settings
   - still difficulty oxygenating pt overnight
   - ABG at 1:20am 7.36/55/54 -->  tried haldol to improve sedation which
   seemed to help
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2114-11-18**] 08:18 PM
   Meropenem - [**2114-11-18**] 08:19 PM
   Acyclovir - [**2114-11-18**] 10:07 PM
   Erythromycin - [**2114-11-19**] 01:30 AM
   Bactrim (SMX/TMP) - [**2114-11-19**] 01:30 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-18**] 08:38 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-18**] 12:04 PM
   Furosemide (Lasix) - [**2114-11-18**] 11:22 PM
   Haloperidol (Haldol) - [**2114-11-19**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-19**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 88 (80 - 96) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 32 (29 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 23 (23 - 23)mmHg
   Total In:
                                                                  3,641 mL
                                                                    734 mL
   PO:
   TF:
                                                                  1,160 mL
                                                                    298 mL
   IVF:
                                                                  1,921 mL
                                                                    335 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,755 mL
                                                                  1,160 mL
   Urine:
                                                                  2,355 mL
                                                                  1,160 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    886 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   SpO2: 92%
   ABG: 7.37/52/66/28/2
   Ve: 11 L/min
   PaO2 / FiO2: 73
   Physical Examination
   GENERAL: Intubated, agitated, overbreathing the vent
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: R basilar and mid lung crackles; clear on left
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   Labs / Radiology
   206 K/uL
   8.0 g/dL
   143 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.4 mEq/L
   34 mg/dL
   110 mEq/L
   146 mEq/L
   24.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2114-11-18**]  12:05 AM
                            [**2114-11-18**]  01:18 AM
                            [**2114-11-18**]  04:17 AM
                            [**2114-11-18**]  05:07 AM
                            [**2114-11-18**]  10:20 AM
                            [**2114-11-18**]  06:20 PM
                            [**2114-11-18**]  07:44 PM
                            [**2114-11-19**]  01:14 AM
                            [**2114-11-19**]  04:19 AM
                            [**2114-11-19**]  05:39 AM
   WBC
   10.4
   10.4
   12.6
   14.4
   Hct
   21.5
   22.1
   23.2
   24.2
   Plt
   [**Telephone/Fax (3) 11012**]06
   Cr
   0.9
   0.9
   TCO2
   30
   31
   30
   31
   32
   31
   Glucose
   120
   143
   Other labs: PT / PTT / INR:12.7/50.6/1.1, ALT / AST:127/56, Alk Phos /
   T Bili:285/0.5, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.6 g/dL, LDH:440 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Respiratory failure:
   Respiratory status tenous overnight, on 100% FiO2 with sedation very
   high on fentanyl and midazolam; nursing able to cut both in half later
   in morning.  Pt seems to be saturating better on slightly increased
   tidal volumes.  Seemed to do worse overnight with PEEP increased.  On
   volume control w PEEP 15 currently w Vt 320cc.  Still mildly
   descynchronous w vent.  Has had a couple of trials of pressure control
   in past few days which she did not tolerate.  Was placed briefly on
   APRV last night as well, during which time she desatted.  BP did not
   tolerate propofol.
   - continue lasix gtt to get more fluid off w acetazolamide
   - follow up repeat chest x-ray from this AM
   - continue on Volume Control ventilation w current fentanyl and
   midazolam if tolerated, may benefit from valium and methadone to help
   decrease her overall levels of sedation
   - consider tapping pleural effusions though would be high risk
   procedure, not indicated at this time
   - consider getting fluid off faster with HD, though she is not in renal
   failure and has no other indication for HD
   - will tolerate paO2s in low 60s to be able to titrate down FiO2
   further
   .
   # Sepsis / Fever:
   Pt has had new fevers in last 36 hours.  Has been off pressors for an
   extended period of time, currently trending toward hypertension when
   sedation is weaned.  Sepsis initially due to multifocal PNA, as seen on
   CT chest. Wide differential given immunosuppression but Influenza and
   other respiratory virus panel negative; AFB smear on BAL was negative,
   urine legionella negative.  Culture from BAL with less than 1,000
   colonies, Gram stain negative for PMN
s or organisms. BAL: prelim
   negative for CMV.  New fever concerning for either a worsening
   pulmonary process or a new source of infection.   C diff [**11-17**]
   negative.  First glucan and galactomannan negative.
   - Micafungin added [**11-17**]
   - Empiric broad antibacterial coverage with vanc/meropenum, day 9 of 14
   (day 1 = [**11-10**])
   - F/U CMV VL, EBV PCR, repeat glucan, repeat galactomannan
   .
   # Anemia:
   Large Hct drop, didn
t get any fluids.  Did have elevated PTT 122 this
   AM, possibly from subq heparin; may have been bleeding somewhere
   lungs vs abdomen/GI. BUN not significantly elevated from yesterday.
   Subq heparin held for now
   - consider restarting subq heparin as [**Hospital1 7**] or half dose (2500 units)
   - repeat Hct
   - guaiac stools
   - Active T/S
   - Transfuse for Hct < 21
   .
   # Hypernatremia:
   Called pharmacy to switch antibiotics back to D5 fluid rather than NS.
   - Give free water flushes w tube feeds.
   - cont to monitor
   .
   # ARF: patient
s Cr stable at 0.9.  Initial hit secondary to ATN, but
   creatinine back to baseline.
   - will continue to adjust medication dosages based on improving CrCl,
   particularly the vanc and meropenem
   - continue lasix drip to decrease LOS fluid balance, goal of UOP
   greater than 150cc per hour (b/c getting at least 100cc/hr IN)
   .
   # Elevated LFTs: Currently stable
   - If they continue to rise will get a RUQ ultrasound Monday
   - Hold bactrim for now as concern for LFTs per BMT
   .
   # Non-Gap Acidosis:
   Acidosis Resolved.
   Bicarb climbing with diuresis, acetazolamide started yesterday to help
   keep bicarb from rising and blunting respiratory drive
   .
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - [**Month (only) 51**] need to increase Stress dose steroids, per BMT
 will increase
   back up to 100mg hydrocort IV or switch to solumedrol
   - will convert to prednisone when her intestinal motility improves and
   her acute process resolves (home dose is 5 mg daily)
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl w
   sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-18**] 05:47 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
 will hold, then cut down dose due to elevated PTT
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Husband (cantonese speaking) and son (speaks
   english)
   Code status: Full code
   Disposition: ICU

2114-11-19 10:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  FiO2 requirment
   increasing.
   Intermittent aggitation, although overall sedated (Fentanyl, versed)
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-18**] 10:07 PM
   Bactrim (SMX/TMP) - [**2114-11-19**] 01:30 AM
   Erythromycin - [**2114-11-19**] 06:22 AM
   Meropenem - [**2114-11-19**] 07:51 AM
   Vancomycin - [**2114-11-19**] 08:51 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-18**] 12:04 PM
   Furosemide (Lasix) - [**2114-11-18**] 11:22 PM
   Haloperidol (Haldol) - [**2114-11-19**] 01:35 AM
   Pantoprazole (Protonix) - [**2114-11-19**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-19**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 91 (80 - 94) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 32 (29 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 11 (11 - 23)mmHg
   Total In:
                                                                  3,641 mL
                                                                  1,353 mL
   PO:
   TF:
                                                                  1,160 mL
                                                                    408 mL
   IVF:
                                                                  1,921 mL
                                                                    845 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,755 mL
                                                                  1,610 mL
   Urine:
                                                                  2,355 mL
                                                                  1,610 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    886 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.37/52/66/30/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   206 K/uL
   159 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.5 mEq/L
   34 mg/dL
   106 mEq/L
   143 mEq/L
   24.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2114-11-18**]  12:05 AM
                            [**2114-11-18**]  01:18 AM
                            [**2114-11-18**]  04:17 AM
                            [**2114-11-18**]  05:07 AM
                            [**2114-11-18**]  10:20 AM
                            [**2114-11-18**]  06:20 PM
                            [**2114-11-18**]  07:44 PM
                            [**2114-11-19**]  01:14 AM
                            [**2114-11-19**]  04:19 AM
                            [**2114-11-19**]  05:39 AM
   WBC
   10.4
   10.4
   12.6
   14.4
   Hct
   21.5
   22.1
   23.2
   24.2
   Plt
   [**Telephone/Fax (3) 11012**]06
   Cr
   0.9
   0.9
   0.8
   TCO2
   30
   31
   30
   31
   32
   31
   Glucose
   120
   143
   159
   Other labs: PT / PTT / INR:11.4/34.0/0.9, ALT / AST:106/71, Alk Phos /
   T Bili:312/0.4, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.6 g/dL, LDH:555 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Net detreioration.  Attributed to infection and
   possible cardiogenic pulmonary edema, but may be evolving ARDS.
   Continue with broad spectrum antibiotics
   (vanc/meropenem/mycafungin/Bactrim).  Adjust ETT.  Continue mechanical
   ventilation, hope to decrease FiO2 to <60% if possible, and increase
   PEEP as tolerated to improve oxygenation.  [**Month (only) 51**] benefit from esophogeal
   balloon placement to monitor Monitor CXR.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   infection, but may in part related to net positive fluid balance.
   Continue antibiotics, continue net diuresis.  Consider diagnostic
   bronchoscopy.
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolving.  Continue monitor
   BUN, creatinine,
   ELEVATED LFTs -- Currently stable.  Monitor LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21
   NUTRITIONAL SUPPORT --
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-20 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2114-11-19**] 11:01 AM
   -ABG at 7.39/54/99, FIO2 100% at 3pm, FIO2 decreased to 90%, then 80%.
   ABG was 7.49/39/51 at 3 a.m. Decreased tidal volume to 270. Had desats
   to 80s in the setting of fighting vent. FIO2 increased to 100%.
   - ET tube was advanced 3cm
   - Attempted esophageal balloon
 could not tolerate [**2-26**] desats
   - Attempted to get noncontrast chest CT in PM, however the patient
   desatted on the way to CT.
   -RUQ U/S shows normal ultrasonographic appearance of the liver with no
   evidence of biliary dilatation, 5 mm gallbladder polyp.
   -CXR this PM: Widespread pulmonary opacities show very slight interval
   improvement. Pleural effusions are unchanged. Small focal lucency has
   developed at left base adjacent to the lower left heart border and
   could potentially represent a small loculated anteromedial pneumothorax
   -Methylprednisone increased from 20mg to 40mg [**Hospital1 **]
   -Voriconazole started in place of Micafungin
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2114-11-19**] 07:30 PM
   Voriconazole - [**2114-11-19**] 07:40 PM
   Vancomycin - [**2114-11-19**] 08:15 PM
   Acyclovir - [**2114-11-19**] 10:00 PM
   Bactrim (SMX/TMP) - [**2114-11-20**] 05:40 AM
   Erythromycin - [**2114-11-20**] 05:40 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Furosemide (Lasix) - 20 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-19**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-20**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 74 (69 - 96) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (0 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 12 (12 - 12)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  3,585 mL
                                                                  1,321 mL
   PO:
   TF:
                                                                    658 mL
                                                                    102 mL
   IVF:
                                                                  2,827 mL
                                                                  1,120 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  1,500 mL
   Urine:
                                                                  4,190 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -605 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 14.2 cmH2O/mL
   SpO2: 91%
   ABG: 7.47/45/63/33/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 70
   Physical Examination
   GENERAL: Intubated, overbreathing the vent
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Course breath sounds. No wheezes, rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   226 K/uL
   8.0 g/dL
   125 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.2 mEq/L
   38 mg/dL
   102 mEq/L
   143 mEq/L
   24.6 %
   12.1 K/uL
        [image002.jpg]
                            [**2114-11-18**]  06:20 PM
                            [**2114-11-18**]  07:44 PM
                            [**2114-11-19**]  01:14 AM
                            [**2114-11-19**]  04:19 AM
                            [**2114-11-19**]  05:39 AM
                            [**2114-11-19**]  02:52 PM
                            [**2114-11-19**]  03:00 PM
                            [**2114-11-20**]  03:10 AM
                            [**2114-11-20**]  03:56 AM
                            [**2114-11-20**]  04:50 AM
   WBC
   12.6
   14.4
   12.3
   12.1
   Hct
   23.2
   24.2
   24.5
   24.6
   Plt
   [**Telephone/Fax (3) 11023**]26
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   31
   32
   31
   34
   31
   34
   Glucose
   143
   159
   146
   125
   Other labs: PT / PTT / INR:11.7/29.2/1.0, ALT / AST:78/39, Alk Phos / T
   Bili:282/0.3, Differential-Neuts:80.9 %, Band:2.0 %, Lymph:10.9 %,
   Mono:7.3 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:378 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Hypoxemic respiratory failure/ARDS:
   Some of patient difficulty with oxygenation may be related to
   dysynchrony with vent. Ventillator setting themselves are appropriate,
   although patient is requiring very high FIO2 (100%).
   - trial of propofol -> dropped pressure with no improvement in
   synchrony
   - paralyze with cisatracurium -> improved oxygenation
   - repeat chest CT if hypoxemia improved with paralysis
   - continue on Volume Control ventilation
   - continue fentanyl and midazolam for sedation. Can add haloperidol PRN
   in order to decrease fentanyl/midazolam requirement. Will need to check
   QTc.
   .
   # Airway:
   ET tube noted to be 7 cm above carina.
   - advance ET tube
   .
   # Sepsis / Fever:
   Tmax 100.3 in past 24 hours.  Maintaining BP off pressors.  Sepsis
   initially due to multifocal PNA, as seen on CT chest. Wide differential
   given immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: prelim negative for CMV.  New fever concerning
   for a worsening pulmonary process or a new source of infection.  C diff
   [**11-17**] negative.  First glucan and galactomannan negative.
   - d/c micafungin
   - add voriconazole (day 1 = [**2114-11-19**])
   - Empiric broad antibacterial coverage with vanc/meropenum, day 9 of 14
   (day 1 = [**11-10**])
   - Continue Bactrim at treatment dose
   - F/U CMV VL, EBV PCR, repeat glucan, repeat galactomannan
   .
   # Anemia:
   Hct fell from 27.0 on [**11-17**] to 21.5 on [**11-18**].  Did have elevated PTT
   122 on [**11-18**], possible [**2-26**] to subQ heparin, now improved. Has GI
   bleeding (noted to have BRBPR).
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   .
   # ARF: patient
s Cr stable now  0.9.  Cr above baseline.
   - renally dose meds
   - avoid nephrotoxins
   - continue lasix drip to decrease LOS fluid balance, goal of UOP
   greater than 150cc per hour (b/c getting at least 100cc/hr IN)
   .
   # Elevated LFTs: Difficult to assess as patient has had multiple
   hemolyzed lab specimens
   - f/u RUQ ultrasound
   .
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - on solumedrol
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl w
   sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-18**] 05:47 AM 48 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
 will hold, then cut down dose due to elevated PTT
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Husband (cantonese speaking) and son (speaks
   english)
   Code status: Full code
   Disposition: ICU

2114-11-20 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedation reduced, tolerating.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-19**] 10:00 PM
   Bactrim (SMX/TMP) - [**2114-11-20**] 05:40 AM
   Erythromycin - [**2114-11-20**] 05:40 AM
   Meropenem - [**2114-11-20**] 08:00 AM
   Vancomycin - [**2114-11-20**] 08:13 AM
   Voriconazole - [**2114-11-20**] 09:56 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-20**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2114-11-20**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 75 (69 - 96) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 29 (0 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 12 (12 - 12)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  3,585 mL
                                                                  2,104 mL
   PO:
   TF:
                                                                    658 mL
                                                                    166 mL
   IVF:
                                                                  2,827 mL
                                                                  1,788 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  1,975 mL
   Urine:
                                                                  4,190 mL
                                                                  1,975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -605 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 18 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/45/63/33/7
   Ve: 8.4 L/min
   PaO2 / FiO2: 63
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Opens eyes to voice
   Labs / Radiology
   8.0 g/dL
   226 K/uL
   125 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.2 mEq/L
   38 mg/dL
   102 mEq/L
   143 mEq/L
   24.6 %
   12.1 K/uL
        [image002.jpg]
                            [**2114-11-18**]  06:20 PM
                            [**2114-11-18**]  07:44 PM
                            [**2114-11-19**]  01:14 AM
                            [**2114-11-19**]  04:19 AM
                            [**2114-11-19**]  05:39 AM
                            [**2114-11-19**]  02:52 PM
                            [**2114-11-19**]  03:00 PM
                            [**2114-11-20**]  03:10 AM
                            [**2114-11-20**]  03:56 AM
                            [**2114-11-20**]  04:50 AM
   WBC
   12.6
   14.4
   12.3
   12.1
   Hct
   23.2
   24.2
   24.5
   24.6
   Plt
   [**Telephone/Fax (3) 11023**]26
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   31
   32
   31
   34
   31
   34
   Glucose
   143
   159
   146
   125
   Other labs: PT / PTT / INR:11.7/29.2/1.0, ALT / AST:78/39, Alk Phos / T
   Bili:282/0.3, Differential-Neuts:80.9 %, Band:2.0 %, Lymph:10.9 %,
   Mono:7.3 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:378 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Net deterioration. Marked hypoxemia.   Attributed
   to ARDS predominately, on background of infection and possible
   cardiogenic pulmonary edema.  Continue with broad spectrum antibiotics
   (vanc/meropenem/voriconazole/Bactrim).   Continue mechanical
   ventilation, hope to decrease FiO2 to <60% if possible, and increase
   PEEP as tolerated to improve oxygenation.  [**Month (only) 51**] benefit from esophogeal
   balloon placement to monitor Monitor CXR.  Likely will require
   paralysis to reduce work of breathing.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   infection, but may in part related to net positive fluid balance.  Also
   concerned for GVHD.  Continue antibiotics, continue net diuresis.
   Consider diagnostic bronchoscopy, but high risk currently (marginal
   oxygenation on 100% FiO2).
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolving.  Continue monitor
   BUN, creatinine,
   HYPOKALEMIA -- replete to K >4.0
   ELEVATED LFTs -- Possible related to GVHD, with contribution of
   medications.  Currently stable.  Monitor LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-20**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-20 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   REmains intubated, mechanically ventilated.
   Continues to require high FiO2, now remains on 100%.  Continues to
   experience marked oxygen desaturation with moving in bed.  Elevated PIP
   and Plateau pressures.
   Tolerating gradual reduction in sedation.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-19**] 10:00 PM
   Bactrim (SMX/TMP) - [**2114-11-20**] 05:40 AM
   Erythromycin - [**2114-11-20**] 05:40 AM
   Meropenem - [**2114-11-20**] 08:00 AM
   Vancomycin - [**2114-11-20**] 08:13 AM
   Voriconazole - [**2114-11-20**] 09:56 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-20**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-20**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 75 (69 - 96) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 29 (0 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 12 (12 - 12)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  3,585 mL
                                                                  2,177 mL
   PO:
   TF:
                                                                    658 mL
                                                                    187 mL
   IVF:
                                                                  2,827 mL
                                                                  1,841 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  1,975 mL
   Urine:
                                                                  4,190 mL
                                                                  1,975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -605 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 18 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/45/63/33/7
   Ve: 8.4 L/min
   PaO2 / FiO2: 63
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Opens eyes to voice
   Labs / Radiology
   8.0 g/dL
   226 K/uL
   125 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.2 mEq/L
   38 mg/dL
   102 mEq/L
   143 mEq/L
   24.6 %
   12.1 K/uL
        [image002.jpg]
                            [**2114-11-18**]  06:20 PM
                            [**2114-11-18**]  07:44 PM
                            [**2114-11-19**]  01:14 AM
                            [**2114-11-19**]  04:19 AM
                            [**2114-11-19**]  05:39 AM
                            [**2114-11-19**]  02:52 PM
                            [**2114-11-19**]  03:00 PM
                            [**2114-11-20**]  03:10 AM
                            [**2114-11-20**]  03:56 AM
                            [**2114-11-20**]  04:50 AM
   WBC
   12.6
   14.4
   12.3
   12.1
   Hct
   23.2
   24.2
   24.5
   24.6
   Plt
   [**Telephone/Fax (3) 11023**]26
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   31
   32
   31
   34
   31
   34
   Glucose
   143
   159
   146
   125
   Other labs: PT / PTT / INR:11.7/29.2/1.0, ALT / AST:78/39, Alk Phos / T
   Bili:282/0.3, Differential-Neuts:80.9 %, Band:2.0 %, Lymph:10.9 %,
   Mono:7.3 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:378 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Net detreioration. Marked hypoxemia.   Attributed
   to ARDS and possible infection and possible cardiogenic pulmonary
   edema.  Unclear as to component of GVHD.  Continue with broad spectrum
   antibiotics (vancomycin/meropenem/voriconazole/mycafungin/Bactrim).
   Adjust ETT.  Continue mechanical ventilation, hope to decrease FiO2 to
   <60% if possible, and increase PEEP as tolerated to improve
   oxygenation.  [**Month (only) 51**] benefit from esophogeal balloon placement to monitor
   plerual pressures.   Monitor CXR.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics, continue net diuresis.
   Consider diagnostic bronchoscopy, but currently high risk in context of
   marginal oxygenation.
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolving.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-20**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-21 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   rounds:
   * Question of muscle paralytics vs. adding another [**Doctor Last Name **] such as
   methadone to versad and fentanyl.  Decision was made not to go with
   paralytics for now.  Add propofol drip and uptitrate as necessary for
   synchrony.  Use Haldol IV PRN as needed.
   * F/u ID and BMT recs; Abx coverage: Meropenem d 9, Vanc d 12.  Will
   define Abx course as 14 days each, but will discuss with ID
   * Added heparin SC 5000 units daily
   -did not tolerate propofol [**2-26**] hypotension
   -diuresing with lasix drip: goal even to 0.5 liters
   -added cisatracurium, with improvement in oxygenation
   -stopped lasix drip in setting of hypotension to 80s, elevated BUN
   -abg 7.41/53/71 on FIO2 100% at 3:30 p.m.
   -abg 7.42/54/78 on FIO2 95% at 5:00 p.m.
   -tolerated turning for 1st time -> has deep soft tissue wound on back
   -esophageal balloon in place, transpulmonary pressure +20 in
   inspiration, +4 in expiration; increases in PEEP lead to peak pressures
   in high 30s -->cannot increase PEEP
   -abg 7.42/52/106 on FIO2 90% at 6 p.m. --> turned FIO2 down to 80%
   -abg 7.41/52/68 on FIO2 80% at 9:52 p.m.
   -abg 7.43/50/82 on FIO2 80% at 3:55 a.m.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-20**] 05:40 AM
   Meropenem - [**2114-11-20**] 07:30 PM
   Vancomycin - [**2114-11-20**] 07:53 PM
   Voriconazole - [**2114-11-20**] 08:59 PM
   Acyclovir - [**2114-11-20**] 10:05 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 06:00 AM
   Infusions:
   Cisatracurium - 0.18 mg/Kg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-20**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-20**] 12:21 PM
   Cisatracurium - [**2114-11-20**] 01:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 72 (66 - 97) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 0 (0 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.1 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 10 (8 - 25)mmHg
   Total In:
                                                                  4,650 mL
                                                                    879 mL
   PO:
   TF:
                                                                    381 mL
                                                                    146 mL
   IVF:
                                                                  3,778 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  3,745 mL
                                                                    430 mL
   Urine:
                                                                  3,745 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    905 mL
                                                                    449 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: 7.43/50/81.[**Numeric Identifier 508**]/33/7
   Ve: 8 L/min
   PaO2 / FiO2: 103
   Physical Examination
   GENERAL: Intubated, overbreathing the vent
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Course breath sounds. No wheezes, rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   235 K/uL
   7.9 g/dL
   163 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.7 mEq/L
   41 mg/dL
   98 mEq/L
   140 mEq/L
   23.5 %
   15.6 K/uL
        [image002.jpg]
                            [**2114-11-20**]  03:10 AM
                            [**2114-11-20**]  03:56 AM
                            [**2114-11-20**]  04:50 AM
                            [**2114-11-20**]  03:31 PM
                            [**2114-11-20**]  04:52 PM
                            [**2114-11-20**]  05:04 PM
                            [**2114-11-20**]  06:18 PM
                            [**2114-11-20**]  09:52 PM
                            [**2114-11-21**]  03:22 AM
                            [**2114-11-21**]  03:55 AM
   WBC
   12.1
   15.6
   Hct
   24.6
   23.5
   Plt
   226
   235
   Cr
   0.9
   1.0
   1.1
   TCO2
   31
   34
   35
   36
   35
   34
   34
   Glucose
   125
   128
   163
   Other labs: PT / PTT / INR:10.7/28.1/0.9, ALT / AST:104/65, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:7.8 %,
   Mono:7.5 %, Eos:0.5 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:370 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Hypoxemic respiratory failure/ARDS:
   Some of patient difficulty with oxygenation may be related to
   dysynchrony with vent. Ventillator setting themselves are appropriate,
   although patient is requiring very high FIO2 (100%).
   - trial of propofol -> dropped pressure with no improvement in
   synchrony
   - paralyze with cisatracurium -> improved oxygenation
   - repeat chest CT if hypoxemia improved with paralysis
   - continue on Volume Control ventilation with tv 270, rate 30, PEEP 15,
   FIO2 100%
   - attempt to decrease FIO2 if SaO2 improves with paralysis
   - continue fentanyl/midazolam
   .
   # Sepsis / Fever:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: prelim negative for CMV.  C diff [**11-17**]
   negative.  First glucan and galactomannan negative.
   - f/u ID recs
   - on meropenem/vanc (treat for 14-day course, day 1 = [**11-10**])
   - on voriconazole (day 1 = [**2114-11-19**])
   - Continue Bactrim at treatment dose
   - F/U pending blood cultures; acid fast, fungal, viral BAL cultures,
   repeat glucan, repeat galactomannan
   .
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   .
   # ARF: Cr above baseline but stable.
   - renally dose meds
   - avoid nephrotoxins
   - continue lasix drip to decrease LOS fluid balance, goal of UOP
   greater than 150cc per hour (b/c getting at least 100cc/hr IN)
   - consider adding metolozone if not diuresing well
   .
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp.
   - trend LFTs
   .
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - on solumedrol
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl w
   sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-18**] 05:47 AM 48 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
 restarting at 5000 units daily (held for 2 days in
   setting of elevated PTT), pneumoboots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Husband (cantonese speaking) and son (speaks
   english)
   Code status: Full code
   Disposition: ICU

2114-11-21 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Required pharmacological paralysis yesterday.
   Esophogeal balloon placed to monitor transpleural pressures.
   Tolerating lower FiO2.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-20**] 05:40 AM
   Bactrim (SMX/TMP) - [**2114-11-21**] 06:00 AM
   Vancomycin - [**2114-11-21**] 08:15 AM
   Meropenem - [**2114-11-21**] 08:15 AM
   Voriconazole - [**2114-11-21**] 08:39 AM
   Acyclovir - [**2114-11-21**] 10:49 AM
   Infusions:
   Cisatracurium - 0.18 mg/Kg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-20**] 12:21 PM
   Cisatracurium - [**2114-11-20**] 01:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-21**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 81 (66 - 97) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.1 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 10 (8 - 25)mmHg
   Total In:
                                                                  4,650 mL
                                                                  1,638 mL
   PO:
   TF:
                                                                    381 mL
                                                                    217 mL
   IVF:
                                                                  3,778 mL
                                                                  1,320 mL
   Blood products:
   Total out:
                                                                  3,745 mL
                                                                    820 mL
   Urine:
                                                                  3,745 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    905 mL
                                                                    819 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 14.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/50/81.[**Numeric Identifier 508**]/33/7
   Ve: 7.9 L/min
   PaO2 / FiO2: 109
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Decreased
   Labs / Radiology
   7.9 g/dL
   235 K/uL
   163 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.7 mEq/L
   41 mg/dL
   98 mEq/L
   140 mEq/L
   23.5 %
   15.6 K/uL
        [image002.jpg]
                            [**2114-11-20**]  03:10 AM
                            [**2114-11-20**]  03:56 AM
                            [**2114-11-20**]  04:50 AM
                            [**2114-11-20**]  03:31 PM
                            [**2114-11-20**]  04:52 PM
                            [**2114-11-20**]  05:04 PM
                            [**2114-11-20**]  06:18 PM
                            [**2114-11-20**]  09:52 PM
                            [**2114-11-21**]  03:22 AM
                            [**2114-11-21**]  03:55 AM
   WBC
   12.1
   15.6
   Hct
   24.6
   23.5
   Plt
   226
   235
   Cr
   0.9
   1.0
   1.1
   TCO2
   31
   34
   35
   36
   35
   34
   34
   Glucose
   125
   128
   163
   Other labs: PT / PTT / INR:10.7/28.1/0.9, ALT / AST:104/65, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:7.8 %,
   Mono:7.5 %, Eos:0.5 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:370 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Some clinical improvement overnight.  Marked
   hypoxemia, but tolerating lower FiO2.   Attributed to ARDS (supported
   by measurements) and possible infection and possible cardiogenic
   pulmonary edema.  Unclear as to component of GVHD.  Continue with broad
   spectrum antibiotics
   (vancomycin/meropenem/voriconazole/mycafungin/Bactrim).  Adjust ETT.
   Continue mechanical ventilation, hope to decrease FiO2 to <60% if
   possible, and adjust PEEP as tolerated to improve oxygenation.  Monitor
   plerual pressures.   Monitor CXR.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics, continue net diuresis.
   Consider diagnostic bronchoscopy, but may be high risk in context of
   marginal oxygenation and PEEP.
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolving.  Continue monitor
   BUN, creatinine.  Hold lasix drip to allow reequilibration.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-21**] 12:50 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Procedure Note:  Bronchoscopy
   Flexible fiberoptic bronchoscopy performed at bedside.  Limited study
   (high FiO2 and PEEP= 15).  BAL performed RML (30 ml x 4, with return of
   45 ml clear frothy fluid).  Tolerated well.  Specimen submitted for
   microbiological studies.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2114-11-21**] 15:07 ------

2114-11-22 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2114-11-21**] 02:11 PM
   had bronch BAL-> negative PCP so bactrim [**Name Initial (PRE) **]/c
   heme onc consider tapering steroids now that PCP negative
   lasix 5 ggt and 40mg IV bolus bc still + o/n
   trying to wean fio2, still at 80% (tried 75% but de-satted)
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-21**] 12:19 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 05:53 PM
   Meropenem - [**2114-11-21**] 07:41 PM
   Vancomycin - [**2114-11-21**] 07:55 PM
   Voriconazole - [**2114-11-21**] 07:56 PM
   Acyclovir - [**2114-11-21**] 10:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.18 mg/Kg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-11-21**] 08:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-22**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 93 (74 - 121) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 28 (0 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.1 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  3,384 mL
                                                                    473 mL
   PO:
   TF:
                                                                    325 mL
                                                                     10 mL
   IVF:
                                                                  2,959 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                  1,880 mL
   Urine:
                                                                  3,235 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    149 mL
                                                                 -1,407 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 34 cmH2O
   Compliance: 14.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/50/62/34/9
   Ve: 8.3 L/min
   PaO2 / FiO2: 78
   Physical Examination
   GENERAL: Intubated, not overbreathing vent, not responsive to commands,
   pain
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Course breath sounds. No wheezes, rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: Patient appears overall volume overloaded but with +1
   edema pretibially . 2+ peripheral pulses.
   SKIN: No rashes. The skin is warm and dry.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   240 K/uL
   7.9 g/dL
   136 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.7 mEq/L
   38 mg/dL
   100 mEq/L
   143 mEq/L
   24.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2114-11-20**]  05:04 PM
                            [**2114-11-20**]  06:18 PM
                            [**2114-11-20**]  09:52 PM
                            [**2114-11-21**]  03:22 AM
                            [**2114-11-21**]  03:55 AM
                            [**2114-11-21**]  02:11 PM
                            [**2114-11-21**]  04:32 PM
                            [**2114-11-21**]  05:47 PM
                            [**2114-11-22**]  04:18 AM
                            [**2114-11-22**]  04:42 AM
   WBC
   15.6
   14.4
   Hct
   23.5
   24.2
   Plt
   235
   240
   Cr
   1.1
   1.1
   1.0
   TCO2
   36
   35
   34
   34
   34
   34
   37
   Glucose
   163
   154
   136
   Other labs: PT / PTT / INR:10.7/28.1/0.9, ALT / AST:142/100, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:7.8 %,
   Mono:7.5 %, Eos:0.5 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:427 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   .
   # Hypoxemic respiratory failure/ARDS:
   Some of patient difficulty with oxygenation may be related to
   dysynchrony with vent. After paralysis w/ cisatracurium patient was
   oxygenating better from 88% to 93%.  Esophageal balloon done, PEEP
   already maxed at 15. On rounds, transpulmonary pressure equalized at
   zero (15 and -15).  Ventillator setting themselves are appropriate, and
   patient is at 80% FiO2.
   - paralyze with cisatracurium -> improved oxygenation
   - repeat chest CT if hypoxemia improved with paralysis
   - continue on Volume Control ventilation with tv 270, rate 30, PEEP 15,
   FIO2 80%
   - attempt to decrease FIO2 if SaO2 improves with paralysis
   - continue fentanyl/midazolam
   .
   # Sepsis / Fever:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: prelim negative for CMV.  C diff [**11-17**]
   negative.  First glucan and galactomannan negative.
   - repeat BAL send for gram stain, Cx, CMV, respiratory virus panel
   - f/u ID recs
   - on meropenem/vanc (treat for 14-day course, day 1 = [**11-10**])
   - on voriconazole (day 1 = [**2114-11-19**])
   - Continue Bactrim at treatment dose
   - F/U pending blood cultures; acid fast, fungal, viral BAL cultures,
   repeat glucan, repeat galactomannan
   .
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   .
   # ARF: Cr above baseline but stable.
   - renally dose meds
   - avoid nephrotoxins
   - continue lasix drip to decrease LOS fluid balance, goal of UOP
   greater than 150cc per hour (b/c getting at least 100cc/hr IN)
   - consider adding metolozone if not diuresing well
   .
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp.
   - trend LFTs
   .
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - on solumedrol
   - Appreciate BMT recs
   .
   # Hep B:
   - Cont lamivudine
   .
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl w
   sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-18**] 05:47 AM 48 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
 restarting at 5000 units daily (held for 2 days in
   setting of elevated PTT), pneumoboots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Husband (cantonese speaking) and son (speaks
   english)
   Code status: Full code
   Disposition: ICU

2114-11-22 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating lasix drip.
   BAL performed.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-21**] 12:19 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 05:53 PM
   Acyclovir - [**2114-11-21**] 10:00 PM
   Meropenem - [**2114-11-22**] 07:35 AM
   Vancomycin - [**2114-11-22**] 07:35 AM
   Voriconazole - [**2114-11-22**] 09:06 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.18 mg/Kg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-11-21**] 08:54 PM
   Pantoprazole (Protonix) - [**2114-11-22**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   Paralyzed
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-22**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 71 (71 - 121) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  3,384 mL
                                                                  1,083 mL
   PO:
   TF:
                                                                    325 mL
                                                                     37 mL
   IVF:
                                                                  2,959 mL
                                                                    916 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                  2,690 mL
   Urine:
                                                                  3,235 mL
                                                                  2,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    149 mL
                                                                 -1,607 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   Compliance: 15 cmH2O/mL
   SpO2: 95%
   ABG: 7.46/50/62/34/9
   Ve: 7.9 L/min
   PaO2 / FiO2: 78
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   240 K/uL
   136 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.7 mEq/L
   38 mg/dL
   100 mEq/L
   143 mEq/L
   24.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2114-11-20**]  05:04 PM
                            [**2114-11-20**]  06:18 PM
                            [**2114-11-20**]  09:52 PM
                            [**2114-11-21**]  03:22 AM
                            [**2114-11-21**]  03:55 AM
                            [**2114-11-21**]  02:11 PM
                            [**2114-11-21**]  04:32 PM
                            [**2114-11-21**]  05:47 PM
                            [**2114-11-22**]  04:18 AM
                            [**2114-11-22**]  04:42 AM
   WBC
   15.6
   14.4
   Hct
   23.5
   24.2
   Plt
   235
   240
   Cr
   1.1
   1.1
   1.0
   TCO2
   36
   35
   34
   34
   34
   34
   37
   Glucose
   163
   154
   136
   Other labs: PT / PTT / INR:10.7/28.1/0.9, ALT / AST:142/100, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:7.8 %,
   Mono:7.5 %, Eos:0.5 %, Fibrinogen:643 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:427 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Some clinical improvement overnight.  Marked
   hypoxemia, but tolerating lower FiO2.   Attributed to ARDS (supported
   by measurements) and possible infection and possible cardiogenic
   pulmonary edema.  Unclear as to component of GVHD.  No evidence for
   Pneumocystis (Bactim d/c'd last PM).  Continue with broad spectrum
   empirical antibiotics (vancomycin/meropenem/voriconazole/mycafungin).
   Continue mechanical ventilation, hope to decrease FiO2 to <60% if
   possible, and adjust PEEP as tolerated to improve oxygenation.  Monitor
   plerual pressures.   Monitor CXR.  Would prepare to move to
   tracheostomy tube.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics, continue net diuresis.
   Await bronchoscopy results.  Trial off paralytics today.
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   ALKALEMIA -- component of metabolic alkalosis, likey due to contraction
   alkalosis in context of active diuresis.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21
   NUTRITIONAL SUPPORT -- TF
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-22**] 06:14 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-23 08:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PAN CULTURE - At [**2114-11-23**] 12:00 AM
   -methylprednisone decreased to 20 [**Hospital1 7**] from 40 [**Hospital1 7**]
   - vanc discontinued
   - discontinued cisatracurium
   - PTT 33, increased sc heparin to [**Hospital1 7**]
   - elevated lactate to 2.8, pancultured
   - lasix gtt at 6
   - Desats to 70's with nursing care overnight
   - Fentanyl increased from 300 to 500
   - Peak pressures to 40 overnight - 36 this AM
   - Vent settings AC 270/30/15/90% (overnight required 100%)
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-21**] 12:19 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 05:53 PM
   Vancomycin - [**2114-11-22**] 07:35 AM
   Acyclovir - [**2114-11-22**] 10:41 PM
   Meropenem - [**2114-11-23**] 08:00 AM
   Voriconazole - [**2114-11-23**] 08:20 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2114-11-22**] 08:49 PM
   Pantoprazole (Protonix) - [**2114-11-23**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-23**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-23**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 76 (70 - 98) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (28 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  2,320 mL
                                                                    970 mL
   PO:
             TF:
                                                                    347 mL
                                                                    340 mL
   IVF:
                                                                  1,743 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  4,890 mL
                                                                  1,320 mL
   Urine:
                                                                  4,890 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,570 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 37 cmH2O
   SpO2: 96%
   ABG: 7.45/55/67/37/11
   Ve: 7.1 L/min
   PaO2 / FiO2: 74
   Physical Examination
   GENERAL: Intubated, sedated
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: markedly volume-overloaded, anasarca.
   SKIN: No rashes. Deep tissue injury on sacrum.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   268 K/uL
   7.9 g/dL
   131 mg/dL
   0.9 mg/dL
   37 mEq/L
   5.0 mEq/L
   41 mg/dL
   100 mEq/L
   144 mEq/L
   23.7 %
   14.8 K/uL
        [image002.jpg]
                            [**2114-11-21**]  05:47 PM
                            [**2114-11-22**]  04:18 AM
                            [**2114-11-22**]  04:42 AM
                            [**2114-11-22**]  12:41 PM
                            [**2114-11-22**]  03:02 PM
                            [**2114-11-22**]  06:04 PM
                            [**2114-11-22**]  08:59 PM
                            [**2114-11-22**]  10:43 PM
                            [**2114-11-23**]  04:05 AM
                            [**2114-11-23**]  04:23 AM
   WBC
   14.4
   14.8
   Hct
   24.2
   23.7
   Plt
   240
   268
   Cr
   1.0
   1.0
   0.9
   TCO2
   34
   37
   38
   32
   39
   38
   39
   Glucose
   136
   129
   131
   Other labs: PT / PTT / INR:11.0/26.9/0.9, ALT / AST:142/100, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:82.1 %, Band:2.0 %, Lymph:9.6 %,
   Mono:7.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:2.7 g/dL, LDH:427 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS:
   Oxygenation improved with paralysis with cisatracurium.  Cis d/c'd
   yesterday, now on FIO2 100%.  Cisatracurium has risk of causing
   myopathy, particularly in combination with steroids.  She had desats to
   the 70's overnight and now is requiring 90% O2 with settings of AC 270,
   30, 15.  High Peak pressures overnight.  Assess PEEP and esophageal
   pressures.
   - continue on Volume Control ventilation with tv 270, rate 30, PEEP 15,
   FIO2 90%
   - continue to wean FIO2 as tolerated for sats >90%
   - continue fentanyl/midazolam at 500 and 10
   - discuss thought of surgical trach
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: prelim negative for CMV.  C diff [**11-17**]
   negative.  B-glucan and galactomannan negative x 2.  BAL IF negative
   for PCP x 2.
   - f/u ID recs
   - continue meropenem (treat for 14-day course, day 1 = [**11-10**])
   - on voriconazole (day 1 = [**2114-11-19**]) - increasing LFT's may necessitate
   changing dosing or d/c'ing medication and switching to a different
   [**Doctor Last Name **]
   - f/u pending blood cultures; acid fast, fungal, viral cultures from
   BAL
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   # ARF:
   Cr above baseline but stable.
   - renally dose meds
   - avoid nephrotoxins
   # Volume overload: Up 10 kg since admission.
   - continue lasix drip to decrease LOS fluid balance, goal negative 2 L
   today, as BUN/Creatinine tolerate
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs had significant increase - discuss voriconazole with ID and
   possibility of switching to different [**Doctor Last Name **] if possible or adjusting
   dose
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Continue decreased solumedrol dose per heme/onc recs
   - Appreciate BMT recs
   # Hep B:
   - Cont lamivudine
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl
   (at 500) w sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-23**] 03:43 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-11-23 09:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventillated.
   Paralysis d/c'd yesterday, remains off paralysis.  Sedation increased.
   Tolerating lasix drip, with net diuresis.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-21**] 12:19 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 05:53 PM
   Vancomycin - [**2114-11-22**] 07:35 AM
   Acyclovir - [**2114-11-22**] 10:41 PM
   Meropenem - [**2114-11-23**] 08:00 AM
   Voriconazole - [**2114-11-23**] 08:20 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2114-11-22**] 08:49 PM
   Pantoprazole (Protonix) - [**2114-11-23**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-23**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-23**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 131 (70 - 131) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 27 (27 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  2,320 mL
                                                                  1,018 mL
   PO:
   TF:
                                                                    347 mL
                                                                    368 mL
   IVF:
                                                                  1,743 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                  4,890 mL
                                                                  1,525 mL
   Urine:
                                                                  4,890 mL
                                                                  1,485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,570 mL
                                                                   -507 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 37 cmH2O
   SpO2: 96%
   ABG: 7.45/55/67/37/11
   Ve: 7.1 L/min
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, flat abdomen
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   268 K/uL
   131 mg/dL
   0.9 mg/dL
   37 mEq/L
   5.0 mEq/L
   41 mg/dL
   100 mEq/L
   144 mEq/L
   23.7 %
   14.8 K/uL
        [image002.jpg]
                            [**2114-11-21**]  05:47 PM
                            [**2114-11-22**]  04:18 AM
                            [**2114-11-22**]  04:42 AM
                            [**2114-11-22**]  12:41 PM
                            [**2114-11-22**]  03:02 PM
                            [**2114-11-22**]  06:04 PM
                            [**2114-11-22**]  08:59 PM
                            [**2114-11-22**]  10:43 PM
                            [**2114-11-23**]  04:05 AM
                            [**2114-11-23**]  04:23 AM
   WBC
   14.4
   14.8
   Hct
   24.2
   23.7
   Plt
   240
   268
   Cr
   1.0
   1.0
   0.9
   TCO2
   34
   37
   38
   32
   39
   38
   39
   Glucose
   136
   129
   131
   Other labs: PT / PTT / INR:11.0/26.9/0.9, ALT / AST:142/100, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:82.1 %, Band:2.0 %, Lymph:9.6 %,
   Mono:7.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:2.7 g/dL, LDH:427 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Tolerating discontinuation of paralytics,
   although oxygenation remains tenuous.  Marked hypoxemia.   Attributed
   to ARDS (supported by measurements) and possible infection and possible
   cardiogenic pulmonary edema.  Unclear as to component of GVHD.  No
   evidence for Pneumocystis (Bactim d/c'd last PM).  Continue with broad
   spectrum empirical antibiotics
   (vancomycin/meropenem/voriconazole/mycafungin).  Continue mechanical
   ventilation, hope to decrease FiO2 to <60% if possible, and adjust PEEP
   as tolerated to improve oxygenation.  Monitor plerual pressures.
   Monitor CXR.  Would prepare to move to tracheostomy tube.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics, continue net diuresis.
   Await bronchoscopy results.  Trial off paralytics today.  Plan to
   proceed with tracheotomy tube (likely surgical).
   LACTIC ACIDOSIS
  monitor closely.  [**Month (only) 51**] reflect evolving sepsis
   need to monitor closely.
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   ALKALEMIA -- component of metabolic alkalosis, likey due to contraction
   alkalosis in context of active diuresis.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21
   NUTRITIONAL SUPPORT -- TF
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-23**] 03:43 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-23 11:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PAN CULTURE - At [**2114-11-23**] 12:00 AM
   - methylprednisone decreased to 20 [**Hospital1 7**] from 40 [**Hospital1 7**]
   - vanc discontinued
   - discontinued cisatracurium
   - PTT 33, increased sc heparin to [**Hospital1 7**]
   - elevated lactate to 2.8, pancultured
   - lasix gtt at 6
   - Desats to 70's with nursing care overnight
   - Fentanyl increased from 300 to 500
   - Peak pressures to 40 overnight - 36 this AM
   - Vent settings AC 270/30/15/90% (overnight required 100%)
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-21**] 12:19 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 05:53 PM
   Vancomycin - [**2114-11-22**] 07:35 AM
   Meropenem - [**2114-11-23**] 08:00 AM
   Voriconazole - [**2114-11-23**] 08:20 AM
   Acyclovir - [**2114-11-23**] 10:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2114-11-22**] 08:49 PM
   Pantoprazole (Protonix) - [**2114-11-23**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-23**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-23**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 116 (70 - 131) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  2,320 mL
                                                                  1,342 mL
   PO:
   TF:
                                                                    347 mL
                                                                    498 mL
   IVF:
                                                                  1,743 mL
                                                                    724 mL
   Blood products:
   Total out:
                                                                  4,890 mL
                                                                  1,605 mL
   Urine:
                                                                  4,890 mL
                                                                  1,565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,570 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 37 cmH2O
   SpO2: 91%
   ABG: 7.45/55/67/37/11
   Ve: 7.1 L/min
   PaO2 / FiO2: 74
   Physical Examination
   GENERAL: Intubated, sedated
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: markedly volume-overloaded, anasarca.
   SKIN: No rashes. Deep tissue injury on sacrum.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   268 K/uL
   7.9 g/dL
   131 mg/dL
   0.9 mg/dL
   37 mEq/L
   5.0 mEq/L
   41 mg/dL
   100 mEq/L
   144 mEq/L
   23.7 %
   14.8 K/uL
        [image002.jpg]
                            [**2114-11-21**]  05:47 PM
                            [**2114-11-22**]  04:18 AM
                            [**2114-11-22**]  04:42 AM
                            [**2114-11-22**]  12:41 PM
                            [**2114-11-22**]  03:02 PM
                            [**2114-11-22**]  06:04 PM
                            [**2114-11-22**]  08:59 PM
                            [**2114-11-22**]  10:43 PM
                            [**2114-11-23**]  04:05 AM
                            [**2114-11-23**]  04:23 AM
   WBC
   14.4
   14.8
   Hct
   24.2
   23.7
   Plt
   240
   268
   Cr
   1.0
   1.0
   0.9
   TCO2
   34
   37
   38
   32
   39
   38
   39
   Glucose
   136
   129
   131
   Other labs: PT / PTT / INR:11.0/26.9/0.9, ALT / AST:142/100, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:82.1 %, Band:2.0 %, Lymph:9.6 %,
   Mono:7.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:2.7 g/dL, LDH:427 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS:
   Oxygenation improved with paralysis with cisatracurium.  Cis d/c'd
   yesterday, now on FIO2 100%.  Cisatracurium has risk of causing
   myopathy, particularly in combination with steroids.  She had desats to
   the 70's overnight and now is requiring 90% O2 with settings of AC 270,
   30, 15.  High Peak pressures overnight.  Assess PEEP and esophageal
   pressures.
   - continue on Volume Control ventilation with tv 270, rate 30, PEEP 15,
   FIO2 90%
   - continue to wean FIO2 as tolerated for sats >90%
   - We will change Fentanyl to Methadone for sedation
   - Continue Midazolam at 10
   - consult IP on Monday for trach eval
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: prelim negative for CMV.  C diff [**11-17**]
   negative.  B-glucan and galactomannan negative x 2.  BAL IF negative
   for PCP x 2.  Lactate was elevated to 2.9 overnight, she was pan
   cultured. Heme/Onc has concern for VRE.
   - f/u ID recs
   - continue meropenem (treat for 14-day course, day 1 = [**11-10**])
   - on voriconazole (day 1 = [**2114-11-19**]) - increasing LFT's may necessitate
   changing dosing or d/c'ing medication and switching to a different
   [**Doctor Last Name **]
   - f/u pending blood cultures; acid fast, fungal, viral cultures from
   BAL
   - Will add Linezolid to cover for VRE
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   # ARF:
   Cr above baseline but stable.
   - renally dose meds
   - avoid nephrotoxins
   # Volume overload: Up 10 kg since admission.
   - continue lasix drip , goal even today in the setting of increasing
   lactate and potential infectious picture
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs had significant increase - discuss voriconazole with ID and
   possibility of switching to different [**Doctor Last Name **] if possible or adjusting
   dose
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Continue decreased solumedrol dose per heme/onc recs
   - Appreciate BMT recs
   # Hep B:
   - Cont lamivudine
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl
   (at 500) w sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-23**] 03:43 AM 48 mL/hour
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: SQ heparin [**Hospital1 7**]
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Husband
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
   11:47
   ------ Protected Section ------
   Agree with MSIV note.
   52 y/o lady with ALL s/p chemo and single cord  transplant now with PNA
   which developed into ARDS.  Wean FiO2 as possible.  Pancultured
   including C Diff given lactate trending up yesterday.  Appreciate ID
   and Heme/Onc recs.
   ------ Protected Section Addendum Entered By:[**Name (NI) 11108**] [**Name8 (MD) 4607**], MD
   on:[**2114-11-23**] 13:13 ------

2114-11-24 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-22**]:
   - methylprednisone decreased to 20 [**Hospital1 7**] from 40 [**Hospital1 7**]
   - vanc discontinued
   - discontinued cisatracurium
   - heme/onc rec repeat CT chest
   - PTT 33, increased sc heparin to [**Hospital1 7**]
   - CXR [**11-22**] Small lucency overlying the
   left lung base is again seen, which could represent a small loculated
   anteromedial pneumothorax. Continued attention to this on followup
   advised.
   - elevated lactate to 2.8, pancultured
   - lasix gtt ............
   .
   ------------------------------------------------------------------
   [**11-23**]
   - started linezolid to cover for VRE
   - sent stool for C. diff
   - ABGs with increased CO2 and decreased O2. Increased FIO2 to 100%.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-21**] 12:19 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 05:53 PM
   Vancomycin - [**2114-11-22**] 07:35 AM
   Meropenem - [**2114-11-23**] 08:00 PM
   Voriconazole - [**2114-11-23**] 09:00 PM
   Acyclovir - [**2114-11-23**] 10:21 PM
   Linezolid - [**2114-11-24**] 05:30 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-23**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-23**] 08:00 PM
   Diazepam (Valium) - [**2114-11-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-24**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (96.9
   HR: 85 (76 - 131) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 10 (9 - 10)mmHg
   Total In:
                                                                  3,281 mL
                                                                  1,040 mL
   PO:
   TF:
                                                                  1,101 mL
                                                                    352 mL
   IVF:
                                                                  1,820 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    995 mL
   Urine:
                                                                  3,450 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -209 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 290 (270 - 290) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   PIP: 38 cmH2O
   Plateau: 38 cmH2O
   SpO2: 99%
   ABG: 7.39/68/81.[**Numeric Identifier 508**]/39/12
   Ve: 8.1 L/min
   PaO2 / FiO2: 82
   Physical Examination
   GENERAL: Intubated, sedated
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: markedly volume-overloaded, anasarca.
   SKIN: No rashes. Deep tissue injury on sacrum.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   298 K/uL
   7.7 g/dL
   164 mg/dL
   1.0 mg/dL
   39 mEq/L
   5.2 mEq/L
   45 mg/dL
   100 mEq/L
   143 mEq/L
   23.3 %
   17.0 K/uL
        [image002.jpg]
                            [**2114-11-22**]  03:02 PM
                            [**2114-11-22**]  06:04 PM
                            [**2114-11-22**]  08:59 PM
                            [**2114-11-22**]  10:43 PM
                            [**2114-11-23**]  04:05 AM
                            [**2114-11-23**]  04:23 AM
                            [**2114-11-23**]  10:50 PM
                            [**2114-11-24**]  04:26 AM
                            [**2114-11-24**]  04:42 AM
                            [**2114-11-24**]  06:52 AM
   WBC
   14.8
   17.0
   Hct
   23.7
   23.3
   Plt
   268
   298
   Cr
   1.0
   0.9
   1.0
   TCO2
   32
   39
   38
   39
   42
   42
   43
   Glucose
   129
   131
   164
   Other labs: PT / PTT / INR:10.6/26.9/0.9, ALT / AST:142/100, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:82.1 %, Band:2.0 %, Lymph:9.6 %,
   Mono:7.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.8 mmol/L,
   Albumin:2.7 g/dL, LDH:427 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS:
   Oxygenation improved with paralysis with cisatracurium.  Cis d/c'd
   yesterday, now on FIO2 100%.  Cisatracurium has risk of causing
   myopathy, particularly in combination with steroids.  She had desats to
   the 70's overnight and now is requiring 90% O2 with settings of AC 270,
   30, 15.  High Peak pressures overnight.  Assess PEEP and esophageal
   pressures.
   - continue on Volume Control ventilation with tv 270, rate 30, PEEP 15,
   FIO2 90%
   - continue to wean FIO2 as tolerated for sats >90%
   - We will change Fentanyl to Methadone for sedation
   - Continue Midazolam at 10
   - consult IP on Monday for trach eval
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: prelim negative for CMV.  C diff [**11-17**]
   negative.  B-glucan and galactomannan negative x 2.  BAL IF negative
   for PCP x 2.  Lactate was elevated to 2.9 overnight, she was pan
   cultured. Heme/Onc has concern for VRE.
   - f/u ID recs
   - continue meropenem (treat for 14-day course, day 1 = [**11-10**])
   - on voriconazole (day 1 = [**2114-11-19**]) - increasing LFT's may necessitate
   changing dosing or d/c'ing medication and switching to a different
   [**Doctor Last Name **]
   - f/u pending blood cultures; acid fast, fungal, viral cultures from
   BAL
   - Will add Linezolid to cover for VRE
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   # ARF:
   Cr above baseline but stable.
   - renally dose meds
   - avoid nephrotoxins
   # Volume overload: Up 10 kg since admission.
   - continue lasix drip , goal even today in the setting of increasing
   lactate and potential infectious picture
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs had significant increase - discuss voriconazole with ID and
   possibility of switching to different [**Doctor Last Name **] if possible or adjusting
   dose
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Continue decreased solumedrol dose per heme/onc recs
   - Appreciate BMT recs
   # Hep B:
   - Cont lamivudine
   #Constipation:
   Need to continue bowel regimen aggressively b/c of increased fentanyl
   (at 500) w sedation now.
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-24**] 12:30 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-11-24 10:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Increased hypoxemia; FiO2 increased to 1.0
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-21**] 12:19 PM
   Bactrim (SMX/TMP) - [**2114-11-21**] 05:53 PM
   Vancomycin - [**2114-11-22**] 07:35 AM
   Acyclovir - [**2114-11-23**] 10:21 PM
   Linezolid - [**2114-11-24**] 05:30 AM
   Meropenem - [**2114-11-24**] 07:50 AM
   Voriconazole - [**2114-11-24**] 08:40 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2114-11-24**] 04:00 AM
   Pantoprazole (Protonix) - [**2114-11-24**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-24**] 08:15 AM
   Other medications:
   methadone, linezolid, SQH, methylpred 20, SQI, vori, diazepam, erythro,
   [**Last Name (un) 614**], colace, PPI, fentanyl weaning, @ 400, lamivudine, acyclovir,
   midaz @ 10, prn electrolytes
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-24**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 74 (74 - 105) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 12 (9 - 12)mmHg
   Total In:
                                                                  3,282 mL
                                                                  1,635 mL
   PO:
   TF:
                                                                  1,101 mL
                                                                    482 mL
   IVF:
                                                                  1,821 mL
                                                                    983 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                  1,845 mL
   Urine:
                                                                  3,450 mL
                                                                  1,845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -208 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 290 (270 - 290) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   PIP: 41 cmH2O
   Plateau: 40 cmH2O
   SpO2: 92%
   ABG: 7.39/68/81.[**Numeric Identifier 508**]/39/12
   Ve: 9.1 L/min
   PaO2 / FiO2: 82
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: opens eyes somewhat
   to voice, Sedated, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   298 K/uL
   164 mg/dL
   1.0 mg/dL
   39 mEq/L
   5.2 mEq/L
   45 mg/dL
   100 mEq/L
   143 mEq/L
   23.3 %
   17.0 K/uL
        [image002.jpg]
                            [**2114-11-22**]  03:02 PM
                            [**2114-11-22**]  06:04 PM
                            [**2114-11-22**]  08:59 PM
                            [**2114-11-22**]  10:43 PM
                            [**2114-11-23**]  04:05 AM
                            [**2114-11-23**]  04:23 AM
                            [**2114-11-23**]  10:50 PM
                            [**2114-11-24**]  04:26 AM
                            [**2114-11-24**]  04:42 AM
                            [**2114-11-24**]  06:52 AM
   WBC
   14.8
   17.0
   Hct
   23.7
   23.3
   Plt
   268
   298
   Cr
   1.0
   0.9
   1.0
   TCO2
   32
   39
   38
   39
   42
   42
   43
   Glucose
   129
   131
   164
   Other labs: PT / PTT / INR:10.6/26.9/0.9, ALT / AST:142/100, Alk Phos /
   T Bili:262/0.2, Differential-Neuts:82.1 %, Band:2.0 %, Lymph:9.6 %,
   Mono:7.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.8 mmol/L,
   Albumin:2.7 g/dL, LDH:427 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.9
   mg/dL
   Imaging: CXR: ETT a bit to high.  Diffuse infiltrates similar to prior
   Microbiology: No new positive
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
    ALL
 .H/O [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    BMT
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Tolerating discontinuation of paralytics,
   although oxygenation remains tenuous.  Marked hypoxemia.   Attributed
   to ARDS (supported by measurements) and possible infection and possible
   cardiogenic pulmonary edema.  Unclear as to component of GVHD.  No
   evidence for Pneumocystis (Bactim d/c'd last PM).  Continue with broad
   spectrum empirical antibiotics
   (vancomycin/meropenem/voriconazole/mycafungin).  Continue mechanical
   ventilation, hope to decrease FiO2 to <60% if possible, and adjust PEEP
   as tolerated to improve oxygenation.  Monitor plerual pressures.
   Monitor CXR.  Would prepare to move to tracheostomy tube.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics, continue net diuresis.
   Await bronchoscopy results.  Trial off paralytics today.  Plan to
   proceed with tracheotomy tube (likely surgical).
   LACTIC ACIDOSIS
  monitor closely.  [**Month (only) 51**] reflect evolving sepsis
   need to monitor closely.
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   ALKALEMIA -- component of metabolic alkalosis, likey due to contraction
   alkalosis in context of active diuresis.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21
   NUTRITIONAL SUPPORT -- TF
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-24**] 12:30 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2114-11-25 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -The patient continued to have desaturations into the 80s on PEEP of 15
   and FiO2 of 100%
   - Bactrim was re-started (Febrile, LDH  spikes and Bactrim use were
   inversely proportional)
   - Started IV-IG as per Heme/onc and ID recs
   - Advanced ETT 2cm (as was at level of clavicle previously)
   -Propofol started this AM with the goal of reducing the dose of
   Fentanyl.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2114-11-22**] 07:35 AM
   Meropenem - [**2114-11-24**] 08:00 PM
   Voriconazole - [**2114-11-24**] 08:00 PM
   Acyclovir - [**2114-11-24**] 10:00 PM
   Bactrim (SMX/TMP) - [**2114-11-25**] 04:00 AM
   Linezolid - [**2114-11-25**] 06:00 AM
   Erythromycin - [**2114-11-25**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-24**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-24**] 08:00 PM
   Diazepam (Valium) - [**2114-11-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-25**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 92 (70 - 110) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 27 (0 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  4,298 mL
                                                                  1,710 mL
   PO:
   TF:
                                                                  1,171 mL
                                                                    384 mL
   IVF:
                                                                  2,657 mL
                                                                    965 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  4,750 mL
                                                                  1,415 mL
   Urine:
                                                                  4,750 mL
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -452 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 290 (290 - 290) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 31 cmH2O
   Compliance: 18.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.45/61/60/40/14
   Ve: 8.4 L/min
   PaO2 / FiO2: 60
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: volume-overloaded, anasarca, but improved compared to
   several days prior
   SKIN: No rashes. Deep tissue injury on sacrum.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   298 K/uL
   7.9 g/dL
   135 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.0 mEq/L
   43 mg/dL
   96 mEq/L
   145 mEq/L
   23.8 %
   17.9 K/uL
        [image002.jpg]
                            [**2114-11-22**]  10:43 PM
                            [**2114-11-23**]  04:05 AM
                            [**2114-11-23**]  04:23 AM
                            [**2114-11-23**]  10:50 PM
                            [**2114-11-24**]  04:26 AM
                            [**2114-11-24**]  04:42 AM
                            [**2114-11-24**]  06:52 AM
                            [**2114-11-24**]  11:35 AM
                             [**2114-11-25**]  04:06 AM
                             [**2114-11-25**]  04:24 AM
   WBC
   14.8
   17.0
   17.9
   Hct
   23.7
   23.3
   23.8
   Plt
   [**Telephone/Fax (3) 11154**]
   Cr
   0.9
   1.0
   0.7
   TCO2
   38
   39
   42
   42
   43
   41
   44
   Glucose
   131
   164
   135
   135
   Other labs: PT / PTT / INR:10.9/31.2/0.9, ALT / AST:74/37, Alk Phos / T
   Bili:200/0.2, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:6.7 %,
   Mono:9.6 %, Eos:0.5 %, Fibrinogen:643 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:2.5 g/dL, LDH:418 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS:  The patient with multiple desat
   episodes into 80s despite being on PEEP 15 matched to esophageal
   pressure and FiO2 of 100%.  Propofol was started this AM without
   significant improvement.  Lactate continues to be elevated at 2.9. The
   patient is off paralytics.
   - Re-start on Paralytics given desat episodes
   - continue on Volume Control ventilation with tv 290, rate 30, PEEP 15,
   FIO2 100%
   - continue to wean FIO2 as tolerated for sats >90%
   -Attempt airway pressure release ventilation if no further improvement
   - attempt recruitment maneuvers
   - continue to wean off fentanyl now that the patient is started on
   Propfol
   - continue Midazolam at 10 w/ bolus
   - F/u CXR to evaluate ETT position
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: negative for CMV.  C diff [**11-17**] negative.
   B-glucan and galactomannan negative x 2.  BAL IF negative for PCP x 2.
   Lactate stably elevated at 2.9.  Pt. started on Linezolid due to
   concern for VRE.
   - f/u ID recs
   - continue meropenem (treat for 14-day course, day 1 = [**11-10**])
   - on voriconazole (day 1 = [**2114-11-19**]) - increasing LFT's may necessitate
   changing dosing or d/c'ing medication and switching to a different
   [**Doctor Last Name **]
   - f/u pending blood cultures; acid fast, fungal, viral cultures from
   BAL
   - continue Linezolid to cover for VRE
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   # ARF:
   Cr declined to 0.7, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   -continue to monitor Cr
   # Volume overload: Significant volume overload since admission, but
   probably approaching diuresis limits given current CVP 4 and elevated
   bicarb
   - continue lasix drip with max diuresis goal -500 today as blood
   pressure tolerates
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs trending down today  - will continue to monitor given
   Voriconazole use in this patient.  Will re-assess Voriconazole use if
   LFTs continue to climb
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Continue decreased solumedrol dose per heme/onc recs
   - Appreciate BMT recs
   # Hep B:
   - Cont lamivudine
   #Constipation:
   Need to continue bowel regimen aggressively b/c of Fentanyl use for
   sedation at this point
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
    BMT
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-24**] 12:30 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: heparin, venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-11-25 09:36:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Ongoing severe hypoxemia
   Bactrim added back
   Propfol added
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2114-11-24**] 08:00 PM
   Acyclovir - [**2114-11-24**] 10:00 PM
   Bactrim (SMX/TMP) - [**2114-11-25**] 04:00 AM
   Linezolid - [**2114-11-25**] 06:00 AM
   Erythromycin - [**2114-11-25**] 06:00 AM
   Meropenem - [**2114-11-25**] 07:51 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-24**] 08:00 PM
   Diazepam (Valium) - [**2114-11-25**] 04:00 AM
   Other medications:
   methadone 20, linezolid, sqh, methylpred 20 [**Hospital1 **], sqi, vori, valium,
   erythro, fentanyl @ 200, lasix @ 10, [**Last Name (un) 614**], colace, ppi, lamivudine,
   acyclovir, midaz @ 15, chg, bactrim 200 q 6, propofol @ 20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-25**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 95 (70 - 110) bpm
   BP: 110/58(77) {0/0(0) - 0/0(0)} mmHg
   RR: 28 (0 - 30) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
   CVP: 4 (2 - 4)mmHg
   Total In:
                                                                  4,298 mL
                                                                  2,193 mL
   PO:
   TF:
                                                                  1,171 mL
                                                                    498 mL
   IVF:
                                                                  2,657 mL
                                                                  1,205 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  4,750 mL
                                                                  2,055 mL
   Urine:
                                                                  4,750 mL
                                                                  2,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -452 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 290 (290 - 290) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 31 cmH2O
   Compliance: 18.1 cmH2O/mL
   SpO2: 88%
   ABG: 7.45/61/60/40/14
   Ve: 7.8 L/min
   PaO2 / FiO2: 60
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   298 K/uL
   135 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.0 mEq/L
   43 mg/dL
   96 mEq/L
   145 mEq/L
   23.8 %
   17.9 K/uL
        [image002.jpg]
                            [**2114-11-22**]  10:43 PM
                            [**2114-11-23**]  04:05 AM
                            [**2114-11-23**]  04:23 AM
                            [**2114-11-23**]  10:50 PM
                            [**2114-11-24**]  04:26 AM
                            [**2114-11-24**]  04:42 AM
                            [**2114-11-24**]  06:52 AM
                            [**2114-11-24**]  11:35 AM
                             [**2114-11-25**]  04:06 AM
                             [**2114-11-25**]  04:24 AM
   WBC
   14.8
   17.0
   17.9
   Hct
   23.7
   23.3
   23.8
   Plt
   [**Telephone/Fax (3) 11154**]
   Cr
   0.9
   1.0
   0.7
   TCO2
   38
   39
   42
   42
   43
   41
   44
   Glucose
   131
   164
   135
   135
   Other labs: PT / PTT / INR:10.9/31.2/0.9, ALT / AST:74/37, Alk Phos / T
   Bili:200/0.2, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:6.7 %,
   Mono:9.6 %, Eos:0.5 %, Fibrinogen:643 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:2.5 g/dL, LDH:418 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   52-year-old woman s/p stem cell transplant now with unrelenting severe
   hypoxemic respiratory failure.  Etiology remains unclear.
   Respiratory failure
   Hypoxemia remains very severe.
   Diuresed well (CVP 4).  Will try -500 though may be unable to succeed.
   Will check CXR today.
   Check esophageal pressure and adjust PEEP based on results
   [**Month (only) 51**] need to re-paralyze today
   ?Pneumocystis
   Although negative BAL DFA for PCP, [**Name10 (NameIs) **] resumed Bactrim yesterday because
   of temporal relationship between prior Bactrim dosing, LDH, and fever.
   Even though PCP seems unlikely (DFA about 90% sensitive from BAL),
   there are few
   Tolerating discontinuation of paralytics, although oxygenation remains
   tenuous.  Marked hypoxemia.   Attributed to ARDS (supported by
   measurements) and possible infection and possible cardiogenic pulmonary
   edema.  Unclear as to component of GVHD.  No evidence for Pneumocystis
   (Bactim d/c'd last PM).  Continue with broad spectrum empirical
   antibiotics (vancomycin/meropenem/voriconazole/mycafungin).  Continue
   mechanical ventilation, hope to decrease FiO2 to <60% if possible, and
   adjust PEEP as tolerated to improve oxygenation.  Monitor plerual
   pressures.   Monitor CXR.  Would prepare to move to tracheostomy tube.
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
    ALL
 .H/O [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    BMT
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Tolerating discontinuation of paralytics,
   although oxygenation remains tenuous.  Marked hypoxemia.   Attributed
   to ARDS (supported by measurements) and possible infection and possible
   cardiogenic pulmonary edema.  Unclear as to component of GVHD.  No
   evidence for Pneumocystis (Bactim d/c'd last PM).  Continue with broad
   spectrum empirical antibiotics
   (vancomycin/meropenem/voriconazole/mycafungin).  Continue mechanical
   ventilation, hope to decrease FiO2 to <60% if possible, and adjust PEEP
   as tolerated to improve oxygenation.  Monitor plerual pressures.
   Monitor CXR.  Would prepare to move to tracheostomy tube.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics, continue net diuresis.
   Await bronchoscopy results.  Trial off paralytics today.  Plan to
   proceed with tracheotomy tube (likely surgical).
   LACTIC ACIDOSIS
  monitor closely.  [**Month (only) 51**] reflect evolving sepsis
   need to monitor closely.
   HYPERNATREMIA
 improved with free water.  Monitor Na.
   ALKALEMIA -- component of metabolic alkalosis, likey due to contraction
   alkalosis in context of active diuresis.
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21
   NUTRITIONAL SUPPORT -- TF
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-25**] 06:19 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-11-26 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Propofol started yesterday in AM, Fentanyl was weaned off.  The
   patient was continued on Methadone, Valium, Versed.
   - Cisatracurium (bolus and drip) re-started in AM as the pt. was still
   desatting on PEEP 15% and FiO2 of 100%
   -Attempt to increase PEEP to 18, decrease PEEP to 12 did not help with
   desaturations into 80s
   -The patient was switched to Airway Pressure Release Ventilation (APRV)
   prior to switching the patient to prone ventilation.  Resulted in
   increased sats to ~93%, but unable to wean FiO2 down from 100%.  ABG at
   3pm : 7.26/101/67/47/+13.
   -The patient was satting better 94% on FiO2 100% after recruitment
   maneuvers followed by increase in Phigh and Plow by 3 each to 33 and
   13.
   -Cisctracurium dose increased to 0.4 mg/kg/hr (following a bolus) as
   the patient was still twitching (dosing confirmed with pharmacy).  The
   pt. dose of Versed was increased as she was still overbreathing.
   -The patient was transferred to RotaProne bed around midnight.  The
   patient initially desatted to low 80s during transfer, but slowly
   improved to 96% while in prone position.
   -The patient was switched to AC with PEEP 17 and FiO2 of 100%. Sats
   continued to be 97-98%.  ABG at that time was 7.36/81/68/48/16.
   -AM CXR was postponed until later this AM as the pt. quickly desatted
   when switched into supine position.  Her O2 sats returned to 97% slowly
   with prone positioning.
   -Tube feeds and PO meds held as the pt. is in the prone position.
   This AM, the pt. is able to tolerate supine position for longer periods
   of time with satsin high 80s
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-25**] 06:00 AM
   Meropenem - [**2114-11-25**] 08:00 PM
   Voriconazole - [**2114-11-25**] 08:00 PM
   Acyclovir - [**2114-11-25**] 10:00 PM
   Bactrim (SMX/TMP) - [**2114-11-26**] 04:00 AM
   Linezolid - [**2114-11-26**] 06:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Cisatracurium - 0.36 mg/Kg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Cisatracurium - [**2114-11-25**] 12:02 PM
   Heparin Sodium (Prophylaxis) - [**2114-11-25**] 08:00 PM
   Diazepam (Valium) - [**2114-11-26**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 81 (76 - 101) bpm
   BP: 141/84(101) {106/54(74) - 153/89(108)} mmHg
   RR: 14 (0 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
    CVP: 4 (4 - 4)mmHg
   Total In:
                                                                  6,030 mL
                                                                  1,341 mL
   PO:
   TF:
                                                                    908 mL
   IVF:
                                                                  4,573 mL
                                                                  1,341 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,055 mL
                                                                  1,640 mL
   Urine:
                                                                  4,985 mL
                                                                  1,625 mL
   NG:
                                                                     70 mL
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                   -299 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 270 (270 - 310) mL
   Vt (Spontaneous): 0 (0 - 270) mL
   PS : 10 cmH2O
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   Compliance: 20.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/81.[**Numeric Identifier 218**]/68/43/16
   Ve: 7.3 L/min
   PaO2 / FiO2: 68
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: volume-overloaded, anasarca, but improved compared to
   several days prior
   SKIN: No rashes. Deep tissue injury on sacrum.
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   305 K/uL
   7.5 g/dL
   118 mg/dL
   0.8 mg/dL
   43 mEq/L
   4.7 mEq/L
   38 mg/dL
   93 mEq/L
   142 mEq/L
   23.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2114-11-25**]  12:45 PM
                             [**2114-11-25**]  01:37 PM
                             [**2114-11-25**]  01:59 PM
                             [**2114-11-25**]  03:14 PM
                             [**2114-11-25**]  05:22 PM
                             [**2114-11-25**]  06:50 PM
                             [**2114-11-25**]  08:15 PM
                             [**2114-11-26**]  02:45 AM
                             [**2114-11-26**]  04:15 AM
                             [**2114-11-26**]  04:24 AM
   WBC
   13.7
   Hct
   23.3
   Plt
   305
   Cr
   0.7
   0.8
   TCO2
   46
   46
   47
   46
   44
   46
   47
   48
   Glucose
   144
   167
   118
   Other labs: PT / PTT / INR:10.9/31.2/0.9, ALT / AST:74/37, Alk Phos / T
   Bili:200/0.2, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.5 g/dL, LDH:418 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS:  The patient shows with improved
   oxygenation while in prone position, but continues to shows overall
   worsening of oxygenation, and is not able to tolerate being in supine
   position for extended periods of time.  APRV ventilation did not result
   in significant improvement in oxygenation this AM.
   - Continue Prone ventilation and adjust vent settings and positions as
   needed with goal PO2>60,  will tolerate pCO2 in 80s.
   - continue to wean FIO2 as tolerated for sats >90%
   - Continue on Propofol, Valium, Methadose and Versed for sedation/pain
   control
   - decrease Midazolam to 10 as tolerated
   - Continue paralysis with Cisatracurium for now
   - F/u with Micro report of CMV findings on prior BAL.
   - Discussion of prognosis and goals of care with the family
   -Hold PO meds and tube feed including Lamivudine for now given pt. in
   prone position, but will need to consider other med options and TPN
   feeds (IV access may be a problem) if in prone position for extended
   period of time
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  Lactate
   stably elevated at 2.9.  Pt. started on Linezolid due to concern for
   VRE.
   - f/u ID recs
   - continue Meropenem, Voriconazole (day 1 = [**2114-11-19**]) - increasing
   LFT's may necessitate changing dosing or d/c'ing medication and
   switching to a different [**Doctor Last Name **]
   - continue Linezolid to cover for VRE
   - f/u pending blood cultures
   - Increase Solumedrol dose to 40mg [**Hospital1 **]
   - Increase Acyclovir to q8hrs frequency
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - Transfuse for Hct < 21
   # ARF:
   Cr declined to 0.8, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   -continue to monitor Cr
   # Volume overload: Significant volume overload since admission, but
   probably approaching diuresis limits given current CVP 4 and elevated
   bicarb
   - continue lasix drip with goal of even today
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs trending down today  - will continue to monitor given
   Voriconazole use in this patient.  Will re-assess Voriconazole use if
   LFTs continue to climb
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Continue decreased solumedrol dose per heme/onc recs
   - Appreciate BMT recs
   # Hep B:
   - Hold lamivudine for now given in prone position.
   #Constipation:
   Need to continue bowel regimen aggressively b/c of Fentanyl use for
   sedation at this point
   - continue po narcan prn and standing docusate b/c still on fentanyl
   - lactulose, bisacodyl, senna, erythromycin PRN also
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2114-11-24**] 12:30 AM 48 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: heparin, venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-11-26 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on high FiO2, currently 100%.
   Paralytic [**Doctor Last Name **] resumed.
   Now on rotator bed to allow proning/repositioning.
   Antimicrobials empirically adjusted, including resuming high-dose
   Bactrim (empirical).
   New information from BAL specimen [**2114-11-10**], demonstrating evidence for
   viral cytopathic effects.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-25**] 06:00 AM
   Acyclovir - [**2114-11-25**] 10:00 PM
   Bactrim (SMX/TMP) - [**2114-11-26**] 04:00 AM
   Linezolid - [**2114-11-26**] 06:00 AM
   Meropenem - [**2114-11-26**] 08:35 AM
   Voriconazole - [**2114-11-26**] 08:59 AM
   Infusions:
   Cisatracurium - 0.27 mg/Kg/hour
   Midazolam (Versed) - 20 mg/hour
   Furosemide (Lasix) - 16 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2114-11-25**] 12:02 PM
   Diazepam (Valium) - [**2114-11-26**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-26**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema, Subconjunctival
   hemorrhage
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-26**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 81 (76 - 101) bpm
   BP: 141/84(101) {106/54(74) - 153/89(108)} mmHg
   RR: 14 (0 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  6,030 mL
                                                                  1,759 mL
   PO:
             TF:
                                                                    908 mL
   IVF:
                                                                  4,573 mL
                                                                  1,759 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,055 mL
                                                                  2,490 mL
   Urine:
                                                                  4,985 mL
                                                                  2,475 mL
   NG:
                                                                     70 mL
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                   -731 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV/Biphasic+ApnVol
   Vt (Set): 270 (270 - 310) mL
   Vt (Spontaneous): 0 (0 - 270) mL
   PS : 10 cmH2O
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18 cmH2O/mL
   SpO2: 92%
   ABG: 7.42/74/57/43/18
   Ve: 9.8 L/min
   PaO2 / FiO2: 57
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Subconjunctival hemorrhage
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   305 K/uL
   118 mg/dL
   0.8 mg/dL
   43 mEq/L
   4.8 mEq/L
   38 mg/dL
   93 mEq/L
   142 mEq/L
   23.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2114-11-25**]  01:37 PM
                             [**2114-11-25**]  01:59 PM
                             [**2114-11-25**]  03:14 PM
                             [**2114-11-25**]  05:22 PM
                             [**2114-11-25**]  06:50 PM
                             [**2114-11-25**]  08:15 PM
                             [**2114-11-26**]  02:45 AM
                             [**2114-11-26**]  04:15 AM
                             [**2114-11-26**]  04:24 AM
                             [**2114-11-26**]  08:35 AM
   WBC
   13.7
   Hct
   23.3
   Plt
   305
   Cr
   0.7
   0.8
   TCO2
   46
   47
   46
   44
   46
   47
   48
   50
   Glucose
   144
   167
   118
   Other labs: PT / PTT / INR:10.9/31.2/0.9, ALT / AST:74/37, Alk Phos / T
   Bili:200/0.2, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.5 g/dL, LDH:418 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.9
   mg/dL
   Microbiology: BAL specimen from [**2114-11-10**] with evidence of viral
   cytopathic effect (finalized today).
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Overall clinical decline, now back on paralytics
   and 100% FiO2.  Oxygenation remains tenuous.  Marked hypoxemia.
   Attributed to ARDS (supported by measurements) and possible infection
   and possible cardiogenic pulmonary edema.  Unclear as to component of
   GVHD.  No evidence for Pneumocystis, but Bactim now resumed empirically
   after discontinuation last week.  Continue with broad spectrum
   empirical antibiotics (linazolid/meropenem/voriconazole/Bactrim).
   Continue mechanical ventilation, hope to decrease FiO2 to <60% if
   possible, and adjust PEEP as tolerated to improve oxygenation.  Monitor
   plerual pressures.   Monitor CXR.  Would prepare to move to
   tracheostomy tube if improves to allow procedure to be performed
   safely.  Consider ECMO evaluation, but unable to transfer safely.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics, continue net diuresis.
   Await pending bronchoscopy results.  Need to F/U final BAL report on
   viral cytopathic effects.
   HYPOXEMIA
 evidence for right-to-left shunt on recent cardiac echo.
   Likely contributing to severe hypoxemia if pulmonary hypertension
   developing.  Consider trial of NO to determine responsiveness,
   eligibility for longer acting [**Doctor Last Name **].  Monitor SaO2 (maintain >85%) or
   pO2 (maintain >55 mmHg).
   NEUROLOGICAL STATUS -- sedated, paralyzed.  Would adjust
   benzodiazepines back to doses comparable to last week.
   LACTIC ACIDOSIS
  Persisent, mild elevation.  [**Month (only) 51**] reflect evolving
   sepsis (line-related, VAP, urinary source, hepatobiliary infection)
   need to monitor closely.
   ALKALEMIA -- component of metabolic alkalosis (HCO3= 43), likey due to
   contraction alkalosis in context of active diuresis.  Aggressive
   repletion of Cl (as KCl).
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   GVHD -- continue medications.  Now on higher dose of steroids (for
   empirical Pneumocystis treatment)
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21.
   NUTRITIONAL SUPPORT
 continue TF, but limited by proning position.
   [**Month (only) 51**] need to initiate TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Meeting with husband.  Updated medical condition and answered all
   questions (through interpreter).  Understands severity of current
   medical condition, and limited therapeutic options.  Agrees to continue
   current level of care.  If continues with severe/profound refractory
   hypoxemia, and in the event of superimposed cardiac decompensation or
   arrest, no plans for CPR (medical futility).  Husband understands.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2114-11-26**] 18:14 ------

2114-11-27 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2114-11-26**] 03:28 PM
 ARTERIAL LINE - START [**2114-11-26**] 08:20 PM
   -in a.m. -> prone, on APRV with FIO2 100%
   -changed acyclovir to 400 mg IV Q8H
   -changed methylprednisolone to 40 mg IV BID
   -viral culture [**11-10**] showed CMV-like cytopathic effect -> started
   gancyclovir (d/c'ed acyclovir)
   -decreased midazolam drip rate
   -Dr. [**Last Name (STitle) **] discussed code status with family, now DNR (no chest
   compressions or shocks)
   -TTE not done (old TTE showed intracardiac shunt)
   -7 p.m. started nitric oxide, with improvement in PaO2 from 50s to 80s
   -9 p.m. surgery placed radial A-line
   -midnight: decreased FIO2 to 90%
   -1 a.m. gas 7.45/53/122 --> decreased NO to 15 ppm
   -throughout night, further titrated FIO2 to 80%, then NO to 10 ppm,
   then FIO2 to 70%
   -did not tolerate trial of shutting off NO for 2 minutes
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-25**] 06:00 AM
   Acyclovir - [**2114-11-26**] 10:15 AM
   Voriconazole - [**2114-11-26**] 08:51 PM
   Meropenem - [**2114-11-27**] 01:31 AM
   Gancyclovir - [**2114-11-27**] 02:20 AM
   Bactrim (SMX/TMP) - [**2114-11-27**] 03:48 AM
   Linezolid - [**2114-11-27**] 06:09 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Cisatracurium - 0.27 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-26**] 08:09 PM
   Diazepam (Valium) - [**2114-11-27**] 03:48 AM
   Methadone Hydrochloride - [**2114-11-27**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-27**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.3
   HR: 61 (59 - 81) bpm
   BP: 110/62(79) {94/52(18) - 150/85(322)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,244 mL
                                                                  1,173 mL
   PO:
             TF:
   IVF:
                                                                  4,244 mL
                                                                  1,173 mL
   Blood products:
   Total out:
                                                                  6,020 mL
                                                                    860 mL
   Urine:
                                                                  6,005 mL
                                                                    860 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,776 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV/Biphasic+ApnVol
   Vt (Set): 270 (270 - 270) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 10 cmH2O
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%, Neuromusc Block, Hemodynamic Instability
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/66/101/43/15
   Ve: 6.3 L/min
   PaO2 / FiO2: 144
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: volume-overloaded, anasarca, but improved compared to
   several days prior
   SKIN: No rashes. Deep tissue injury on sacrum. + stage II sacral decub
   ulcer near anus (from flexiseal)
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   289 K/uL
   7.1 g/dL
   117 mg/dL
   0.9 mg/dL
   43 mEq/L
   4.2 mEq/L
   35 mg/dL
   89 mEq/L
   138 mEq/L
   21.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2114-11-26**]  08:35 AM
                             [**2114-11-26**]  10:35 AM
                             [**2114-11-26**]  12:33 PM
                             [**2114-11-26**]  05:20 PM
                             [**2114-11-26**]  08:27 PM
                             [**2114-11-27**]  01:04 AM
                             [**2114-11-27**]  03:25 AM
                             [**2114-11-27**]  03:46 AM
                             [**2114-11-27**]  05:03 AM
                             [**2114-11-27**]  06:12 AM
   WBC
   10.1
   Hct
   21.8
   Plt
   289
   Cr
   0.9
   TCO2
   50
   45
   46
   51
   48
   38
   49
   46
   45
   Glucose
   117
   Other labs: PT / PTT / INR:11.4/61.1/0.9, ALT / AST:55/35, Alk Phos / T
   Bili:176/0.1, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.9 g/dL, LDH:353 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS: Ms. [**Known lastname **] displayed improved
   oxygenation while in prone position with NO. and is not able to
   tolerate being in supine position for extended periods of time.  APRV
   ventilation did not result in significant improvement in oxygenation
   this AM.
   - Continue Prone ventilation and adjust vent settings and positions as
   needed with goal PO2>60,  will tolerate pCO2 in 80s.
   - continue to wean FIO2 as tolerated for sats >90%
   - change NO from 10 ppm to 5ppm if patient tolerates; then consider
   switching off NO. If desaturation, can increase FiO2.
   - Continue on Propofol, Methadone and Versed for sedation/pain control
   - D/C fentanyl and valium
   - D/C phenylephrine
   - Continue paralysis with Cisatracurium (needs to be on for prone
   positioning)
   - F/u with Micro report of CMV findings on prior BAL.
   -Hold PO meds and tube feed including Lamivudine for now given pt. in
   prone position, but will need to consider other med options and TPN
   feeds (IV access may be a problem) if in prone position for extended
   period of time
   - will need to touch base w/ Heme/Onc and ID
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .  Pt.
   started on Linezolid due to concern for VRE.
   - f/u ID recs
   - continue Meropenem, Voriconazole (day 1 = [**2114-11-19**]) - increasing
   LFT's may necessitate changing dosing or d/c'ing medication and
   switching to a different [**Doctor Last Name **]
   - Discuss Antibiotics course w/ ID and BMT as to endpoints?
   - continue Bactrim
   - continue Linezolid to cover for VRE
   - f/u pending blood cultures
   - Increase Solumedrol dose to 40mg [**Hospital1 **]
   - continue gancyclovir (no acyclovir)
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - transfuse 1u PRBC today
   -check post xfusion HCT
   # ARF:
   Cr declined to 0.8, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   -continue to monitor Cr
   # Volume overload: Significant volume overload since admission, but
   probably approaching diuresis limits given current CVP 4 and elevated
   bicarb
   - continue lasix drip with goal of even today
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs continuing to trend down today  - will continue to monitor given
   Voriconazole use in this patient.  Will re-assess Voriconazole use if
   LFTs continue to climb
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Continue decreased solumedrol dose per heme/onc recs
   - Appreciate BMT recs
   # Hep B:
   - Hold lamivudine for now given in prone position
   ICU Care
   Nutrition:
   Hold tube feeds today as the pt. in prone position.  Will plan to
   restart TPN if the pt. remains in prone position for extended periods
   of time.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: heparin, venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Communication:  Comments:
   Code status: DNR (no chest compressions or shocks)
   Disposition: [**Hospital Unit Name 1**]

2114-11-27 09:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Now in Rotator bed to allow for change in body position (including
   proning)
   Remains sedated, paralyzed.
   Inhaled NO initiated last PM (20 PPM) with immediate dramatic
   improvement in oxygenation.  Currently on NO 8 PPM, and FiO2 70% with
   SaO2 100%.
   New aline placed.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Paralyzed
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2114-11-25**] 06:00 AM
   Acyclovir - [**2114-11-26**] 10:15 AM
   Voriconazole - [**2114-11-26**] 08:51 PM
   Gancyclovir - [**2114-11-27**] 02:20 AM
   Bactrim (SMX/TMP) - [**2114-11-27**] 03:48 AM
   Linezolid - [**2114-11-27**] 06:09 AM
   Meropenem - [**2114-11-27**] 07:51 AM
   Infusions:
   Cisatracurium - 0.27 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-26**] 08:09 PM
   Diazepam (Valium) - [**2114-11-27**] 03:48 AM
   Methadone Hydrochloride - [**2114-11-27**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-27**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96
   HR: 61 (59 - 79) bpm
   BP: 112/60(79) {94/49(18) - 150/85(322)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,244 mL
                                                                  1,338 mL
   PO:
             TF:
   IVF:
                                                                  4,244 mL
                                                                  1,338 mL
   Blood products:
   Total out:
                                                                  6,020 mL
                                                                  1,060 mL
   Urine:
                                                                  6,005 mL
                                                                  1,060 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,776 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV/Biphasic+ApnVol
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Spontaneous): 1
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%, Neuromusc Block, Hemodynamic Instability
   PIP: 37 cmH2O
   SpO2: 97%
   ABG: 7.43/64/73.[**Numeric Identifier 218**]/43/14
   Ve: 5.7 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Normal
   Labs / Radiology
   7.1 g/dL
   289 K/uL
   117 mg/dL
   0.9 mg/dL
   43 mEq/L
   4.2 mEq/L
   35 mg/dL
   89 mEq/L
   138 mEq/L
   21.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2114-11-26**]  10:35 AM
                             [**2114-11-26**]  12:33 PM
                             [**2114-11-26**]  05:20 PM
                             [**2114-11-26**]  08:27 PM
                             [**2114-11-27**]  01:04 AM
                             [**2114-11-27**]  03:25 AM
                             [**2114-11-27**]  03:46 AM
                             [**2114-11-27**]  05:03 AM
                             [**2114-11-27**]  06:12 AM
                             [**2114-11-27**]  07:53 AM
   WBC
   10.1
   Hct
   21.8
   Plt
   289
   Cr
   0.9
   TCO2
   45
   46
   51
   48
   38
   49
   46
   45
   44
   Glucose
   117
   Other labs: PT / PTT / INR:11.4/61.1/0.9, ALT / AST:55/35, Alk Phos / T
   Bili:176/0.1, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.9 g/dL, LDH:353 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Overall clinical improvement, with excellent
   response to inhaled/exogenous NO.  NO initiated to improved oxygenation
   and interupt hypoxemia-induced pulmonary vasoconstriction.  Remains on
   paralytics.  Attributed to ARDS (supported by measurements) and
   possible infection and possible cardiogenic pulmonary edema.  Unclear
   as to component of GVHD.  No evidence for Pneumocystis, but Bactim now
   resumed empirically after discontinuation last week.  Continue with
   broad spectrum empirical antibiotics
   (linazolid/meropenem/voriconazole/Bactrim).  Continue mechanical
   ventilation, hope to decrease FiO2 to <60% if possible, and adjust
   inspiratory and expiratory pressures as tolerated to improve
   oxygenation.  Monitor plerual pressures.   Monitor CXR.  Would prepare
   to move to tracheostomy tube if improves to allow procedure to be
   performed safely.  Continue NO, with hope to be able to wean to d/c if
   able to maintain adequate SaO2 and pO2.  Considered ECMO evaluation,
   but unable to transfer safely.
   PULMONARY INFILTRATES
 diffuse, pleural effusions.  Attributble to
   ARDS, less likely infection (ex. VAP), but may in part related to net
   positive fluid balance.  Continue antibiotics (including Bactrim for
   possible Pneumocystis), continue net diuresis.  Await pending
   bronchoscopy results.  Final BAL report demonstrated viral cytopathic
   effects --> currently on Gancyclovir.
   HYPOXEMIA
 evidence for right-to-left shunt on recent cardiac echo.
   Likely contributing to severe hypoxemia if pulmonary hypertension
   developing --> excellent response to  NO, so eligible for longer acting
   [**Doctor Last Name **].  Monitor SaO2 (maintain >85%) or pO2 (maintain >55 mmHg).
   NEUROLOGICAL STATUS -- sedated, paralyzed.  Would adjust
   benzodiazepines back to doses comparable to last week.
   LACTIC ACIDOSIS
  Persisent, mild elevation.  [**Month (only) 51**] reflect evolving
   sepsis (line-related, VAP, urinary source, hepatobiliary infection)
   need to monitor closely.
   ALKALEMIA -- component of metabolic alkalosis (HCO3= 43), likey due to
   contraction alkalosis in context of active diuresis.  Aggressive
   repletion of Cl (as KCl).
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   GVHD -- continue medications.  Now on higher dose of steroids (for
   empirical Pneumocystis treatment)
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21.
   NUTRITIONAL SUPPORT
 continue TF, but limited by proning position.
   [**Month (only) 51**] need to initiate TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-26**] 08:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-28 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - proned, changed NO 10->5 ppm, ABG 7.55/ 51/67/46 supine
   NO->0 ppm , desats to 88% on FiO2 of 70%.
   -HCT 21, so xfuse 1u PRBC, check PM HCT, was 26.2
   -oxygenating better while prone, no NO on, FiO2 at 80%
   4am ABG: 7.55/ 46/ 64/ 42
   -examined her while turning- now has stage II decub ulcer at anus,
   flexiseal removed
   -This AM, desatted to 85% (peristent) on FiO2 of 80, ABG
   7.53/45/55/39/12 , FiO2 increased to 90%, ABG 7.55/46/64/42/15.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-26**] 10:15 AM
   Voriconazole - [**2114-11-27**] 09:00 PM
   Meropenem - [**2114-11-28**] 01:30 AM
   Gancyclovir - [**2114-11-28**] 01:52 AM
   Bactrim (SMX/TMP) - [**2114-11-28**] 04:09 AM
   Linezolid - [**2114-11-28**] 05:41 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.27 mg/Kg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-27**] 08:00 PM
   Methadone Hydrochloride - [**2114-11-28**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-28**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 61 (58 - 65) bpm
   BP: 103/62(77) {97/49(67) - 155/92(118)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,118 mL
                                                                  1,239 mL
   PO:
             TF:
   IVF:
                                                                  3,841 mL
                                                                  1,239 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  3,395 mL
                                                                  1,920 mL
   Urine:
                                                                  3,395 mL
                                                                  1,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                   -681 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV/Biphasic+ApnVol
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Spontaneous): 0
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 37 cmH2O
   SpO2: 93%
   ABG: 7.55/46/64/39/15
   Ve: 7.4 L/min
   PaO2 / FiO2: 71
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: volume-overloaded, anasarca, but improved compared to
   several days prior
   SKIN: No rashes. Deep tissue injury on sacrum. + stage II sacral decub
   ulcer near anus (from flexiseal)
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   290 K/uL
   8.7 g/dL
   80 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.5 mEq/L
   35 mg/dL
   89 mEq/L
   137 mEq/L
   25.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2114-11-27**]  05:03 AM
                             [**2114-11-27**]  06:12 AM
                             [**2114-11-27**]  07:53 AM
                             [**2114-11-27**]  10:21 AM
                             [**2114-11-27**]  12:38 PM
                             [**2114-11-27**]  03:42 PM
                             [**2114-11-27**]  04:07 PM
                             [**2114-11-28**]  01:13 AM
                             [**2114-11-28**]  03:39 AM
                             [**2114-11-28**]  03:56 AM
   WBC
   10.4
   Hct
   26.2
   25.6
   Plt
   290
   Cr
   0.8
   TCO2
   46
   45
   44
   46
   43
   42
   39
   42
   Glucose
   80
   Other labs: PT / PTT / INR:10.7/30.8/0.9, ALT / AST:62/53, Alk Phos / T
   Bili:170/0.3, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.9 g/dL, LDH:456 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS: Ms. [**Known lastname **] displayed improved
   oxygenation while in prone position with NO. and is not able to
   tolerate being in supine position for extended periods of time.  APRV
   ventilation did not result in significant improvement in oxygenation
   this AM.
   - Continue Prone ventilation and adjust vent settings and positions as
   needed with goal PO2>60,  will tolerate pCO2 in 80s.
   - continue to wean FIO2 as tolerated for sats >90%
   - change NO from 10 ppm to 5ppm if patient tolerates; then consider
   switching off NO. If desaturation, can increase FiO2.
   - Continue on Propofol, Methadone and Versed for sedation/pain control
   - D/C fentanyl and valium
   - D/C phenylephrine
   - Continue paralysis with Cisatracurium (needs to be on for prone
   positioning)
   - F/u with Micro report of CMV findings on prior BAL.
   -Hold PO meds and tube feed including Lamivudine for now given pt. in
   prone position, but will need to consider other med options and TPN
   feeds (IV access may be a problem) if in prone position for extended
   period of time
   - will need to touch base w/ Heme/Onc and ID
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .  Pt.
   started on Linezolid due to concern for VRE.
   - f/u ID recs
   - continue Meropenem, Voriconazole (day 1 = [**2114-11-19**]) - increasing
   LFT's may necessitate changing dosing or d/c'ing medication and
   switching to a different [**Doctor Last Name **]
   - Discuss Antibiotics course w/ ID and BMT as to endpoints?
   - continue Bactrim
   - continue Linezolid to cover for VRE
   - f/u pending blood cultures
   - Increase Solumedrol dose to 40mg [**Hospital1 **]
   - continue gancyclovir (no acyclovir)
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   - transfuse 1u PRBC today
   -check post xfusion HCT
   # ARF:
   Cr declined to 0.8, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   -continue to monitor Cr
   # Volume overload: Significant volume overload since admission, but
   probably approaching diuresis limits given current CVP 4 and elevated
   bicarb
   - continue lasix drip with goal of even today
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs continuing to trend down today  - will continue to monitor given
   Voriconazole use in this patient.  Will re-assess Voriconazole use if
   LFTs continue to climb
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Cont acyclovir ppx
   - Will not need to restart tacrolimus
   - Continue decreased solumedrol dose per heme/onc recs
   - Appreciate BMT recs
   # Hep B:
   - Hold lamivudine for now given in prone position
   ICU Care
   Nutrition:
   Hold tube feeds today as the pt. in prone position.  Will plan to
   restart TPN if the pt. remains in prone position for extended periods
   of time.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: heparin, venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Communication:  Comments:
   Code status: DNR (no chest compressions or shocks)
   Disposition: [**Hospital Unit Name 1**]

2114-11-28 12:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains paralyzed.
   Now off NO, with acceptable SaO2 while supine.
   Experienced mild hypoxemia this AM --> now on 90% FiO2.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-26**] 10:15 AM
   Gancyclovir - [**2114-11-28**] 01:52 AM
   Linezolid - [**2114-11-28**] 05:41 AM
   Meropenem - [**2114-11-28**] 08:08 AM
   Voriconazole - [**2114-11-28**] 08:08 AM
   Bactrim (SMX/TMP) - [**2114-11-28**] 10:23 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Cisatracurium - 0.27 mg/Kg/hour
   Furosemide (Lasix) - 12 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2114-11-28**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-28**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-28**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 64 (58 - 69) bpm
   BP: 124/72(90) {97/55(69) - 155/92(118)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.2 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,118 mL
                                                                  2,032 mL
   PO:
             TF:
   IVF:
                                                                  3,841 mL
                                                                  2,032 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  3,395 mL
                                                                  3,075 mL
   Urine:
                                                                  3,395 mL
                                                                  3,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                 -1,043 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV/Biphasic+ApnVol
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Spontaneous): 0
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 38 cmH2O
   SpO2: 95%
   ABG: 7.55/46/64/39/15
   Ve: 7.6 L/min
   PaO2 / FiO2: 71
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, subconjunctival hemorrhage, right
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   290 K/uL
   103 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.5 mEq/L
   35 mg/dL
   89 mEq/L
   137 mEq/L
   25.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2114-11-27**]  06:12 AM
                             [**2114-11-27**]  07:53 AM
                             [**2114-11-27**]  10:21 AM
                             [**2114-11-27**]  12:38 PM
                             [**2114-11-27**]  03:42 PM
                             [**2114-11-27**]  04:07 PM
                             [**2114-11-28**]  01:13 AM
                             [**2114-11-28**]  03:39 AM
                             [**2114-11-28**]  03:56 AM
                             [**2114-11-28**]  11:40 AM
   WBC
   10.4
   Hct
   26.2
   25.6
   Plt
   290
   Cr
   0.8
   TCO2
   45
   44
   46
   43
   42
   39
   42
   Glucose
   80
   103
   Other labs: PT / PTT / INR:10.7/30.8/0.9, ALT / AST:62/53, Alk Phos / T
   Bili:170/0.3, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.9 g/dL, LDH:456 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Overall clinical improvement, with excellent
   response to inhaled/exogenous NO.  NO initiated to improved oxygenation
   and interrupt hypoxemia-induced pulmonary vasoconstriction.  Remains on
   paralytics.  Attributed to ARDS (supported by measurements) and
   possible infection and possible cardiogenic pulmonary edema.  Unclear
   as to component of GVHD.  Continue mechanical ventilation, hope to
   decrease FiO2 to <60% if possible, and adjust inspiratory and
   expiratory pressures as tolerated to improve oxygenation.  Monitor
   plerual pressures.   Monitor CXR.  Would prepare to move to
   tracheostomy tube if improves to allow procedure to be performed
   safely.  Continue NO, with hope to be able to wean to d/c if able to
   maintain adequate SaO2 and pO2.  Considered ECMO evaluation, but unable
   to transfer safely.
   PULMONARY INFILTRATES
 diffuse, pleural effusions, much improved
   radiographically.  Attributble to ARDS, and in part related to net
   positive fluid balance.  Continue with broad spectrum empirical
   antibiotics (linazolid/meropenem/voriconazole-including Bactrim for
   possible Pneumocystis), continue net diuresis.
   HYPOXEMIA
 evidence for right-to-left shunt on recent cardiac echo.
   Likely contributing to severe hypoxemia if pulmonary hypertension
   developing --> excellent response to  NO, so may be eligible for longer
   acting [**Doctor Last Name **].  Monitor SaO2 (maintain >85%) or pO2 (maintain >55 mmHg).
   NEUROLOGICAL STATUS -- sedated, paralyzed.  Maintain
   benzodiazepines/sedation and narcotics while paralyzed.
   LACTIC ACIDOSIS
  Persisent, mild elevation.  [**Month (only) 51**] reflect evolving
   sepsis (line-related, VAP, urinary source, hepatobiliary infection)
   need to monitor closely.
   ALKALEMIA -- component of metabolic alkalosis (HCO3= 43), likey due to
   contraction alkalosis in context of active diuresis.  Aggressive
   repletion of Cl (as KCl).
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   GVHD -- continue medications.  Now on higher dose of steroids (for
   empirical Pneumocystis treatment)
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21.
   NUTRITIONAL SUPPORT
 continue TF, but limited by proning position.
   [**Month (only) 51**] need to initiate TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-26**] 08:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-29 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Switched to PCV in AM with target tidal volume the same , was satting
   >90% on FiO2 of 80%
   -Switched from RotaProne to Triadyne II bed.
   -Desatted to low 80s.  Was swithed back to APRV.  P(low) settings
   adjusted.  The patient was satting in low 90s.
   - ABG 8:30 pm: 7.33/75/73/41/9
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2114-11-26**] 10:15 AM
   Meropenem - [**2114-11-28**] 08:08 AM
   Voriconazole - [**2114-11-28**] 08:30 PM
   Gancyclovir - [**2114-11-29**] 02:00 AM
   Bactrim (SMX/TMP) - [**2114-11-29**] 04:30 AM
   Linezolid - [**2114-11-29**] 06:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Furosemide (Lasix) - 12 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-28**] 08:00 PM
   Methadone Hydrochloride - [**2114-11-29**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-29**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.2
   HR: 60 (56 - 80) bpm
   BP: 104/62(77) {91/53(68) - 130/81(101)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.6 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,006 mL
                                                                  1,141 mL
   PO:
             TF:
   IVF:
                                                                  4,006 mL
                                                                  1,141 mL
   Blood products:
   Total out:
                                                                  5,525 mL
                                                                  1,280 mL
   Urine:
                                                                  5,525 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,519 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV/Biphasic+ApnVol
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   PIP: 37 cmH2O
   SpO2: 91%
   ABG: 7.46/55/57/40/12
   Ve: 6.8 L/min
   PaO2 / FiO2: 57
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice.   Increasing
   facial edema
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. ETT in place.
   LUNGS: Shallow ventilated breaths. Clear breath sounds. No wheezes,
   rales, or rhonchi.
   HEART: RRR no M/R/G
   ABDOMEN: + BS. Soft, nontender, mildly distended
   EXTREMITIES: volume-overloaded, anasarca, but improved compared to
   several days prior
   SKIN: No rashes. Deep tissue injury on sacrum. + stage II sacral decub
   ulcer near anus (from flexiseal)
   ACCESS: Right triple lumen in IJ, right arterial line
   Labs / Radiology
   264 K/uL
   7.9 g/dL
   90 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.6 mEq/L
   35 mg/dL
   92 mEq/L
   138 mEq/L
   23.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2114-11-28**]  03:39 AM
                             [**2114-11-28**]  03:56 AM
                             [**2114-11-28**]  11:40 AM
                             [**2114-11-28**]  01:30 PM
                             [**2114-11-28**]  03:57 PM
                             [**2114-11-28**]  05:21 PM
                             [**2114-11-28**]  08:30 PM
                             [**2114-11-29**]  02:19 AM
                             [**2114-11-29**]  02:32 AM
                             [**2114-11-29**]  05:01 AM
   WBC
   10.4
   10.5
   Hct
   25.6
   23.9
   Plt
   290
   264
   Cr
   0.8
   0.8
   TCO2
   42
   40
   45
   44
   41
   41
   40
   Glucose
   80
   103
   87
   90
   Other labs: PT / PTT / INR:10.9/31.0/0.9, ALT / AST:51/41, Alk Phos / T
   Bili:169/0.2, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:3.2 mmol/L,
   Albumin:2.9 g/dL, LDH:402 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   52-year-old female with ALL s/p chemo and single cord blood
   transplantation complicated by CMV viremia, streptococcal bacteremia,
   VRE UTI, and suspected GVHD-induced hepatitis who presents with
   pneumonia/sepsis and respiratory failure.
   # Hypoxemic respiratory failure/ARDS: Ms. [**Known lastname **] displayed improved
   oxygenation while in prone position with NO.  There is significant
   improvement in the appearance of lungs on CXR over the past several
   days.   However, she displays significant facial swelling and skin
   breakdown, so she will not be able to tolarate being in RotaProne bed.
   - Switch to  Triadyne II bed from RotaProne
   - Switch to Pressure Control ventilation with the goal tidal volume
   identical to current
   - continue to wean FIO2 as tolerated for sats >90%
   - Continue on Propofol, Methadone and Versed for sedation/pain control
   - Continue paralysis with Cisatracurium. Will attempt to stop in the
   near future.
   - Re-start PO meds and tube feed including Lamivudine for now given pt.
   in prone position.
   - F/u BMT and ID recs
   # Sepsis:
   Afebrile.  Maintaining BP off pressors.  Sepsis initially due to
   multifocal PNA, as seen on CT chest. Signficant radiographic
   improvement on CXR.  Wide differential given immunosuppression but
   influenza and other respiratory virus panel negative; AFB smear on BAL
   was negative, urine legionella negative.  Culture from BAL with less
   than 1,000 colonies, Gram stain negative for PMN
s or organisms. BAL:
   report of cytopathic effect today on old BAL, to be discussed with
   Micro.  C diff [**11-17**] negative.  B-glucan and galactomannan negative x
   2.  BAL IF negative for PCP x 2.  .  Pt. started on Linezolid due to
   concern for VRE.
   - f/u ID recs, BMT recs
   - continue Meropenem, Voriconazole (day 1 = [**2114-11-19**])
   - continue Bactrim
   - continue Linezolid to cover for VRE
   - f/u pending blood cultures
   - Continue Solumedrol at 40mg [**Hospital1 **]
   - continue Ggancyclovir
   # Anemia:
   Hct stable. No recurrence of GI bleeding.
   - monitor Hct
   - Active T+S
   # ARF:
   Cr declined to 0.8, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   -continue to monitor Cr
   # Volume overload: Significant volume overload since admission, given
   improving bicarb, will attempt to diurese 0.5-1 L today.
   - continue lasix drip with goal of 500-1000cc negative today
   # Elevated LFTs: Etiology unclear. [**Name2 (NI) 3234**] shows normal liver, biliary
   system except for gallbladder polyp. DDX includes GVHD vs. meds vs.
   infection
   - LFTs slightly up today  - will continue to monitor given Voriconazole
   use in this patient.  Will re-assess Voriconazole use if LFTs continue
   to climb
   # ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Appreciate BMT recs
   # Hep B:
   - Re-start Lamivudine
   ICU Care
   Nutrition:
   Re-start tube feeds today .
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Prophylaxis:
   DVT: heparin, venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Communication:  Comments:
   Code status: DNR (no chest compressions or shocks)
   Disposition: [**Hospital Unit Name 1**]

2114-11-29 11:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  APRV mode, remains on FiO2
   100%.
   Remains sedated, paralyzed (pharmacological).
   Meropenem discontinued.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive, ETT
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2114-11-28**] 08:08 AM
   Gancyclovir - [**2114-11-29**] 02:00 AM
   Bactrim (SMX/TMP) - [**2114-11-29**] 04:30 AM
   Linezolid - [**2114-11-29**] 06:00 AM
   Voriconazole - [**2114-11-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.28 mg/Kg/hour
   Furosemide (Lasix) - 12 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-29**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-29**] 08:38 AM
   Methadone Hydrochloride - [**2114-11-29**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-11-29**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 57 (56 - 80) bpm
   BP: 119/71(90) {91/53(68) - 126/75(95)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 53.6 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,006 mL
                                                                  1,604 mL
   PO:
             TF:
   IVF:
                                                                  4,006 mL
                                                                  1,604 mL
   Blood products:
   Total out:
                                                                  5,525 mL
                                                                  2,030 mL
   Urine:
                                                                  5,525 mL
                                                                  2,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,519 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV/Biphasic+ApnVol
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   PIP: 37 cmH2O
   SpO2: 96%
   ABG: 7.41/64/68/40/12
   Ve: 5.4 L/min
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Right subconjunctival hemorrhage
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   264 K/uL
   90 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.6 mEq/L
   35 mg/dL
   92 mEq/L
   138 mEq/L
   23.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2114-11-28**]  11:40 AM
                             [**2114-11-28**]  01:30 PM
                             [**2114-11-28**]  03:57 PM
                             [**2114-11-28**]  05:21 PM
                             [**2114-11-28**]  08:30 PM
                             [**2114-11-29**]  02:19 AM
                             [**2114-11-29**]  02:32 AM
                             [**2114-11-29**]  05:01 AM
                             [**2114-11-29**]  09:03 AM
                             [**2114-11-29**]  09:41 AM
   WBC
   10.5
   Hct
   23.9
   Plt
   264
   Cr
   0.8
   TCO2
   40
   45
   44
   41
   41
   40
   41
   42
   Glucose
   103
   87
   90
   Other labs: PT / PTT / INR:10.9/31.0/0.9, ALT / AST:51/41, Alk Phos / T
   Bili:169/0.2, Differential-Neuts:87.2 %, Band:2.0 %, Lymph:6.5 %,
   Mono:5.6 %, Eos:0.6 %, Fibrinogen:643 mg/dL, Lactic Acid:3.4 mmol/L,
   Albumin:2.9 g/dL, LDH:402 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   52 yof ALL s/p cord blood transplant (>200 days) now with progressive
   hypoxemic respiratory failure and ARDS.
   RESPIRATORY FAILURE
 Overall clinical improvement, with excellent
   response to inhaled/exogenous NO.  NO initiated to improved oxygenation
   and interrupt hypoxemia-induced pulmonary vasoconstriction.  Currently
   off NO, remains on paralytics.  Attributed to ARDS (supported by
   measurements) and possible infection and possible cardiogenic pulmonary
   edema.  Unclear as to component of GVHD.  Continue mechanical
   ventilation, hope to decrease FiO2 to <60% if possible, and adjust
   inspiratory and expiratory pressures as tolerated to improve
   oxygenation.  Monitor plerual pressures.   Monitor CXR.  Would prepare
   to move to tracheostomy tube if improves to allow procedure to be
   performed safely.  If developes profound hypoxemia, resume NO, and
   consider ECMO evaluation (but may not be able to transfer safely).
   [**Hospital3 **] ECMO Team (ICU 7-South) [**Telephone/Fax (1) 11245**].
   PULMONARY INFILTRATES
 diffuse, pleural effusions, much improved
   radiographically.  Attributble to ARDS, and in part related to net
   positive fluid balance.  [**Month (only) 51**] be component of CMV infection/pneumonia
   (viral cytopathic effects, CMV viremia).  Continue with broad spectrum
   empirical antibiotics (linazolid/meropenem/voriconazole-including
   Bactrim for possible Pneumocystis), continue net diuresis.
   HYPOXEMIA
 evidence for right-to-left shunt on recent cardiac echo.
   Likely contributing to severe hypoxemia if pulmonary hypertension
   developing --> excellent response to  NO, so may be eligible for longer
   acting [**Doctor Last Name **].  Monitor SaO2 (maintain >85%) or pO2 (maintain >55 mmHg).
   NEUROLOGICAL STATUS -- sedated, paralyzed.  Maintain
   benzodiazepines/sedation and narcotics while paralyzed.  Hope to be
   able to work towards discontinuation of paralytics if tolerates.
   LACTIC ACIDOSIS
  Persisent, mild elevation.  [**Month (only) 51**] reflect evolving
   sepsis (line-related, VAP, urinary source, hepatobiliary infection)
   need to monitor closely.
   ALKALEMIA -- component of metabolic alkalosis (HCO3= 38), likey due to
   contraction alkalosis in context of active diuresis.  Aggressive
   repletion of Cl (as KCl).
   ACUTE RENAL FAILURE
 attributed to ATN.  Resolved.  Continue monitor
   BUN, creatinine.  Continue lasix drip.
   ELEVATED LFTs
 Possible component of GVHD.  Currently stable.  Monitor
   LFTs.
   FLUIDS
 net positive.  Desire net negative daily fluid balance.
   SEPSIS
 resolved, remains off pressors.   Initially due to multifocal
   PNA, as seen on CT chest.
   ALL -- s/p cord blood transplantation.   BMTx team following.
   GVHD -- continue medications.  Now on higher dose of steroids (for
   empirical Pneumocystis treatment)
   HEPATITIS B -- Continue lamivudine.
   ANEMIA
 Normocytic.  Hct stable.  Transfuse for Hct < 21.
   NUTRITIONAL SUPPORT
 resume TF, but limited by parlytics.  [**Month (only) 51**] need to
   initiate TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-26**] 08:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-11-30 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2114-11-29**] 09:40 PM
   - CMV VIREMIA +VL 1000
   - Meropenem d/c'd per ID
   - gastroccult positive coffee-ground residuals --> held tube feeds
   - IV said they could not place PICC and IR said that there was nothing
   else they could do at bedside (will need to discuss further with IR)
   - 7 p.m. SBP dropped to 70s, with sat 89% and symmetric breath sounds.
   Gave 500 cc NS bolus, with increase in SBP to 90s. During the bolus, O2
   sat fell sharply to low 70s/high 60s. Repositioned patient on left side
   and noticed decreased breath sounds on left in new position. Suctioned
   by respiratory but nothing came up. Adjusted ventilator settings and
   started nitric oxide with no improvement in oxygenation. Got stat CXR
   which showed large left pneumothorax. Called thoracic surgery, who
   placed chest tube. Vital signs improved immediately upon chest tube
   placement. Weaned FiO2 to 90%. Sent pleural fluid for culture. ABG at
   12:41 a.m. was 7.45/52/70
   Allergies:
   Cefepime--Rash
   Last dose of Antibiotics:
   Meropenem - [**2114-11-28**] 08:08 AM
   Voriconazole - [**2114-11-29**] 08:00 PM
   Gancyclovir - [**2114-11-30**] 02:02 AM
   Bactrim (SMX/TMP) [**2114-1-30**] 04:00 AM
   Linezolid - [**2114-11-30**] 05:31 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.28 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-29**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2114-11-29**] 08:00 PM
   Methadone Hydrochloride - [**2114-11-30**] 04:00 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-30**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 59 (56 - 98) bpm
   BP: 109/59(76) {74/48(55) - 153/98(119)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 53.6 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,719 mL
                                                                  1,157 mL
   PO:
             TF:
   IVF:
                                                                  4,719 mL
                                                                  1,157 mL
   Blood products:
   Total out:
                                                                  4,199 mL
                                                                  1,790 mL
   Urine:
                                                                  3,985 mL
                                                                  1,760 mL
   NG:
                                                                    110 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                   -633 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 90%
   RSBI Deferred: Neuromusc Block
   PIP: 34 cmH2O
   Plateau: 33 cmH2O
   Compliance: 14.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/54/80.[**Numeric Identifier 176**]/33/10
   Ve: 6.6 L/min
   PaO2 / FiO2: 89
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice. New skin
   breakdown on b/l cheeks
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. Right subjunctival hemorrhage appears worse than prior exams ETT
   in place.
   LUNGS: Ventilated breaths. Decreased lung sounds t/o all lung fields,
   chest tube in place draining sanguinous fluid
   HEART: regular rate and rhythm no murmurs appreciated
   ABDOMEN: No bowel sounds. Soft, nontender, mildly distended
   EXTREMITIES: Still with 1+ lower extremity edema, but improved.
   ACCESS: Right triple lumen in IJ, left arterial line
   Labs / Radiology
   301 K/uL
   8.7 g/dL
   85 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.6 mEq/L
   36 mg/dL
   86 mEq/L
   131 mEq/L
   26.5 %
   13.7 K/uL
        [image002.jpg]
                             [**2114-11-29**]  05:02 PM
                             [**2114-11-29**]  05:14 PM
                             [**2114-11-29**]  07:03 PM
                             [**2114-11-29**]  07:37 PM
                             [**2114-11-29**]  10:02 PM
                             [**2114-11-29**]  10:42 PM
                             [**2114-11-29**]  10:57 PM
                             [**2114-11-30**]  12:41 AM
                             [**2114-11-30**]  03:43 AM
                             [**2114-11-30**]  06:09 AM
   WBC
   13.7
   Hct
   25.9
   24.7
   26.5
   Plt
   301
   Cr
   0.9
   1.0
   TCO2
   42
   37
   39
   40
   39
   37
   38
   Glucose
   129
   85
   Other labs: PT / PTT / INR:10.7/29.7/0.9, ALT / AST:51/41, Alk Phos / T
   Bili:169/0.2, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:5.0 %, Eos:1.0 %, Fibrinogen:643 mg/dL, Lactic Acid:3.4 mmol/L,
   Albumin:2.9 g/dL, LDH:402 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 52-year-old female with ALL s/p chemo and single cord blood
   transplantation (>200 days) complicated by CMV viremia, streptococcal
   bacteremia, VRE UTI, and suspected GVHD-induced hepatitis who presents
   with pneumonia/sepsis and hypoxemic respiratory failure.
   1. HYPOXEMIC RESPIRATORY FAILURE
 attributed to ARDS +/- GVHD, was
   improving on NO as it can alleviate hypoxemia-induced pulmonary
   vasoconstriction, but  now w/ new L sided PTX, likely [**2-26**] barotrauma
   from high PEEP. PTX improving w/ chest tube in place- Thoracic surgery
   aware.
   - continue mech vent on AC settings w/ FiO2 90%
   - NO currently at 40ppm, attempt to wean off NO slowly, might need to
   go up to 100% FiO2 in interim.
   - monitor pleural pressures
   - follow CXR
   - thoracic [**Doctor First Name 213**] f/u re: chest tube (maintain while on PEEP)
   - continue net diuresis (goal -500cc to euvolemia)
   - continue broad spectrum abx (linezolid, [**Last Name (un) 614**], vori, bactrim for pcp)
   -Monitor SaO2 (maintain >85%) or pO2 (maintain >55 mmHg).
   - continue proprofol, midazolam, methadone for sedation/ pain control
   - continue paralysis w/ cisastracurium, consider weaning
   -f/u BMT and ID recs
   - advance ETT 1cm (too high on CXR)
   2.  SEPSIS- continues to be afebrile and maintaining BP off pressors..
   Sepsis initially due to multifocal PNA, as seen on CT chest. Signficant
   radiographic improvement on CXR.  Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .Pt. started
   on Linezolid due to concern for VRE.  BAL from [**11-10**] showed CMV-like
   cytopathic effect, and CMV viral load from [**2114-11-27**] showed 1160
   copies/mL.
   - f/u ID recs, BMT recs
   - continue Voriconazole (day 1 = [**2114-11-19**])
   - continue Bactrim
   - continue Linezolid to cover for VRE
   - f/u pending cultures
   - Continue Solumedrol
   - decrease gancyclovir dose as Cr 1.0 (as per BMT recs)
   - monitor lactic acidosis (persistent mild elevation may be evolving
   sepsis from VAP, urine, liver infx)
   3. Anemia: coffee ground NGT aspirate.  [**Month (only) 51**] represent gastritis or
   PUD.  Monitor exam and serial Hct.  GI consultation if Hct declines.
   - monitor Hct
   - Active T+S
   4. ARF:
   Cr declined to 0.8, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   - continue to monitor Cr
   5. ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Appreciate BMT recs
   #6. Hep B: ct lamivudine
   ICU Care
   Nutrition:
   Continue to hold TF as GI bleed; re-eval after ETT advanced 1cm, will
   need PICC for PPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-9**] 11:00 PM
   Arterial Line - [**2114-11-10**] 02:00 AM
   Will request PICC for TPN.
   Prophylaxis:
   DVT: heparin, venodynes
   Stress ulcer: pantoprazole
   VAP:  bundle
   Communication:  Comments:
   Code status: DNR (no chest compressions or shocks)
   Disposition: [**Hospital Unit Name 1**]

2114-12-01 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2114-11-30**] 08:01 PM
   - ETT advanced 1cm.
   - BMT recs to taper steroids
   - ID recs to pan-cx d/t leukocytosis
   - Opthal c/s-> no CMV retinitis; likely chemosis w/ conj hemorrhage d/t
   proning/ high pressures-> changed lactilube to q2h OU
   - [**2105**] L-IJ placed, confirmed w/ CXR,
   - 1230 started TPN thru central line
   0500 having some bleeding at site of central line insertion, no
   lacerations seen, nothing to suture- bleeding through multiple dressing
   changes, got thrombin topical spray from pharmacy and xfused 1u PRBC
   Allergies:
   Cefepime-Rash
   Last dose of Antibiotics:
   Meropenem - [**2114-11-28**] 08:08 AM
   Gancyclovir - [**2114-12-1**] 02:00 AM
   Bactrim-[**2114-12-1**] 04:00 AM
   Linezolid - [**2114-12-1**] 05:45 AM
   Voriconazole - [**2114-12-1**] 07:55 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Furosemide (Lasix) - 6 mg/hour
   Cisatracurium - 0.28 mg/Kg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-11-30**] 08:00 PM
   Methadone Hcl - [**2114-12-1**] 07:55 AM
   Pantoprazole- [**2114-12-1**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-1**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 69 (57 - 82) bpm
   BP: 112/61(78) {87/44(60) - 133/68(93)} mmHg
   RR: 20 (20 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  3,682 mL
                                                                  1,548 mL
   PO:
             TF:
   IVF:
                                                                  3,682 mL
                                                                  1,260 mL
   Blood products:
   Total out:
                                                                  5,925 mL
                                                                    818 mL
   Urine:
                                                                  5,810 mL
                                                                    675 mL
   NG:
                                                                    115 mL
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,243 mL
                                                                    730 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: Neuromusc Block
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   SpO2: 96%
   ABG: 7.40/63/103/38/10
   Ve: 5.9 L/min
   PaO2 / FiO2: 103
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice. New skin
   breakdown on b/l cheeks
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. Right subjunctival hemorrhage appears worse than prior exams ETT
   in place.
   Neck: new L- IJ in place, with wound dressing drenched in blood, no
   lacerations
   LUNGS: Ventilated breaths. Decreased lung sounds t/o all lung fields,
   chest tube in place draining sanguinous fluid
   HEART: regular rate and rhythm no murmurs appreciated
   ABDOMEN: No bowel sounds. Soft, nontender, mildly distended
   EXTREMITIES: Still with 1+ lower extremity edema, but improved.
   ACCESS: Right triple lumen in IJ, left arterial line
   Labs / Radiology
   278 K/uL
   7.3 g/dL
   105 mg/dL
   0.8 mg/dL
   38 mEq/L
   4.6 mEq/L
   31 mg/dL
   90 mEq/L
   134 mEq/L
   22.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2114-11-29**]  10:42 PM
                             [**2114-11-29**]  10:57 PM
                             [**2114-11-30**]  12:41 AM
                             [**2114-11-30**]  03:43 AM
                             [**2114-11-30**]  06:09 AM
                             [**2114-11-30**]  11:01 AM
                             [**2114-11-30**]  03:46 PM
                             [**2114-11-30**]  04:13 PM
                             [**2114-12-1**]  03:47 AM
                             [**2114-12-1**]  04:06 AM
   WBC
   13.7
   12.4
   Hct
   24.7
   26.5
   25.8
   22.4
   Plt
   301
   278
   Cr
   1.0
   0.9
   0.8
   TCO2
   39
   37
   38
   40
   42
   40
   Glucose
   85
   86
   105
   Other labs: PT / PTT / INR:11.0/45.8/0.9, ALT / AST:51/41, Alk Phos / T
   Bili:169/0.2, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:3.4 mmol/L,
   Albumin:2.9 g/dL, LDH:402 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 52-year-old female with ALL s/p chemo and single cord blood
   transplantation (>200 days) complicated by CMV viremia, streptococcal
   bacteremia, VRE UTI, and suspected GVHD-induced hepatitis who presents
   with pneumonia/sepsis and hypoxemic respiratory failure.
   1. HYPOXEMIC RESPIRATORY FAILURE
 attributed to ARDS +/- GVHD, was
   improving on NO as it can alleviate hypoxemia-induced pulmonary
   vasoconstriction, but  now w/ new L sided PTX, likely [**2-26**] barotrauma
   from high PEEP. PTX improving w/ chest tube in place- Thoracic surgery
   following
   - continue mech vent on AC settings w/ FiO2 100%
   - NO currently at 5 ppm, attempt to wean off NO slowly by 1ppm at a
   time, might need to go up to 100% FiO2 in interim.
   - monitor pleural pressures
   - follow CXRs, pnuemothorax appears much improved
   - thoracic [**Doctor First Name 213**] f/u re: chest tube (maintain while on PEEP)- to h2o
   seal  now
   - continue net diuresis (goal -500cc to euvolemia)
   - continue broad spectrum abx ([**Last Name (un) 614**], vori, bactrim for pcp)
   -Monitor SaO2 (maintain >85%) or pO2 (maintain >55 mmHg).
   - continue proprofol, midazolam, methadone for sedation/ pain control
   - continue paralysis w/ cisastracurium, consider weaning
   -f/u BMT and ID recs
   - TTE Monday to better evaluate PFO (last echo [**2114-11-12**])
   2.  SEPSIS- continues to be afebrile and maintaining BP off pressors..
   Sepsis initially due to multifocal PNA, as seen on CT chest. Signficant
   radiographic improvement on CXR.  Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .Pt. started
   on Linezolid due to concern for VRE.  BAL from [**11-10**] showed CMV-like
   cytopathic effect, and CMV viral load from [**2114-11-27**] showed 1160
   copies/mL.
   - f/u ID recs, BMT recs
   - continue Voriconazole (day 1 = [**2114-11-19**])
   - continue Bactrim for PCP [**Name9 (PRE) **]
   [**Name Initial (PRE) **] pleural fluid cx negative, so d/c linezolid
   - f/u any pending cultures
   - Continue Solumedrol taper as per BMT recs (30mg [**Hospital1 7**] now)
   - decrease gancyclovir dose as Cr 1.0 (as per BMT recs)
   - monitor lactic acidosis (persistent mild elevation may be evolving
   sepsis from VAP, urine, liver infx)
   3. Anemia: coffee ground NGT aspirate.  [**Month (only) 51**] represent gastritis or
   PUD.  Monitor exam and serial Hct.  GI consultation if Hct declines.
   - bleeding from IJ insertion site, HCT 25-> 22 , no laceration, no
   evidence DIC or hemolysis from labs (normal coags, plts)
   - thrombin spray, pressure dressing
   - xfuse 1 uPRBC
   - check post-transfusion Hct
   - Active T+S
   4. Conjunctival hemorrhage- appreciate optho recs. Chemosis OU w/ conj
   erythema/ hemorrhage OD likely [**2-26**] high PEEPs and prone positioning. No
   evidence CMV retinitis on DFE
   -- increased lactilube to q2h OU
   -- anisocoria on exam [**2-26**] DFE (not new neuro findings- neuro exam will
   be abnl for 24h)
   5. ARF:
   Cr declined to 0.8, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   - continue to monitor Cr
   6. ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Appreciate BMT recs
   #7. Hep B: ct lamivudine
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-12-1**] 01:00 AM 41.[**Telephone/Fax (3) 3450**] mL/hour
   started thru R IJ
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-11-26**] 08:20 PM
   Multi Lumen - [**2114-11-30**] 08:01 PM
   Prophylaxis:
   DVT:  holding heparin d/t inc PTT
   Stress ulcer: pantoprazole q12h [**Hospital1 7**]
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status:  DNR (do not resuscitate) no compressions, pressors ok
   Disposition: ICU
   ------ Protected Section ------
   MICU attending addendum:
   I concur with Dr [**Last Name (STitle) 11211**];s note above. I have seen and examined the
   patient.
   We will slowly wean NO ( 1ppm each hour) to avoid rebound increase in
   PVR and repeat echo in am [**12-3**]. If there is worsening RV dilation or
   evidence for increasing PA hypertension, we will request Dr [**Last Name (STitle) **]
   input regarding right heart cath and subsequent plans for medical
   therapy ( flolan vs sildenafil) to help decrease intracardiac shunt. We
   will continue with lasix gtt to help facilitate diuresis and slowly
   wean steroids.
   [**First Name8 (NamePattern2) 3093**] [**Doctor Last Name **].
   CC time : 55 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2114-12-1**] 02:15 PM ------

2114-12-02 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Weaned NO down to 2 ppm, still sattting 98% on RA.  MAPs in 80s.
   -Weaned down NO to 1 ppm, still satting 97%, so went downt o 90% on
   FiO2.
   -FiO2 down to 70, still satting 96%!!!  ABG pending.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2114-12-1**] 05:45 AM
   Voriconazole - [**2114-12-1**] 08:15 PM
   Gancyclovir - [**2114-12-1**] 09:20 PM
   Bactrim (SMX/TMP) - [**2114-12-2**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-1**] 07:52 PM
   Methadone Hydrochloride - [**2114-12-2**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-2**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 82 (62 - 86) bpm
   BP: 135/67(91) {102/50(69) - 148/79(103)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  4,784 mL
                                                                  1,037 mL
   PO:
             TF:
   IVF:
                                                                  3,484 mL
                                                                    731 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  4,741 mL
                                                                  1,725 mL
   Urine:
                                                                  4,475 mL
                                                                  1,720 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                     43 mL
                                                                   -688 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 34 cmH2O
   Compliance: 13.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/61/90.[**Numeric Identifier 126**]/41/9
   Ve: 6 L/min
   PaO2 / FiO2: 129
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice. New skin
   breakdown on b/l cheeks
   HEENT: Pupils are equal and minimally reactive to light, +scleral
   edema. Right subjunctival hemorrhage appears worse than prior exams ETT
   in place.
   Neck: new L- IJ in place, with wound dressing drenched in blood, no
   lacerations
   LUNGS: Ventilated breaths. Decreased lung sounds t/o all lung fields,
   chest tube in place draining sanguinous fluid
   HEART: regular rate and rhythm no murmurs appreciated
   ABDOMEN: No bowel sounds. Soft, nontender, mildly distended
   EXTREMITIES: Still with 1+ lower extremity edema, but improved.
   ACCESS: Right triple lumen in IJ, left arterial line
   Labs / Radiology
   262 K/uL
   8.5 g/dL
   77 mg/dL
   0.8 mg/dL
   41 mEq/L
   4.7 mEq/L
   34 mg/dL
   87 mEq/L
   131 mEq/L
   25.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2114-11-30**]  04:13 PM
                             [**2114-12-1**]  03:47 AM
                             [**2114-12-1**]  04:06 AM
                             [**2114-12-1**]  11:12 AM
                             [**2114-12-1**]  02:56 PM
                             [**2114-12-1**]  03:14 PM
                             [**2114-12-2**]  03:50 AM
                             [**2114-12-2**]  04:01 AM
                             [**2114-12-2**]  04:53 AM
                             [**2114-12-2**]  05:44 AM
   WBC
   12.4
   11.2
   12.1
   Hct
   22.4
   26.6
   25.9
   Plt
   [**Telephone/Fax (3) 11329**]
   Cr
   0.8
   0.8
   TCO2
   42
   40
   40
   41
   42
   39
   39
   Glucose
   105
   77
   Other labs: PT / PTT / INR:10.6/28.3/0.9, ALT / AST:51/41, Alk Phos / T
   Bili:169/0.2, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:3.9 mmol/L,
   Albumin:2.9 g/dL, LDH:402 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 52-year-old female with ALL s/p chemo and single cord blood
   transplantation (>200 days) complicated by CMV viremia, streptococcal
   bacteremia, VRE UTI, and suspected GVHD-induced hepatitis who presents
   with pneumonia/sepsis and hypoxemic respiratory failure.
   1. HYPOXEMIC RESPIRATORY FAILURE
 attributed to ARDS +/- GVHD, was
   improving on NO as it can alleviate hypoxemia-induced pulmonary
   vasoconstriction, but  now w/ new L sided PTX, likely [**2-26**] barotrauma
   from high PEEP. PTX improving w/ chest tube in place- Thoracic surgery
   following
   - continue mech vent on AC settings w/ FiO2 100%
   - NO currently at 5 ppm, attempt to wean off NO slowly by 1ppm at a
   time, might need to go up to 100% FiO2 in interim.
   - monitor pleural pressures
   - follow CXRs, pnuemothorax appears much improved
   - thoracic [**Doctor First Name 213**] f/u re: chest tube (maintain while on PEEP)- to h2o
   seal  now
   - continue net diuresis (goal -500cc to euvolemia)
   - continue broad spectrum abx ([**Last Name (un) 614**], vori, bactrim for pcp)
   -Monitor SaO2 (maintain >85%) or pO2 (maintain >55 mmHg).
   - continue proprofol, midazolam, methadone for sedation/ pain control
   - continue paralysis w/ cisastracurium, consider weaning
   -f/u BMT and ID recs
   - TTE Monday to better evaluate PFO (last echo [**2114-11-12**])
   2.  SEPSIS- continues to be afebrile and maintaining BP off pressors..
   Sepsis initially due to multifocal PNA, as seen on CT chest. Signficant
   radiographic improvement on CXR.  Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .Pt. started
   on Linezolid due to concern for VRE.  BAL from [**11-10**] showed CMV-like
   cytopathic effect, and CMV viral load from [**2114-11-27**] showed 1160
   copies/mL.
   - f/u ID recs, BMT recs
   - continue Voriconazole (day 1 = [**2114-11-19**])
   - continue Bactrim for PCP [**Name9 (PRE) **]
   [**Name Initial (PRE) **] pleural fluid cx negative, so d/c linezolid
   - f/u any pending cultures
   - Continue Solumedrol taper as per BMT recs (30mg [**Hospital1 7**] now)
   - decrease gancyclovir dose as Cr 1.0 (as per BMT recs)
   - monitor lactic acidosis (persistent mild elevation may be evolving
   sepsis from VAP, urine, liver infx)
   3. Anemia: coffee ground NGT aspirate.  [**Month (only) 51**] represent gastritis or
   PUD.  Monitor exam and serial Hct.  GI consultation if Hct declines.
   - bleeding from IJ insertion site, HCT 25-> 22 , no laceration, no
   evidence DIC or hemolysis from labs (normal coags, plts)
   - thrombin spray, pressure dressing
   - xfuse 1 uPRBC
   - check post-transfusion Hct
   - Active T+S
   4. Conjunctival hemorrhage- appreciate optho recs. Chemosis OU w/ conj
   erythema/ hemorrhage OD likely [**2-26**] high PEEPs and prone positioning. No
   evidence CMV retinitis on DFE
   -- increased lactilube to q2h OU
   -- anisocoria on exam [**2-26**] DFE (not new neuro findings- neuro exam will
   be abnl for 24h)
   5. ARF:
   Cr declined to 0.8, close to baseline
   - renally dose meds
   - avoid nephrotoxins
   - continue to monitor Cr
   6. ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Appreciate BMT recs
   #7. Hep B: ct lamivudine
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-12-1**] 01:00 AM 41.[**Telephone/Fax (3) 3450**] mL/hour
   started thru R IJ
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-11-26**] 08:20 PM
   Multi Lumen - [**2114-11-30**] 08:01 PM
   Prophylaxis:
   DVT:  holding heparin d/t inc PTT
   Stress ulcer: pantoprazole q12h [**Hospital1 7**]
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status:  DNR (do not resuscitate) no compressions, pressors ok
   Disposition: ICU

2114-12-03 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -restarted heparin SC at 5000 units daily
   -started TPN
   -ordered echocardiogram
   -discontinued paralysis
   -increased PEEP to 15, FIO2 to 80%
   Allergies:
   Cefepime--Rash
   Last dose of Antibiotics:
   Linezolid - [**2114-12-1**] 05:45 AM
   Voriconazole - [**2114-12-2**] 08:00 PM
   Gancyclovir - [**2114-12-2**] 09:00 PM
   Bactrim (SMX/TMP) - [**2114-12-3**] 04:06 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 10.1 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-2**] 07:58 AM
   Methadone Hydrochloride - [**2114-12-3**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-3**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 90 (70 - 99) bpm
   BP: 133/58(77) {91/44(60) - 160/73(103)} mmHg
   RR: 20 (15 - 21) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  3,659 mL
                                                                  1,104 mL
   PO:
             TF:
   IVF:
                                                                  2,610 mL
                                                                    780 mL
   Blood products:
   Total out:
                                                                  5,035 mL
                                                                  1,265 mL
   Urine:
                                                                  5,030 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,376 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 90%
   ABG: 7.41/63/62/38/11
   Ve: 6.8 L/min
   PaO2 / FiO2: 78
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice.
   HEENT: Anisocoria (L>R), reactive to light bilaterally. This is [**2-26**]
   DFE. Chemiosis (b/l scleral icterus); conjunctival hemorrhage OD
   Neck: Bilateral IJ central lines in place.
   LUNGS: Ventilated breaths, equal bilaterally. No wheezes, rales, or
   rhonchi.
   HEART: regular rate and rhythm no murmurs appreciated
   ABDOMEN: No bowel sounds. Soft, nontender, mildly distended
   EXTREMITIES: Still with 1+ lower extremity edema, but improved.
   Labs / Radiology
   275 K/uL
   8.5 g/dL
   103 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.6 mEq/L
   34 mg/dL
   89 mEq/L
   130 mEq/L
   25.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2114-12-2**]  10:39 AM
                             [**2114-12-2**]  01:27 PM
                             [**2114-12-2**]  06:00 PM
                             [**2114-12-2**]  07:21 PM
                             [**2114-12-2**]  08:29 PM
                             [**2114-12-2**]  10:00 PM
                             [**2114-12-3**]  12:00 AM
                             [**2114-12-3**]  02:00 AM
                             [**2114-12-3**]  03:56 AM
                             [**2114-12-3**]  04:07 AM
   WBC
   15.0
   Hct
   25.3
   Plt
   275
   Cr
   0.7
   TCO2
   42
   41
   42
   42
   40
   41
   39
   41
   Glucose
   151
   103
   Other labs: PT / PTT / INR:10.8/27.8/0.9, ALT / AST:56/53, Alk Phos / T
   Bili:177/0.3, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:2.9 g/dL, LDH:544 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 52-year-old female with ALL s/p chemo and single cord blood
   transplantation (>200 days) complicated by CMV viremia, streptococcal
   bacteremia, VRE UTI, and suspected GVHD-induced hepatitis who presents
   with pneumonia/ sepsis and hypoxemic respiratory failure.
   1. ARDS
 Oxygenation improved, now on  FiO2 of 70% and only 1 ppm of
   nitric oxide. Still paralyzed.
   - attempt to wean paralysis
   - attempt to wean nitric oxide
   - decrease FiO2 as tolerated
   - thoracic [**Doctor First Name 213**] f/u re: chest tube (maintain while on PEEP)- to h2o
   seal  now
   - continue net diuresis (goal -500cc to euvolemia)
   - continue broad spectrum abx ([**Last Name (un) 614**], vori, bactrim for pcp)
   - Monitor SaO2 (maintain >85%) or pO2 (maintain >55 mmHg).
   - continue proprofol, midazolam, methadone for sedation/ pain control
   - f/u BMT and ID recs
   - f/u TTE results today better evaluate PFO and extent of pulmn HTN
   (llast echo [**2114-11-12**])
   - add sildenafil
   2. Pneumothorax
 Has large left-sided pneumothorax on [**2114-11-29**]. Chest
   tube in place. No evidence of recurrence.
   - thoracic surgery recs re: chest tube
   - chest tube to water seal
   - serial chest x-rays
   3.  SEPSIS- Continues to be afebrile and maintaining BP off pressors..
   Sepsis initially due to multifocal PNA, as seen on CT chest. Signficant
   radiographic improvement on CXR.  Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .Pt. started
   on Linezolid due to concern for VRE.  BAL from [**11-10**] showed CMV-like
   cytopathic effect, and CMV viral load from [**2114-11-27**] showed 1160
   copies/mL.
   - f/u ID recs, BMT recs
   - send another sputum cx, ucx, bcx, w/ fungal isolates
   - continue Voriconazole (day 1 = [**2114-11-19**])
   - continue Bactrim for PCP [**Name9 (PRE) **]
   [**Name Initial (PRE) **] continue gancyclovir to PCP
   [**Name Initial (PRE) **] start [**Name9 (PRE) 3396**] abx w/ vanc, zosyn, cipro
   - f/u any pending cultures
   - Continue Solumedrol taper as per BMT recs
   - monitor lactic acidosis (persistent mild elevation may be evolving
   sepsis from VAP, urine, liver infx)
   4. GI bleeding: Coffee ground NGT aspirate now resolved.  [**Month (only) 51**] represent
   gastritis or PUD.
   - Monitor exam and serial Hct.  Hct goal 25
   - GI consultation if Hct declines
   5. Bleeding from IJ insertion site, HCT 25-> 22 , no laceration, no
   evidence DIC or hemolysis from labs (normal coags, plts)
   - thrombin spray, pressure dressing
   - trend Hct
   - Active T+S
   6. Sub-conjunctival hemorrhage: Chemosis OU w/ conj erythema/
   hemorrhage OD likely [**2-26**] high PEEPs and prone positioning. No evidence
   CMV retinitis on DFE
   -- appreciate optho recs.
   -- continuelactilube to q2h OU
   -- anisocoria on exam [**2-26**] DFE (not new neuro findings- neuro exam will
   be abnl for 24h)
   7. ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Appreciate BMT recs
   8. Hep B: ct lamivudine
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-12-1**] 01:00 AM 41.[**Telephone/Fax (3) 3450**] mL/hour
   started thru R IJ
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-11-26**] 08:20 PM
   Multi Lumen - [**2114-11-30**] 08:01 PM
   Prophylaxis:
   DVT:  heparin held d/t inc PTT. Today, restarted heparin at 5000 units
   once daily.
   Stress ulcer: pantoprazole q12h
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status:  DNR (do not resuscitate) no compressions, pressors ok
   Disposition: ICU
   ------ Protected Section ------
   Attending ICU Physician Note
   [**Name Initial (PRE) **] saw and examined the patient with the medical housestaff and the ICU
   fellow on morning rounds and discussed the assessment and plan in
   detail.  I agree with the assessment and plan and would add the
   following details.
   Noted to have increasing thick white, yellow tinged secretions via
   ETT.  Now with small amount of bright red blood via NGT.  Esophageal
   balloon removed.
   Hemodynamically  unchanged.  Abdomen soft, not distended
   Hct down to 23, INR 0.9.
   Concerned that she is developing a VAP, broaden abx.  Repeat panculture
   as detailed above.
   GI consultation obtained for probable UGIB, anticipate EGD once family
   consent obtained.  Transfuse pRBCs. Follow serial CBCs.
   Prognosis is guarded.
   Patient is critically ill
   Time spent 65 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2114-12-3**] 15:31 ------

2114-12-04 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2114-12-3**] 04:00 PM
   - around 1400 massive GI bleeding- NGT
   - got STAT HCT, 23 from 25 ordered 2u PRBC and 2 u FFP, got GI c/s they
   scoped her and found massive amts old clotted blood in fundus,
   difficult to visualize if bleeding vessel underneath due to adherent
   clots. rec'd high dose ppi (she's already on it), will re-scope if
   clinical status changes alot (not crazy abt re-scoping
   - satting in the high 80s on max vent settings 100% fio2, restarted her
   paralysis on nimbex w/ loading dose to help w/ vent dyssynchrony
   -increased NO to 15 ppm, still desatting, put chest tube to wall
   suction; tachy to 120s-130s, BPs in the 180s, added fentanyl to ensure
   adequate sedation
   - respiratory tried increasing NO to 40 ppm but not much immediate
   effect, was desatting on 100% FiO2 to high 70s, low 80s. Dr. [**Last Name (STitle) **]
   called. Family called w/ interpreter, son and husband arrived to
   bedside. Pt still tachycardic all night
   - changed vent settings all night, d/c NGT, ABG, got CXR- looked worse,
   diffuse process engulfing lung
   - BP's up to 200s-> ABG looks worse as acidemic, wanted to ventilate
   more as high CO2, high volumes would increase pressures d/t poor lung
   compliance. (lungs stiff could not ventilate or oxygenate) ? etiology
   [**Last Name (STitle) **]?
   Allergies:
   Cefepime-- Rash
   Last dose of Antibiotics:
   Vancomycin - [**2114-12-3**] 03:45 PM
   Voriconazole - [**2114-12-3**] 08:45 PM
   Gancyclovir - [**2114-12-3**] 10:08 PM
   Piperacillin - [**2114-12-4**] 12:36 AM
   Bactrim (SMX/TMP) - [**2114-12-4**] 04:16 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 50 mcg/Kg/min
   Furosemide (Lasix) - 24 mg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-12-3**] 08:00 AM
   Cisatracurium - [**2114-12-3**] 10:10 PM
   Methadone Hydrochloride - [**2114-12-4**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-4**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 115 (96 - 126) bpm
   BP: 113/53(71) {102/48(62) - 188/87(116)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 81%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.8 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  6,902 mL
                                                                  1,645 mL
   PO:
             TF:
   IVF:
                                                                  4,607 mL
                                                                  1,299 mL
   Blood products:
                                                                  1,242 mL
   Total out:
                                                                  3,965 mL
                                                                  1,770 mL
   Urine:
                                                                  3,570 mL
                                                                  1,740 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,937 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (0 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 40 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   PIP: 55 cmH2O
   Plateau: 53 cmH2O
   Compliance: 8.1 cmH2O/mL
   SpO2: 81%
   ABG: 7.22/87.[**Numeric Identifier 181**]/46/34/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 46
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice or painful stimuli
   HEENT: Chemiosis (b/l scleral icterus); conjunctival hemorrhage OD,
   marked swelling of eyelids b/l,old  blood in oropharynx
   Neck: Bilateral IJ central lines in place.
   LUNGS: Ventilated breaths, equal bilaterally. No wheezes, rales, or
   rhonchi.
   HEART: regular rate and rhythm no murmurs appreciated
   ABDOMEN: No bowel sounds. Soft, nontender, mildly distended
   EXTREMITIES: Still with 1+ lower extremity edema, but improved.
   Labs / Radiology
   204 K/uL
   9.0 g/dL
   296 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.6 mEq/L
   34 mg/dL
   91 mEq/L
   130 mEq/L
   26.8 %
   15.6 K/uL
        [image002.jpg]
                             [**2114-12-3**]  04:07 AM
                             [**2114-12-3**]  11:56 AM
                             [**2114-12-3**]  02:21 PM
                             [**2114-12-3**]  08:26 PM
                             [**2114-12-3**]  09:59 PM
                             [**2114-12-3**]  10:32 PM
                             [**2114-12-3**]  11:07 PM
                            [**2114-12-4**]  12:15 AM
                            [**2114-12-4**]  04:04 AM
                            [**2114-12-4**]  04:29 AM
   WBC
   15.2
   15.6
   Hct
   23.4
   28.3
   26.8
   Plt
   182
   204
   Cr
   0.7
   TCO2
   41
   39
   39
   38
   38
   36
   38
   Glucose
   296
   Other labs: PT / PTT / INR:11.2/27.2/0.9, ALT / AST:56/53, Alk Phos / T
   Bili:177/0.3, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:544 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 52-year-old female with ALL s/p chemo and single cord blood
   transplantation (>200 days) complicated by CMV viremia, streptococcal
   bacteremia, VRE UTI, and suspected GVHD-induced hepatitis who presents
   with pneumonia/ sepsis, and hypoxemic respiratory failure, complicated
   by large-volume upper GI bleed and possible [**Known lastname **] from blood and FFP
   transfused for UGIB.
   1. RESPIRATORY FAILURE- Multifactorial, [**2-26**] ARDS, PTX which has
   improved and now possible component of [**Month/Day (2) **] from PRBCs/ FFP required
   for large volume UGIB. Oxygenation worsening all night, now satting
   high 70s, low 80s on FiO2 100% and 40ppm NO. Needed to re-paralyze due
   to vent dyssynchrony.
   - maximal supportive care
   - lasix gtt to dry out lungs if indeed [**Month/Day (2) **], vent settings already
   maximized
 lasix gtt held in AM d/t MAPs in 50s
   - contact blood bank to eval for [**Name (NI) **]
   - check TID HCTs.=
   - follow CXRs
   - decrease FiO2 and NO if tolerated
   - chest tube to water seal
   - continue net diuresis (goal -0.5 to -1 L )
   - continue broad spectrum abx (vanc, vori, bactrim for pcp) -> change
   vanco to 500mg from 1g daily
   - continue proprofol, midazolam, methadone and fentanyl (added
   yesterday) for sedation/ pain control
   - decrease propofol from 50 to 25 to increase MAP
   - f/u any BMT and ID recs
   - f/u TTE results today better evaluate PFO and extent of pulmn HTN
   (llast echo [**2114-11-12**])
   2.  SEPSIS- Continues to be afebrile and maintaining BP off pressors..
   Sepsis initially due to multifocal PNA, as seen on CT chest. Signficant
   radiographic improvement on CXR.  Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .Pt. started
   on Linezolid due to concern for VRE.  BAL from [**11-10**] showed CMV-like
   cytopathic effect, and CMV viral load from [**2114-11-27**] showed 1160
   copies/mL.
   - f/u ID recs, BMT recs
   - send another sputum cx, ucx, bcx, w/ fungal isolates
   - continue Voriconazole (day 1 = [**2114-11-19**])
   - continue Bactrim for PCP [**Name9 (PRE) **]
   [**Name Initial (PRE) **] continue gancyclovir to PCP
   [**Name Initial (PRE) **] start [**Name9 (PRE) 3396**] abx w/ vanc, zosyn, cipro
   - f/u any pending cultures
   - Continue Solumedrol 20mg [**Hospital1 7**] taper as per BMT recs
   - monitor lactic acidosis (persistent mild elevation may be evolving
   sepsis from VAP, urine, liver infx)
   4. GI bleeding: Coffee ground NGT aspirate now resolved.  [**Month (only) 51**] represent
   gastritis or PUD.
   - Monitor exam and serial Hct.  Hct goal 25
   - GI consultation if Hct declines
   5. Bleeding from IJ insertion site, HCT 25-> 22 , no laceration, no
   evidence DIC or hemolysis from labs (normal coags, plts)
   - thrombin spray, pressure dressing
   - trend Hct
   - Active T+S
   6. Sub-conjunctival hemorrhage: Chemosis OU w/ conj erythema/
   hemorrhage OD likely [**2-26**] high PEEPs and prone positioning. No evidence
   CMV retinitis on DFE
   -- appreciate optho recs.
   -- continuelactilube to q2h OU
   -- anisocoria on exam [**2-26**] DFE (not new neuro findings- neuro exam will
   be abnl for 24h)
   7. ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Appreciate BMT recs
   8. Hep B: ct lamivudine
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-12-3**] 11:47 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-11-26**] 08:20 PM
   Multi Lumen - [**2114-11-30**] 08:01 PM
   Prophylaxis:
   DVT: heparin SC (d/c this)
   Stress ulcer: IV PPI [**Hospital1 7**]
   VAP:  bundle
   Comments:
   Communication:  Comments: husband (through interpreter services and
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **])
   Code status: Full code
   Disposition: ICU

2114-12-04 09:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2114-12-3**] 04:00 PM:  large clots in the fundus, no
   evidence of active bleeding
   Worsening respiratory failure overnight; requiring increasing support
   in setting of persistent sats in the 80's on 100% FiO2, paralyzed
   again.  No benefit from increasing NO.
   Transfused 2 u pRBCs and 2 u FFP
   Became more tachycardic and hypertensive - fenatanyl increased for
   better sedation
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2114-12-4**] 12:36 AM
   Bactrim (SMX/TMP) - [**2114-12-4**] 04:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2114-12-4**] 07:51 AM
   Vancomycin - [**2114-12-4**] 07:52 AM
   Gancyclovir - [**2114-12-4**] 07:53 AM
   Voriconazole - [**2114-12-4**] 07:53 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Midazolam (Versed) - 20 mg/hour
   Propofol - 50 mcg/Kg/min
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Cisatracurium - [**2114-12-3**] 10:10 PM
   Methadone Hydrochloride - [**2114-12-4**] 07:52 AM
   Pantoprazole (Protonix) - [**2114-12-4**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2114-12-4**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-12-4**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.1
C (97
   HR: 105 (96 - 126) bpm
   BP: 98/46(62) {98/45(62) - 188/87(116)} mmHg
   RR: 27 (16 - 30) insp/min
   SpO2: 82%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.8 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  6,902 mL
                                                                  2,405 mL
   PO:
             TF:
   IVF:
                                                                  4,607 mL
                                                                  1,972 mL
   Blood products:
                                                                  1,242 mL
   Total out:
                                                                  3,965 mL
                                                                  1,950 mL
   Urine:
                                                                  3,570 mL
                                                                  1,920 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,937 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (0 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 40 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   PIP: 55 cmH2O
   Plateau: 53 cmH2O
   Compliance: 8.1 cmH2O/mL
   SpO2: 82%
   ABG: 7.22/87.[**Numeric Identifier 181**]/46/34/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 46
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases bilaterally)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   204 K/uL
   296 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.6 mEq/L
   34 mg/dL
   91 mEq/L
   130 mEq/L
   26.8 %
   15.6 K/uL
        [image002.jpg]
                             [**2114-12-3**]  04:07 AM
                             [**2114-12-3**]  11:56 AM
                             [**2114-12-3**]  02:21 PM
                             [**2114-12-3**]  08:26 PM
                             [**2114-12-3**]  09:59 PM
                             [**2114-12-3**]  10:32 PM
                             [**2114-12-3**]  11:07 PM
                            [**2114-12-4**]  12:15 AM
                            [**2114-12-4**]  04:04 AM
                            [**2114-12-4**]  04:29 AM
   WBC
   15.2
   15.6
   Hct
   23.4
   28.3
   26.8
   Plt
   182
   204
   Cr
   0.7
   TCO2
   41
   39
   39
   38
   38
   36
   38
   Glucose
   296
   Other labs: PT / PTT / INR:11.2/27.2/0.9, ALT / AST:56/53, Alk Phos / T
   Bili:177/0.3, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:544 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Imaging: CXR:
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Hct decreased
   albeit she was also positive on fluid balance; would have expected more
   of a bump with transfusion even so.  Follow CBC every 6 hours, GAS.
   Discontinue
 ELECTROLYTE & FLUID DISORDER, OTHER:  Replete magnesium.
   Hyponatremia, free water restriction and repeat electrolytes.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]):
   Decompensation overnight from a respiraotry standpoint in setting of
   increased bilateral alveolar inflitrates.  Had received blood products
   yesterday, may be related to this, TRALI.  Total fluid balance last 24
   hours was ~3L positive, component of volume overload may be
   contributing.  Was restarted on lasix drip yesterday after EGD; she was
   diuresing well and then drip stopped again this morning in setting of
   MAPS ~50.  Will plan to decrease propofol to see if this will improve
   hemodynamics and allow further diuresis.
 DIABETES MELLITUS (DM), TYPE II:  Sliding scale regular insulin.
 CANCER (MALIGNANT NEOPLASM), OTHER:  Oncology following.
    ALL
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-12-3**] 11:47 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-11-26**] 08:20 PM
   Multi Lumen - [**2114-11-30**] 08:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2114-12-05 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Go down on Propofol
   -Diuresis as tolerated
   -Trend Hct q6hrs, transfuse Hct < 23
   -? [** **], discuss with Blood Bank
   -Goals of care w/ family
   -ABGs continue to look like VBGs, O2 sat 83% on 100% FiO2, 10 pp NO
   this PM
   -Given another 2 units of pRBCs this PM, post-transfusion Hct
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2114-12-4**] 12:36 AM
   Vancomycin - [**2114-12-4**] 08:17 PM
   Voriconazole - [**2114-12-4**] 09:33 PM
   Gancyclovir - [**2114-12-4**] 10:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2114-12-5**] 01:00 AM
   Bactrim (SMX/TMP) - [**2114-12-5**] 04:25 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Fentanyl (Concentrate) - 75 mcg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Furosemide (Lasix) - 20 mg/hour
   Midazolam (Versed) - 16 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-12-4**] 07:53 AM
   Pantoprazole (Protonix) - [**2114-12-4**] 07:21 PM
   Methadone Hydrochloride - [**2114-12-5**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-5**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 92 (88 - 105) bpm
   BP: 112/52(71) {98/45(62) - 130/61(84)} mmHg
   RR: 30 (27 - 30) insp/min
   SpO2: 83%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.4 kg (admission): 47 kg
   Height: 60 Inch
           Total In:
                                                                  5,726 mL
                                                                  2,320 mL
   PO:
           TF:
   IVF:
                                                                  4,069 mL
                                                                  1,716 mL
   Blood products:
                                                                    458 mL
                                                                    242 mL
   Total out:
                                                                  5,120 mL
                                                                  2,120 mL
   Urine:
                                                                  5,090 mL
                                                                  2,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    606 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 50 cmH2O
   Plateau: 43 cmH2O
   Compliance: 11.1 cmH2O/mL
   SpO2: 83%
   ABG: 7.20/91.[**Numeric Identifier 143**]/52/31/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 52
   Physical Examination
   GENERAL: Intubated, sedated, not responsive to voice or painful stimuli
   HEENT: Chemiosis (b/l scleral icterus); conjunctival hemorrhage OD,
   marked swelling of eyelids b/l,old  blood in oropharynx
   Neck: Bilateral IJ central lines in place.
   LUNGS: Ventilated breaths, equal bilaterally. No wheezes, rales, or
   rhonchi.
   HEART: regular rate and rhythm no murmurs appreciated
   ABDOMEN: No bowel sounds. Soft, nontender, mildly distended
   EXTREMITIES: Still with 1+ lower extremity edema, but improved.
   Labs / Radiology
   164 K/uL
   10.8 g/dL
   212 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   40 mg/dL
   92 mEq/L
   131 mEq/L
   31.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2114-12-3**]  10:32 PM
                             [**2114-12-3**]  11:07 PM
                            [**2114-12-4**]  12:15 AM
                            [**2114-12-4**]  04:04 AM
                            [**2114-12-4**]  04:29 AM
                            [**2114-12-4**]  11:39 AM
                            [**2114-12-4**]  12:09 PM
                            [**2114-12-4**]  04:58 PM
                            [**2114-12-5**]  01:56 AM
                            [**2114-12-5**]  02:02 AM
   WBC
   15.6
   9.5
   Hct
   26.8
   22.9
   31.5
   Plt
   204
   164
   Cr
   0.7
   0.6
   TCO2
   38
   38
   36
   38
   36
   36
   38
   Glucose
   296
   212
   Other labs: PT / PTT / INR:10.2/26.9/0.8, ALT / AST:56/53, Alk Phos / T
   Bili:177/0.3, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.9 g/dL, LDH:544 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 52-year-old female with ALL s/p chemo and single cord blood
   transplantation (>200 days) complicated by CMV viremia, streptococcal
   bacteremia, VRE UTI, and suspected GVHD-induced hepatitis who presents
   with pneumonia/ sepsis, and hypoxemic respiratory failure, complicated
   by large-volume upper GI bleed and possible [**Known lastname **] from blood and FFP
   transfused for UGIB.
   1. RESPIRATORY FAILURE- Multifactorial, [**2-26**] ARDS, PTX which has
   improved and now possible component of [**Month/Day (2) **] from PRBCs/ FFP required
   for large volume UGIB. Oxygenation worsening all night, now satting
   high 70s, low 80s on FiO2 100% and 40ppm NO. Needed to re-paralyze due
   to vent dyssynchrony.
   - maximal supportive care
   - lasix gtt to dry out lungs if indeed [**Month/Day (2) **], vent settings already
   maximized
 lasix gtt held in AM d/t MAPs in 50s
   - contact blood bank to eval for [**Name (NI) **]
   - check TID HCTs.=
   - follow CXRs
   - decrease FiO2 and NO if tolerated
   - chest tube to water seal
   - continue net diuresis (goal -0.5 to -1 L )
   - continue broad spectrum abx (vanc, vori, bactrim for pcp) -> change
   vanco to 500mg from 1g daily
   - continue proprofol, midazolam, methadone and fentanyl (added
   yesterday) for sedation/ pain control
   - decrease propofol from 50 to 25 to increase MAP
   - f/u any BMT and ID recs
   - f/u TTE results today better evaluate PFO and extent of pulmn HTN
   (llast echo [**2114-11-12**])
   2.  SEPSIS- Continues to be afebrile and maintaining BP off pressors..
   Sepsis initially due to multifocal PNA, as seen on CT chest. Signficant
   radiographic improvement on CXR.  Wide differential given
   immunosuppression but influenza and other respiratory virus panel
   negative; AFB smear on BAL was negative, urine legionella negative.
   Culture from BAL with less than 1,000 colonies, Gram stain negative for
   PMN
s or organisms. BAL: report of cytopathic effect today on old BAL,
   to be discussed with Micro.  C diff [**11-17**] negative.  B-glucan and
   galactomannan negative x 2.  BAL IF negative for PCP x 2.  .Pt. started
   on Linezolid due to concern for VRE.  BAL from [**11-10**] showed CMV-like
   cytopathic effect, and CMV viral load from [**2114-11-27**] showed 1160
   copies/mL.
   - f/u ID recs, BMT recs
   - send another sputum cx, ucx, bcx, w/ fungal isolates
   - continue Voriconazole (day 1 = [**2114-11-19**])
   - continue Bactrim for PCP [**Name9 (PRE) **]
   [**Name Initial (PRE) **] continue gancyclovir to PCP
   [**Name Initial (PRE) **] start [**Name9 (PRE) 3396**] abx w/ vanc, zosyn, cipro
   - f/u any pending cultures
   - Continue Solumedrol 20mg [**Hospital1 7**] taper as per BMT recs
   - monitor lactic acidosis (persistent mild elevation may be evolving
   sepsis from VAP, urine, liver infx)
   4. GI bleeding: Coffee ground NGT aspirate now resolved.  [**Month (only) 51**] represent
   gastritis or PUD.
   - Monitor exam and serial Hct.  Hct goal 25
   - GI consultation if Hct declines
   5. Bleeding from IJ insertion site, HCT 25-> 22 , no laceration, no
   evidence DIC or hemolysis from labs (normal coags, plts)
   - thrombin spray, pressure dressing
   - trend Hct
   - Active T+S
   6. Sub-conjunctival hemorrhage: Chemosis OU w/ conj erythema/
   hemorrhage OD likely [**2-26**] high PEEPs and prone positioning. No evidence
   CMV retinitis on DFE
   -- appreciate optho recs.
   -- continuelactilube to q2h OU
   -- anisocoria on exam [**2-26**] DFE (not new neuro findings- neuro exam will
   be abnl for 24h)
   7. ALL:
   On chronic immunosuppression s/p single cord blood transplantation.
   - Appreciate BMT recs
   8. Hep B: ct lamivudine
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-12-3**] 11:47 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-11-26**] 08:20 PM
   Multi Lumen - [**2114-11-30**] 08:01 PM
   Prophylaxis:
   DVT: heparin SC (d/c this)
   Stress ulcer: IV PPI [**Hospital1 7**]
   VAP:  bundle
   Comments:
   Communication:  Comments: husband (through interpreter services and
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **])
   Code status: Full code
   Disposition: ICU

2114-12-06 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
    Family mtg, no escalation of care
   Allergies:
   Cefepime Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2114-12-4**] 12:36 AM
   Voriconazole - [**2114-12-5**] 08:00 PM
   Vancomycin - [**2114-12-5**] 08:00 PM
   Gancyclovir - [**2114-12-5**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2114-12-6**] 12:00 AM
   Bactrim (SMX/TMP) - [**2114-12-6**] 04:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-5**] 08:00 PM
   Methadone Hydrochloride - [**2114-12-6**] 04:00 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-6**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 131 (87 - 133) bpm
   BP: 127/63(79) {98/48(65) - 138/70(87)} mmHg
   RR: 30 (30 - 30) insp/min
   SpO2: 78%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55.4 kg (admission): 47 kg
   Height: 60 Inch
             Total In:
                                                                  6,309 mL
                                                                  1,292 mL
   PO:
             TF:
   IVF:
                                                                  4,867 mL
                                                                    930 mL
   Blood products:
                                                                    242 mL
   Total out:
                                                                  4,545 mL
                                                                    490 mL
   Urine:
                                                                  4,345 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,764 mL
                                                                    802 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%
   PIP: 51 cmH2O
   Plateau: 48 cmH2O
   Compliance: 9.4 cmH2O/mL
   SpO2: 78%
   ABG: 7.21/81.[**Numeric Identifier 508**]/45//2
   Ve: 8.8 L/min
   PaO2 / FiO2: 45
   Physical Examination
   Labs / Radiology
   163 K/uL
   10.6 g/dL
   212 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   40 mg/dL
   92 mEq/L
   131 mEq/L
   32.0 %
   10.4 K/uL
        [image002.jpg]
                            [**2114-12-4**]  04:04 AM
                            [**2114-12-4**]  04:29 AM
                            [**2114-12-4**]  11:39 AM
                            [**2114-12-4**]  12:09 PM
                            [**2114-12-4**]  04:58 PM
                            [**2114-12-5**]  01:56 AM
                            [**2114-12-5**]  02:02 AM
                            [**2114-12-5**]  09:14 AM
                            [**2114-12-5**]  10:48 AM
                            [**2114-12-5**]  03:15 PM
   WBC
   15.6
   9.5
   10.4
   Hct
   26.8
   22.9
   31.5
   30.7
   32.0
   Plt
   [**Telephone/Fax (3) 11435**]
   Cr
   0.7
   0.6
   TCO2
   38
   36
   36
   38
   34
   Glucose
   296
   212
   Other labs: PT / PTT / INR:10.2/26.9/0.8, ALT / AST:56/53, Alk Phos / T
   Bili:177/0.3, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:643 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.9 g/dL, LDH:544 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 CONSTIPATION (OBSTIPATION, FOS)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
    ALL
 .H/O [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    BMT
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-12-5**] 05:51 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-11-26**] 08:20 PM
   Multi Lumen - [**2114-11-30**] 08:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, no escalation of care
   Disposition:              ICU